2169-03-21 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2169-3-20**] 08:14 PM
   - admitted in p.m.
   - delirious at late night, requiring increased sedation; on PSV
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2169-3-21**] 01:30 AM
   Haloperidol (Haldol) - [**2169-3-21**] 02:00 AM
   Fentanyl - [**2169-3-21**] 04:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-3-21**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 64 (46 - 102) bpm
   BP: 117/53(68) {91/36(55) - 154/72(86)} mmHg
   RR: 12 (12 - 22) insp/min
   SpO2: 94%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                     78 mL
                                                                    134 mL
   PO:
             TF:
   IVF:
                                                                     78 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                    175 mL
                                                                  1,030 mL
   Urine:
                                                                    175 mL
                                                                  1,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -97 mL
                                                                   -896 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 244 (244 - 3,219) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: ///27/
   Ve: 8.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   115 K/uL
   9.3 g/dL
   101 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.7 mEq/L
   25 mg/dL
   116 mEq/L
   150 mEq/L
   30.0 %
   11.4 K/uL
        [image002.jpg]
                             [**2169-3-20**]  09:18 PM
                             [**2169-3-21**]  05:39 AM
   WBC
   13.0
   11.4
   Hct
   29.6
   30.0
   Plt
   125
   115
   Cr
   1.2
   1.1
   TropT
   0.06
   Glucose
   92
   101
   Other labs: PT / PTT / INR:12.2/23.9/1.0, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:58/13, Alk Phos / T Bili:62/0.3,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 .H/O ALCOHOL ABUSE
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 DELIRIUM / CONFUSION
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
   .
   # Severe tracheobronchial malacia: bronch on [**2169-3-17**] at OSH reportedly
   showed near complete airway collapse when ET tube was withdrawn; hence,
   ongoing intubation. Patient's respiratory is clinically stable.
   - discuss with Dr. [**Last Name (STitle) 901**], patient's pulmonologist who placed and
   removed prior stent; might need another stent placement
   - maintain minimal ventilatory support for now
   .
   # COPD: not wheezing currently, respiratory status stable. ARrived to
   [**Hospital1 5**] with methylpred 40 mg IV daily.
   - nebs prn
   - continue methylpred 40 mg IV daily for now but will rapidly taper
   down
   .
   # Recent pneumonia: no fever on arrival, stable respiratory status,
   already s/p 10 days of moxifloxacin.
   - repeat CBC, sputum cx
   - hold off on abx
   .
   # Recent [**Last Name (un) **]: Cr reportedly almost normalized after IVF
   - renal labs
   .
   # Recently elevated LFTs: working diagnosis from OSH was shock liver.
   - repeat LFTs
   .
   # Possible UTI: diagnosed on urinalysis at OSH with urine cx ngtd.
   Already received 3 days of ceftriaxone.
   - f/u OSH cx
   - d/c abx
   .
   # Alcohol abuse:
   - CIWA with lorazepam
   - thiamine, folate, B12
   .
   # FEN: IVFs / replete lytes prn / TF
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  FULL
   # CONTACT: boyfriend [**Name (NI) **] [**Name (NI) 513**] [**Telephone/Fax (1) 514**], brother [**Name (NI) 509**] [**Telephone/Fax (1) 511**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-3-20**] 08:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2169-03-21 09:59:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 F with respiratory failure, likely due to airway obstruction from
   tracheobronchomalacia, s/p recent treatment for pneumonia. Transferred
   from OSH for IP evaluation of possible stent replacement.
   24 Hour Events:
   CVC placed overnight. Increased delirium overnight. [**Name8 (MD) **] RN increased
   diarrhea
   no complaints this AM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2169-3-21**] 01:30 AM
   Haloperidol (Haldol) - [**2169-3-21**] 02:00 AM
   Fentanyl - [**2169-3-21**] 04:40 AM
   Heparin Sodium (Prophylaxis) - [**2169-3-21**] 08:26 AM
   Other medications:
   famotidine, Heparin sc, Solu-Medrol 40 q24
   Changes to medical and family history:
   COPD
   ETOHism
   Prior smoker
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-3-21**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.2
C (97.1
   HR: 74 (46 - 102) bpm
   BP: 126/52(68) {91/36(55) - 154/72(86)} mmHg
   RR: 12 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                     78 mL
                                                                    197 mL
   PO:
             TF:
   IVF:
                                                                     78 mL
                                                                    197 mL
   Blood products:
   Total out:
                                                                    175 mL
                                                                  1,330 mL
   Urine:
                                                                    175 mL
                                                                  1,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -97 mL
                                                                 -1,133 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 281 (244 - 3,219) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 85
   RSBI Deferred: Agitated
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 6.1 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   115 K/uL
   101 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.7 mEq/L
   25 mg/dL
   116 mEq/L
   150 mEq/L
   30.0 %
   11.4 K/uL
        [image002.jpg]
                             [**2169-3-20**]  09:18 PM
                             [**2169-3-21**]  05:39 AM
   WBC
   13.0
   11.4
   Hct
   29.6
   30.0
   Plt
   125
   115
   Cr
   1.2
   1.1
   TropT
   0.06
   Glucose
   92
   101
   Other labs: PT / PTT / INR:12.2/23.9/1.0, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:58/13, Alk Phos / T Bili:62/0.3,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Imaging: OSH Bronch ([**3-17**])- total collapse of distal trachea
   CXR- elevated R hemidiaphragm, low volumes, poss LLL infiltrate vs
   atelectasis
   Assessment and Plan
   57 F with respiratory failure, likely due to airway obstruction from
   tracheobronchomalacia.
   1. Resp failure d/t tracheobronchomalacia- also w/ poor gag per RT/ RN,
   underlying COPD
   -Keep on current vent settings while sedated, may resume CPAP when
   awake
   -IP consult (Dr. [**Last Name (STitle) 901**] as she will likely need placement of another
   stent vs trach
   -prn nebs for underlying COPD which appears stable for now. Taper
   steroids today, to prednisone 40 qd
   2. Hypernatremia- approx 2.4L free H20 deficit
   -replete with D5W @ 100/hr x 24h
   3. Agitated delirium- underlying EtOHism but out of the window for
   withdrawal
   -start Seroquel [**Hospital1 **] and minimize sedatives
   4. Diarrhea- check for C. diff
   -empiric contact precautions
   ICU Care
   Nutrition:
   Comments: tube feeds held until discussion w/ IP
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2169-3-20**] 08:14 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 4052**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   57 yo women with severe COPD, tracheobronchomalacia.  Admitted to OSH
   with respiratory failure.  Transferred here for assessment for stent.
   Exam notable for decreased BS on lung exam.  Patient is sedated and
   unresponsive.
   Labs notable for Na of 150.
   A/P
   Respiratory failure:  await IP eval for stent.
   Hypernatremia:  increase free water.
   Delirium: Seroquel.
   CC 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2169-3-21**] 15:19 ------

2169-03-22 10:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -IP plans for Y stent plcmt on Thursday in the a.m., need to make the
   pt NPO / hold TF Wed night
   -6p Na still 150, D5W increased from 100cc/hr to 150cc/hr
   -Switched to PO prednisone
   -KUB ordered for worsening abdominal distension
   -HCP paperwork obtained from brother, ICU consent verbally given by
   HCP, family updated
   -500cc gastric contents suctioned and some gastric contents noted in
   mouth, tube feeds were not started.
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2169-3-21**] 12:15 PM
   Famotidine (Pepcid) - [**2169-3-21**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2169-3-21**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-3-22**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 47 (47 - 76) bpm
   BP: 110/51(65) {101/42(56) - 132/70(78)} mmHg
   RR: 12 (10 - 17) insp/min
   SpO2: 94%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  2,327 mL
                                                                  1,664 mL
   PO:
             TF:
             40 mL
   IVF:
                                                                  2,327 mL
                                                                  1,625 mL
   Blood products:
   Total out:
                                                                  2,665 mL
                                                                  1,475 mL
   Urine:
                                                                  2,665 mL
                                                                  1,375 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                   -338 mL
                                                                    189 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 423 (298 - 423) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 68
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 94%
   ABG: ///29/
   Ve: 5.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   130 K/uL
   9.2 g/dL
   167 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.4 mEq/L
   17 mg/dL
   109 mEq/L
   144 mEq/L
   29.7 %
   9.7 K/uL
        [image002.jpg]
                             [**2169-3-20**]  09:18 PM
                             [**2169-3-21**]  05:39 AM
                             [**2169-3-22**]  05:30 AM
   WBC
   13.0
   11.4
   9.7
   Hct
   29.6
   30.0
   29.7
   Plt
   125
   115
   130
   Cr
   1.2
   1.1
   1.1
   TropT
   0.06
   Glucose
   92
   101
   167
   Other labs: PT / PTT / INR:12.2/23.9/1.0, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:58/13, Alk Phos / T Bili:62/0.3,
   Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 .H/O ALCOHOL ABUSE
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 DELIRIUM / CONFUSION
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
   .
   # Severe tracheobronchial malacia: bronch on [**2169-3-17**] at OSH reportedly
   showed near complete airway collapse when ET tube was withdrawn; hence,
   ongoing intubation. Patient's respiratory is clinically stable but now
   requiring pressure support.  IP is aware and will see her today.
   - f/u IP recs
   - maintain PSV support
   .
   # COPD: not wheezing currently, respiratory status stable. ARrived to
   [**Hospital1 5**] with methylpred 40 mg IV daily.
   - nebs prn
   - taper to PO steroids via OG today
   .
   # Agitated delirium
   - start quetiapine [**Hospital1 **]
   .
   #Hypernatremia:
   - D5W to correct 2.5L fluid deifict over 24 hours
   - PM electrolytes
   .
   # Recent pneumonia: no fever on arrival, stable respiratory status,
   already s/p 10 days of moxifloxacin.
   - repeat CBC, sputum cx
   - hold off on abx
   .
   # Recent [**Last Name (un) **]: Cr reportedly almost normalized after IVF
   .
   # Recently elevated LFTs: working diagnosis from OSH was shock liver.
   - repeat LFTs
   .
   # Possible UTI: diagnosed on urinalysis at OSH with urine cx ngtd.
   Already received 3 days of ceftriaxone.
   - f/u OSH cx
   - d/c abx
   .
   # Alcohol abuse:
   - CIWA with lorazepam
   - thiamine, folate, B12
   .
   # Diarrhea
   - check c diff
   # FEN: IVFs / replete lytes prn / TF
 will hold today given possible
   intervention
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  FULL
   # CONTACT: boyfriend [**Name (NI) **] [**Name (NI) 513**] [**Telephone/Fax (1) 514**], brother [**Name (NI) 509**] [**Telephone/Fax (1) 511**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-3-20**] 08:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2169-03-22 11:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 F with respiratory failure, likely due to airway obstruction from
   tracheobronchomalacia.
   24 Hour Events:
   no events.
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2169-3-21**] 12:15 PM
   Famotidine (Pepcid) - [**2169-3-21**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2169-3-21**] 08:00 PM
   Other medications:
   Prednisone 40, Seroquel 25 [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-3-22**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 47 (47 - 76) bpm
   BP: 110/51(65) {101/42(56) - 132/70(78)} mmHg
   RR: 12 (10 - 17) insp/min
   SpO2: 94%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  2,327 mL
                                                                  1,664 mL
   PO:
             TF:
             40 mL
   IVF:
                                                                  2,327 mL
                                                                  1,625 mL
   Blood products:
   Total out:
                                                                  2,665 mL
                                                                  1,475 mL
   Urine:
                                                                  2,665 mL
                                                                  1,375 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                   -338 mL
                                                                    189 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 423 (298 - 423) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 68
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 94%
   ABG: ///29/
   Ve: 5.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : R > L, Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, bowel sounds
   absent
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   130 K/uL
   167 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.4 mEq/L
   17 mg/dL
   109 mEq/L
   144 mEq/L
   29.7 %
   9.7 K/uL
        [image002.jpg]
                             [**2169-3-20**]  09:18 PM
                             [**2169-3-21**]  05:39 AM
                             [**2169-3-22**]  05:30 AM
   WBC
   13.0
   11.4
   9.7
   Hct
   29.6
   30.0
   29.7
   Plt
   125
   115
   130
   Cr
   1.2
   1.1
   1.1
   TropT
   0.06
   Glucose
   92
   101
   167
   Other labs: PT / PTT / INR:12.2/23.9/1.0, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:58/13, Alk Phos / T Bili:62/0.3,
   Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Imaging: KUB- no distension
   Microbiology: C diff negative
   Assessment and Plan
   57 F with respiratory failure, likely due to airway obstruction from
   tracheobronchomalacia.
   1. Resp failure d/t tracheobronchomalacia- also w/ poor gag per RT/ RN,
   underlying COPD
   -Keep on current vent settings while sedated, may resume CPAP when
   awake
   -IP consult (Dr. [**Last Name (STitle) 901**] as she will likely need placement of another
   stent --> planned for [**3-23**] as an add-on case
   -prn nebs for underlying COPD which appears stable for now. Taper
   steroids today, to prednisone 30 qd
   2. Hypernatremia- resolving
   -cont D5W repletion
   3. Agitated delirium- underlying EtOHism but out of the window for
   withdrawal
   -cont Seroquel [**Hospital1 **] and minimize sedatives
   4. Ileus- holding tube feeds, will place NGT to wall suction
   -LFTs, amylase & lipase checks
   -consider promotility [**Doctor Last Name **] if continued
   ICU Care
   Nutrition:
   Comments: npo given mild regurgitation
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2169-3-20**] 08:14 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 4052**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   57 yo women with severe COPD, TBM,  awaiting eval for stent.
   Patient stable overnight on vent.  Had some vomiting of feeds.
   On exam:  patient is ventilated and sedated, unresponsive.  Lungs:
   clear CV: reg, Abd: no BS. Ext no edema.
   A/P:
   COPD/TBM:  to get OR eval tomorrow
   Hypernatremia: improved.
   Ileus: holding TFs, if w/u negative
 try reglan.
   CC 30minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2169-3-22**] 13:11 ------

2169-03-23 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2169-3-22**] 09:00 PM
   -more bradycardic all day, EKG appears sinus bradys low 40s, SBP
   130-140-->switched propofol to fent/midaz, improved
   -observation:  needs central line re-sited or alternative access.
   Nursing unable to find PIV overnight, will try again in AM vs PICC.
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2169-3-22**] 04:59 PM
   Heparin Sodium (Prophylaxis) - [**2169-3-22**] 08:17 PM
   Famotidine (Pepcid) - [**2169-3-22**] 11:00 PM
   Midazolam (Versed) - [**2169-3-23**] 04:00 AM
   Fentanyl - [**2169-3-23**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-3-23**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 59 (40 - 80) bpm
   BP: 116/52(68) {110/51(65) - 149/68(86)} mmHg
   RR: 12 (12 - 16) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  2,948 mL
                                                                    681 mL
   PO:
             TF:
                                                                     40 mL
   IVF:
                                                                  2,909 mL
                                                                    681 mL
   Blood products:
   Total out:
                                                                  3,720 mL
                                                                    740 mL
   Urine:
                                                                  3,420 mL
                                                                    740 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -772 mL
                                                                    -59 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   Plateau: 14 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.49/35/36/28/3
   Ve: 5.2 L/min
   PaO2 / FiO2: 72
   Physical Examination
   GENERAL: intubated middle-aged woman, sedated
   HEENT:  ET tube in place
   CARDIAC:  RR, normal S1/S2, no m/r/g
   LUNG:  CTAB
   ABDOMEN:  soft, NT, ND
   EXT:  no c/c/e
   Labs / Radiology
   130 K/uL
   9.3 g/dL
   104 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.1 mEq/L
   13 mg/dL
   113 mEq/L
   147 mEq/L
   29.5 %
   8.2 K/uL
        [image002.jpg]
                             [**2169-3-20**]  09:18 PM
                             [**2169-3-21**]  05:39 AM
                             [**2169-3-22**]  05:30 AM
                             [**2169-3-22**]  05:24 PM
                             [**2169-3-22**]  05:34 PM
                             [**2169-3-23**]  03:07 AM
   WBC
   13.0
   11.4
   9.7
   8.2
   Hct
   29.6
   30.0
   29.7
   29.5
   Plt
   125
   115
   130
   130
   Cr
   1.2
   1.1
   1.1
   1.1
   0.9
   TropT
   0.06
   TCO2
   27
   Glucose
   92
   101
   167
   126
   104
   Other labs: PT / PTT / INR:12.2/25.9/1.0, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:196 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 .H/O ALCOHOL ABUSE
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 DELIRIUM / CONFUSION
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
   .
   # Severe tracheobronchial malacia: bronch on [**2169-3-17**] at OSH reportedly
   showed near complete airway collapse when ET tube was withdrawn; hence,
   ongoing intubation. Currently on CMV.
   - Y-stent placement on Thursday
   - maintain ventilatory support
   .
   # COPD: not wheezing currently, respiratory status stable. Arrived to
   [**Hospital1 5**] with methylpred 40 mg IV daily.
   - nebs prn
   - taper steroids to 30 mg daily
   .
   # Agitated delirium on admission: now sedated
   - hold quetiapine [**Hospital1 **]
   .
   #Hypernatremia: resolved after D5W.
   - 1L of D5
 today; check pm electrolytes
   .
   # Recent pneumonia: no fever on arrival, stable respiratory status,
   already s/p 10 days of moxifloxacin.
   .
   # Recent [**Last Name (un) **]: Cr reportedly almost normalized after IVF
   .
   # Recently elevated LFTs: working diagnosis from OSH was shock liver.
   - repeat LFTs
   .
   # Alcohol abuse:
   - CIWA with lorazepam
   - thiamine, folate, B12
   .
   # Diarrhea: C. diff negative
   .
   # FEN: IVFs / replete lytes prn / TF
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  FULL
   # CONTACT: boyfriend [**Name (NI) **] [**Name (NI) 513**] [**Telephone/Fax (1) 514**], brother [**Name (NI) 509**] [**Telephone/Fax (1) 511**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-3-20**] 08:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2169-03-23 11:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 F with respiratory failure, likely due to airway obstruction from
   tracheobronchomalacia.
   24 Hour Events:
   slow a fib overnight resolved w/ propofol discontinuation.
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2169-3-22**] 04:59 PM
   Heparin Sodium (Prophylaxis) - [**2169-3-22**] 08:17 PM
   Fentanyl - [**2169-3-23**] 07:52 AM
   Midazolam (Versed) - [**2169-3-23**] 08:00 AM
   Famotidine (Pepcid) - [**2169-3-23**] 09:30 AM
   Other medications:
   Seroquel (PO- held), Prednisone 30, famotidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-3-23**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 53 (40 - 80) bpm
   BP: 92/44(56) {92/44(56) - 149/69(86)} mmHg
   RR: 12 (12 - 16) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  2,950 mL
                                                                  1,411 mL
   PO:
             TF:
                                                                     40 mL
   IVF:
                                                                  2,910 mL
                                                                  1,411 mL
   Blood products:
   Total out:
                                                                  3,720 mL
                                                                    980 mL
   Urine:
                                                                  3,420 mL
                                                                    980 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -770 mL
                                                                    431 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 24 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/35/36/28/3
   Ve: 5.4 L/min
   PaO2 / FiO2: 72
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, bowel sounds absent
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   130 K/uL
   104 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.1 mEq/L
   13 mg/dL
   113 mEq/L
   147 mEq/L
   29.5 %
   8.2 K/uL
        [image002.jpg]
                             [**2169-3-20**]  09:18 PM
                             [**2169-3-21**]  05:39 AM
                             [**2169-3-22**]  05:30 AM
                             [**2169-3-22**]  05:24 PM
                             [**2169-3-22**]  05:34 PM
                             [**2169-3-23**]  03:07 AM
   WBC
   13.0
   11.4
   9.7
   8.2
   Hct
   29.6
   30.0
   29.7
   29.5
   Plt
   125
   115
   130
   130
   Cr
   1.2
   1.1
   1.1
   1.1
   0.9
   TropT
   0.06
   TCO2
   27
   Glucose
   92
   101
   167
   126
   104
   Other labs: PT / PTT / INR:12.2/25.9/1.0, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:196 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   ECG: ECG- brady, sinus arrhythmia
   Assessment and Plan
   57 F with respiratory failure, likely due to airway obstruction from
   tracheobronchomalacia.
   1. Resp failure d/t tracheobronchomalacia- also w/ poor gag per RT/ RN,
   underlying COPD
   -Keep on current vent settings while sedated, may resume CPAP when
   awake
   -IP consult (Dr. [**Last Name (STitle) 901**] as she will likely need placement of another
   stent --> planned for [**3-23**] as an add-on case
   -prn nebs for underlying COPD which appears stable for now. Taper
   steroids, to prednisone 20 qd tomorrow
   2. Hypernatremia- cont D5W repletion
   -recheck this pm
   3. Agitated delirium- underlying EtOHism but out of the window for
   withdrawal
   -cont Seroquel [**Hospital1 **] and minimize sedatives
   -attempt bolus benzo post-procedure today
   4. Ileus- holding tube feeds, little residuals though
   -consider promotility [**Doctor Last Name **] if continued
   ICU Care
   Nutrition:
   Comments: tube feeds held
   Glycemic Control:  Regular insulin sliding scale, Insulin infusion
   Lines:
   Multi Lumen - [**2169-3-20**] 08:14 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 4052**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   57 yo women with COPD, TBM, respiratory failure:  to go to OR today for
   stent.
   Exam:  arousable and follows commands.  Moves all four extremiteies.
   Lungs with diminished BS.
   A/P
   Respiratory failure:  COPD and TBM.  Will wean after stent placement.
   Hypernatremia:  not getting enough free water.  Replete free water.
   Agitated delirium:  improved today.
   CC 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2169-3-23**] 15:40 ------

2169-03-24 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2169-3-23**] 03:03 PM
   To OR for stent placement
 OR RECEIVED - At [**2169-3-23**] 04:30 PM
   - Y-stent placed
   - PICC being placed at bedside
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2169-3-23**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2169-3-23**] 08:00 PM
   Midazolam (Versed) - [**2169-3-24**] 01:00 AM
   Fentanyl - [**2169-3-24**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-3-24**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 48 (48 - 86) bpm
   BP: 144/61(78) {92/44(56) - 146/78(84)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  3,042 mL
                                                                    501 mL
   PO:
             TF:
   IVF:
                                                                  2,892 mL
                                                                    501 mL
   Blood products:
   Total out:
                                                                  2,265 mL
                                                                  1,250 mL
   Urine:
                                                                  2,265 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    777 mL
                                                                   -749 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 99%
   ABG: ///27/
   Ve: 4.5 L/min
   Physical Examination
   GENERAL: intubated middle-aged woman, sedated
   HEENT:  ET tube in place
   CARDIAC:  RR, normal S1/S2, no m/r/g
   LUNG:  CTAB
   ABDOMEN:  soft, NT, ND, no bowel sounds
   EXT:  no c/c/e
   Labs / Radiology
   135 K/uL
   9.1 g/dL
   146 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.5 mEq/L
   8 mg/dL
   109 mEq/L
   141 mEq/L
   29.3 %
   6.9 K/uL
        [image002.jpg]
                             [**2169-3-20**]  09:18 PM
                             [**2169-3-21**]  05:39 AM
                             [**2169-3-22**]  05:30 AM
                             [**2169-3-22**]  05:24 PM
                             [**2169-3-22**]  05:34 PM
                             [**2169-3-23**]  03:07 AM
                             [**2169-3-24**]  03:24 AM
   WBC
   13.0
   11.4
   9.7
   8.2
   6.9
   Hct
   29.6
   30.0
   29.7
   29.5
   29.3
   Plt
   125
   115
   130
   130
   135
   Cr
   1.2
   1.1
   1.1
   1.1
   0.9
   0.9
   TropT
   0.06
   TCO2
   27
   Glucose
   92
   101
   167
   126
   104
   146
   Other labs: PT / PTT / INR:12.2/25.9/1.0, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:196 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 .H/O ALCOHOL ABUSE
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 DELIRIUM / CONFUSION
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
   .
   # Severe tracheobronchial malacia: bronch on [**2169-3-17**] at OSH reportedly
   showed near complete airway collapse when ET tube was withdrawn; hence,
   ongoing intubation.
   - Y-stent placement without complications
   - maintain ventilatory support, wean as tolerated
   .
   # COPD: not wheezing currently, respiratory status stable. Arrived to
   [**Hospital1 5**] with methylpred 40 mg IV daily.
   - nebs prn
   - taper steroids to 30 mg daily, will decrease to 20mg on [**3-25**]
   .
   # Agitated delirium on admission: now sedated
   - hold quetiapine [**Hospital1 **]
   .
   # Alcohol abuse:
   - CIWA with lorazepam
   - thiamine, folate, B12
   .
   # Diarrhea: C. diff negative
   .
   # Hypernatremia:
   - D5W
   - pm lytes
   .
   # Tube feeds:
   .
   # FEN: IVFs / replete lytes prn / TF
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  FULL
   # CONTACT: boyfriend [**Name (NI) **] [**Name (NI) 513**] [**Telephone/Fax (1) 514**], brother [**Name (NI) 509**] [**Telephone/Fax (1) 511**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-3-20**] 08:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2169-03-24 09:42:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo women with respiratory failure, TBM, COPD.  s/p stent yesterday.
   24 Hour Events:
 OR SENT - At [**2169-3-23**] 03:03 PM
   To OR for stent placement
 OR RECEIVED - At [**2169-3-23**] 04:30 PM
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2169-3-24**] 07:53 AM
   Heparin Sodium (Prophylaxis) - [**2169-3-24**] 07:53 AM
   Fentanyl - [**2169-3-24**] 09:13 AM
   Midazolam (Versed) - [**2169-3-24**] 09:13 AM
   Haloperidol (Haldol) - [**2169-3-24**] 09:14 AM
   Other medications:
   hep s/q tid
   seroquel 25 mg po bid
   prednisone 30mg qd
   pepcid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-3-24**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 56 (48 - 86) bpm
   BP: 96/42(55) {92/42(55) - 146/78(84)} mmHg
   RR: 13 (12 - 20) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  3,042 mL
                                                                    675 mL
   PO:
             TF:
   IVF:
                                                                  2,892 mL
                                                                    600 mL
   Blood products:
   Total out:
                                                                  2,265 mL
                                                                  1,450 mL
   Urine:
                                                                  2,265 mL
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    777 mL
                                                                   -775 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 98%
   ABG: ///27/
   Ve: 5.1 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : mild expiratory,
   Diminished: )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   135 K/uL
   146 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.5 mEq/L
   8 mg/dL
   109 mEq/L
   141 mEq/L
   29.3 %
   6.9 K/uL
        [image002.jpg]
                             [**2169-3-20**]  09:18 PM
                             [**2169-3-21**]  05:39 AM
                             [**2169-3-22**]  05:30 AM
                             [**2169-3-22**]  05:24 PM
                             [**2169-3-22**]  05:34 PM
                             [**2169-3-23**]  03:07 AM
                             [**2169-3-24**]  03:24 AM
   WBC
   13.0
   11.4
   9.7
   8.2
   6.9
   Hct
   29.6
   30.0
   29.7
   29.5
   29.3
   Plt
   125
   115
   130
   130
   135
   Cr
   1.2
   1.1
   1.1
   1.1
   0.9
   0.9
   TropT
   0.06
   TCO2
   27
   Glucose
   92
   101
   167
   126
   104
   146
   Other labs: PT / PTT / INR:12.2/25.9/1.0, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:196 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Respiratory failure:  Is apneic with PSV trials.  Will wean down
   sedation, and try and start PSV.  Check ABG to make sure we are not
   over-ventilating her.
   delirium:  increase seroquel and wean down drips.  Use boluses as
   needed.
   COPD:  wean steroids.
   hypernatremia improved.
   ileus:  PO narcan.
   ICU Care
   Nutrition:
   Comments: Start TFs
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-3-20**] 08:14 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2169-03-25 08:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2169-3-24**] 09:30 AM
   placed in left basilic vein
 MULTI LUMEN - STOP [**2169-3-24**] 11:45 AM
 EKG - At [**2169-3-24**] 11:52 AM
   - Qt 507 on [**3-22**], Qt 397 [**3-24**]
   - PICC line placed
   - ABG: 7.45 / 40 / 70
   - Changed Fentanyl / Versed from gtt to boluses.
   - did not tolerate weaning well, sats 88%.
   - low threshold to treat for VAP
   - p.m. Na 149, started D5W at 125cc/hr x 1.5 liters overnight
   - desat to 84% at a nadir on 50% FiO2, AC 400x12.  Had been hypoxic
   earlier on [**5-17**].  CXR without change in position of stent or ET tube but
   with slightly lower lung volumes and pulm edema.  Ordered 10mg IV
   lasix.
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2169-3-24**] 09:13 AM
   Lorazepam (Ativan) - [**2169-3-24**] 02:58 PM
   Fentanyl - [**2169-3-24**] 03:30 PM
   Haloperidol (Haldol) - [**2169-3-24**] 05:30 PM
   Heparin Sodium (Prophylaxis) - [**2169-3-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-3-25**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 47 (43 - 103) bpm
   BP: 131/62(77) {90/44(55) - 131/78(82)} mmHg
   RR: 12 (12 - 24) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  1,703 mL
                                                                  1,501 mL
   PO:
             TF:
   IVF:
                                                                  1,448 mL
                                                                  1,471 mL
   Blood products:
   Total out:
                                                                  3,030 mL
                                                                  1,200 mL
   Urine:
                                                                  3,030 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,327 mL
                                                                    301 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: 7.41/48/120/29/5
   Ve: 4.8 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   133 K/uL
   9.3 g/dL
   110 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.5 mEq/L
   7 mg/dL
   109 mEq/L
   145 mEq/L
   29.2 %
   8.3 K/uL
        [image002.jpg]
                             [**2169-3-21**]  05:39 AM
                             [**2169-3-22**]  05:30 AM
                             [**2169-3-22**]  05:24 PM
                             [**2169-3-22**]  05:34 PM
                             [**2169-3-23**]  03:07 AM
                             [**2169-3-24**]  03:24 AM
                             [**2169-3-24**]  11:42 AM
                             [**2169-3-24**]  05:46 PM
                             [**2169-3-24**]  09:42 PM
                             [**2169-3-25**]  03:59 AM
   WBC
   11.4
   9.7
   8.2
   6.9
   8.3
   Hct
   30.0
   29.7
   29.5
   29.3
   29.2
   Plt
   115
   130
   130
   135
   133
   Cr
   1.1
   1.1
   1.1
   0.9
   0.9
   1.0
   TCO2
   27
   29
   31
   Glucose
   101
   167
   126
   104
   146
   96
   110
   Other labs: PT / PTT / INR:12.1/26.5/1.0, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:196 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 .H/O ALCOHOL ABUSE
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 DELIRIUM / CONFUSION
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
   # Severe tracheobronchial malacia: bronch on [**2169-3-17**] at OSH reportedly
   showed near complete airway collapse when ET tube was withdrawn; hence,
   ongoing intubation.
   - Y-stent placement without complications
   - maintain ventilatory support, wean as tolerated
   # COPD: not wheezing currently, respiratory status stable. Arrived to
   [**Hospital1 5**] with methylpred 40 mg IV daily.
   - nebs prn
   - taper steroids to 30 mg daily, will decrease to 20mg on [**3-25**]
   # Agitated delirium on admission: now sedated
   - hold quetiapine [**Hospital1 **]
   # Alcohol abuse:
   - CIWA with lorazepam
   - thiamine, folate, B12
   # Diarrhea: C. diff negative
   # Hypernatremia:
   - D5W
   - pm lytes
   # Tube feeds:
   # FEN: IVFs / replete lytes prn / TF
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  FULL
   # CONTACT: boyfriend [**Name (NI) **] [**Name (NI) 513**] [**Telephone/Fax (1) 514**], brother [**Name (NI) 509**] [**Telephone/Fax (1) 511**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2169-3-24**] 09:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2169-03-26 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2169-3-25**] 04:15 PM
   - changed fentanyl/versed gtt to propofol gtt for better control of
   agitation
   - gave an additional 5 mg lasix, 2L net negative, creatinine and Na
   both up
   - started theophylline as adjuvant therapy for COPD
   - didn't tolerate PSV, back on AC, weaned PEEP down from 10 to 8
   - very tenacious secretions, sending cx (note: pt with hx removal of
   stent [**2-14**] tenacious secretions)
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 42.5 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2169-3-25**] 12:00 PM
   Haloperidol (Haldol) - [**2169-3-25**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2169-3-25**] 09:02 PM
   Famotidine (Pepcid) - [**2169-3-25**] 09:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-3-26**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 62 (42 - 84) bpm
   BP: 90/46(57) {90/46(57) - 150/75(92)} mmHg
   RR: 12 (12 - 19) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  2,259 mL
                                                                    244 mL
   PO:
             TF:
   IVF:
                                                                  2,109 mL
                                                                    244 mL
   Blood products:
   Total out:
                                                                  4,730 mL
                                                                  1,010 mL
   Urine:
                                                                  4,730 mL
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,471 mL
                                                                   -766 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 35
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: ///29/
   Ve: 7.1 L/min
   Physical Examination
   GENERAL: intubated middle-aged woman, sedated
   HEENT:  ET tube in place, PERRL, following commands
   CARDIAC:  RR, normal S1/S2, no m/r/g
   LUNG:  CTAB
   ABDOMEN:  soft, NT, ND, no bowel sounds
   EXT:  no c/c/e
   Labs / Radiology
   146 K/uL
   9.3 g/dL
   87 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.6 mEq/L
   9 mg/dL
   113 mEq/L
   150 mEq/L
   29.5 %
   10.1 K/uL
        [image002.jpg]
                             [**2169-3-22**]  05:24 PM
                             [**2169-3-22**]  05:34 PM
                             [**2169-3-23**]  03:07 AM
                             [**2169-3-24**]  03:24 AM
                             [**2169-3-24**]  11:42 AM
                             [**2169-3-24**]  05:46 PM
                             [**2169-3-24**]  09:42 PM
                             [**2169-3-25**]  03:59 AM
                             [**2169-3-25**]  06:03 PM
                             [**2169-3-26**]  03:42 AM
   WBC
   8.2
   6.9
   8.3
   10.1
   Hct
   29.5
   29.3
   29.2
   29.5
   Plt
   130
   135
   133
   146
   Cr
   1.1
   0.9
   0.9
   1.0
   1.2
   1.2
   TCO2
   27
   29
   31
   Glucose
   126
   104
   146
   96
   110
   124
   87
   Other labs: PT / PTT / INR:12.1/26.5/1.0, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:196 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 .H/O ALCOHOL ABUSE
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 DELIRIUM / CONFUSION
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
   # Severe tracheobronchial malacia: bronch on [**2169-3-17**] at OSH reportedly
   showed near complete airway collapse when ET tube was withdrawn; hence,
   ongoing intubation.
   - Y-stent placement without complications
   - maintain ventilatory support, wean as tolerated
   # COPD: not wheezing currently, respiratory status stable. Arrived to
   [**Hospital1 5**] with methylpred 40 mg IV daily.
   - nebs prn
   - taper steroids to 30 mg daily, will decrease to 20mg on [**3-26**]
   # Agitated delirium on admission: now sedated
   - hold quetiapine [**Hospital1 **]
   # Alcohol abuse:
   - CIWA with lorazepam- discontinue
   - thiamine, folate, B12
 d/c thiamine and folate
   # Diarrhea: C. diff negative
   # Hypernatremia:
   - D5W
   - pm lytes
   # Tube feeds:
   # FEN: IVFs / replete lytes prn / TF
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  FULL
   # CONTACT: boyfriend [**Name (NI) **] [**Name (NI) 513**] [**Telephone/Fax (1) 514**], brother [**Name (NI) 509**] [**Telephone/Fax (1) 511**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2169-3-24**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2169-03-27 11:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57yo obese woman with COPD, [**Hospital **] transferred from OSH
   in the setting of acute resp failure from presumed pna, s/p Y stent
   here on  [**3-23**], persistent resp failure related to secretions and
   agitation.
   24 Hour Events:
                   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 47 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2169-3-27**] 08:06 AM
   Famotidine (Pepcid) - [**2169-3-27**] 08:14 AM
   Other medications:
   Colace, Seroquel 50 [**Hospital1 **], PO Narcan, MVI, Theophylline, Albuterol,
   Guafenisen, Prednisone 20qd, Peridex
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-3-27**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 71 (66 - 88) bpm
   BP: 128/61(77) {84/44(56) - 143/77(84)} mmHg
   RR: 13 (10 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,087 mL
                                                                  1,138 mL
   PO:
             TF:
                                                                    199 mL
   IVF:
                                                                    938 mL
                                                                    878 mL
   Blood products:
   Total out:
                                                                  2,595 mL
                                                                  1,315 mL
   Urine:
                                                                  2,580 mL
                                                                  1,315 mL
   NG:
                                                                     15 mL
   Stool:
   Drains:
   Balance:
                                                                   -508 mL
                                                                   -177 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 390 (310 - 450) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 6
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 296
   PIP: 18 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 5.1 L/min
   Physical Examination
   General Appearance: No(t) No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Purposeful, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   148 K/uL
   79 mg/dL
   1.4 mg/dL
   30 mEq/L
   3.5 mEq/L
   9 mg/dL
   111 mEq/L
   151 mEq/L
   28.1 %
   8.6 K/uL
        [image002.jpg]
                             [**2169-3-23**]  03:07 AM
                             [**2169-3-24**]  03:24 AM
                             [**2169-3-24**]  11:42 AM
                             [**2169-3-24**]  05:46 PM
                             [**2169-3-24**]  09:42 PM
                             [**2169-3-25**]  03:59 AM
                             [**2169-3-25**]  06:03 PM
                             [**2169-3-26**]  03:42 AM
                             [**2169-3-26**]  05:49 PM
                             [**2169-3-27**]  04:22 AM
   WBC
   8.2
   6.9
   8.3
   10.1
   8.6
   Hct
   29.5
   29.3
   29.2
   29.5
   28.1
   Plt
   130
   135
   133
   146
   148
   Cr
   0.9
   0.9
   1.0
   1.2
   1.2
   1.3
   1.4
   TCO2
   29
   31
   Glucose
   104
   146
   96
   110
   124
   87
   103
   79
   Other labs: PT / PTT / INR:12.1/26.5/1.0, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:196 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR- bibasilar effusions w/ prob bibasilar atelectasis, low
   vols
   Microbiology: Sputum- mixed orgs, cx pending
   Assessment and Plan
   57yo obese woman with COPD, [**Hospital **] transferred from OSH
   in the setting of acute resp failure from presumed pna, s/p Y stent
   here on  [**3-23**], persistent resp failure related to secretions and
   agitation.
   1. Respiratory failure- underlying COPD, tracheobronchomalacia s/p Y
   stent [**3-23**]. Persistent resp failure likely multifactorial and related
   to diffuse airway malacia, underlying COPD, airway secretions related
   to stent, agitation. Day 21 of intubation
   -cont bronchodilators, prednisone wean, and theophylline for COPD
   -cont pulm toilet
   -plan for trach per Thoracic [**Doctor First Name **] on [**3-29**]
   2. Hypernatremia
   -check urine sodium
   -free H20 repletion (free H20 deficit ~2.5L)
   3. Agitation- on Seroquel and propofol
   -check TG level
   -daily wean
   ICU Care
   Nutrition:
   Comments: cont tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2169-3-24**] 09:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, remains on the ventilator with no new problems
   Tm:  99.4    Tc: 99.5   P: 70   BP: 125/50   Oxygen Saturation: 98%
   General: Awake, on mechanical ventilation
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Labs: reviewed and as above
   CXR: Hyperinflation and linear atelectasis at the bases
   Assessment:
   1)      Respiratory Faiure
 hypercarbic respiratory failure with
   tracheomalacia preventing safe extubation
   2)      COPD exacerbation
   3)      History of alcohol abuse
   Plan:
   1)      Continue to wean prednisone
   2)      Trach planned for Wednesday
   3)      Add free water for hypernatremia
   4)      Add seroquel for delerium
   5)      Monitor temperature/WBC/secretions for any signs of pneumonia
   Time Spent: 30 minutes, patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2169-3-27**] 19:27 ------

2169-03-31 05:47:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   --trach tomorrow with surgery and IP
   --briefly agitated, improved with propofol bolus
   History obtained from Medical records
   Patient unable to provide history: intubated
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2169-3-30**] 08:00 PM
   Cefipime - [**2169-3-31**] 05:39 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2169-3-30**] 08:43 AM
   Heparin Sodium (Prophylaxis) - [**2169-3-30**] 11:50 AM
   Fentanyl - [**2169-3-30**] 04:00 PM
   Propofol - [**2169-3-31**] 01:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-3-31**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.8
C (98.2
   HR: 68 (62 - 95) bpm
   BP: 104/49(62) {76/40(48) - 145/61(79)} mmHg
   RR: 12 (12 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.3 kg (admission): 80.8 kg
             Total In:
                                                                  3,139 mL
                                                                    550 mL
   PO:
             TF:
   IVF:
                                                                  2,899 mL
                                                                    430 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                    630 mL
   Urine:
                                                                  2,350 mL
                                                                    480 mL
   NG:
                                                                    300 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                    489 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 96%
   ABG: ///23/
   Ve: 6.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   173 K/uL
   9.4 g/dL
   109 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.2 mEq/L
   5 mg/dL
   110 mEq/L
   143 mEq/L
   29.9 %
   6.2 K/uL
        [image002.jpg]
                             [**2169-3-26**]  03:42 AM
                             [**2169-3-26**]  05:49 PM
                             [**2169-3-27**]  04:22 AM
                             [**2169-3-27**]  04:51 PM
                             [**2169-3-28**]  03:13 AM
                             [**2169-3-28**]  05:41 PM
                             [**2169-3-29**]  04:37 AM
                             [**2169-3-30**]  01:55 AM
                             [**2169-3-30**]  03:28 PM
                             [**2169-3-31**]  01:30 AM
   WBC
   10.1
   8.6
   8.3
   8.1
   6.5
   6.2
   Hct
   29.5
   28.1
   28.0
   27.3
   31.4
   29.9
   Plt
   146
   148
   130
   157
   148
   173
   Cr
   1.2
   1.3
   1.4
   1.4
   1.3
   1.3
   1.3
   1.2
   1.2
   1.1
   Glucose
   87
   103
   79
   129
   83
   122
   94
   83
   124
   109
   Other labs: PT / PTT / INR:12.0/23.0/1.0, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:196 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
   # Aspiration Pneumonitis vs HAP: Resp status stable. Remains afebrile
   with nl WBC ct. Sputum sample with oropharyngeal flora and yeast.
   -cont Cefepime and Vanco (8 day course; day 1 [**2169-3-28**])
   -send another sputum cx
   .
   # Severe tracheobronchial malacia: Plan for trach today.
   # Hypotension:  Resolved
   # Bradycardia: resolved; likely due to sedation
   - propofol decreased
   - cont to monitor
   # COPD: not wheezing currently
   - nebs prn
   - d/c prenisone
   # Agitated delirium on admission: Improved with standing Fentanyl
   - cont scheduled fentanyl boluses 25 mcg q4h
   - continue quetiapine 75 mg  [**Hospital1 **]
   # Hypernatremia: Improved with D5W.
   - continue D5W 100cc hr 2L/d
   - check pm lytes
   # Tube feeds: tube feeds were stopped in setting of emesis and plan for
   trach
   - restarted naloxone as high og residuals and emesis
   -hold TF now
   -start maint fluids
   -will need to discuss PEG after trach
   # FEN: IVFs / replete lytes prn / TF stopped for now
   # PPX:Famotidine, heparin SQ, bowel regimen
   # ACCESS: PIV  and PICC
   # CODE:  FULL
   # CONTACT: boyfriend [**Name (NI) **] [**Name (NI) 513**] [**Telephone/Fax (1) 514**], brother [**Name (NI) 509**] [**Telephone/Fax (1) 511**]
   # DISPO: ICU

2169-04-01 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2169-3-31**]:
   -Taken to the OR and found to be to high a risk for trach at this time.
   Plan to do trach on Monday with IP present and bypass.
   -Restarted tube feeds at low rate; if not tolerating TF will likely
   start TPN
   -Continued to have episodes of hypotension overnight with sedation, but
   severe agitation when propofol dose is decreased.
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2169-3-31**] 10:00 PM
   Cefipime - [**2169-4-1**] 06:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2169-3-31**] 08:00 PM
   Famotidine (Pepcid) - [**2169-3-31**] 08:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-1**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98.1
   HR: 58 (47 - 83) bpm
   BP: 97/46(58) {78/39(50) - 126/58(72)} mmHg
   RR: 14 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 72.2 kg (admission): 80.8 kg
             Total In:
                                                                  4,946 mL
                                                                  1,299 mL
   PO:
             TF:
             98 mL
   IVF:
                                                                  4,646 mL
                                                                    911 mL
   Blood products:
   Total out:
                                                                  2,580 mL
                                                                    960 mL
   Urine:
                                                                  2,430 mL
                                                                    960 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  2,366 mL
                                                                    339 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 100%
   ABG: ///22/
   Ve: 4.9 L/min
   Physical Examination
   Neuro: Agitated, follows commands
   HEENT: MMM
   NECK:JVP not elevated, several old scars from prior tracheostomy
   placement
   CV:s1/s2 present, no S3 or S4, MRG
   LUNGS: anteriorly CTA, no clear wheezes, on ventilator
   ABD: obese, soft, ntnd, + bs
   EXT: warm, dry, no edema, 2+ distal pulses
   GU: foley in place
   Access: L PICC line
   Tubes: ETT, OG tube
   Labs / Radiology
   138 K/uL
   8.7 g/dL
   116 mg/dL
   1.2 mg/dL
   22 mEq/L
   4.0 mEq/L
   5 mg/dL
   112 mEq/L
   143 mEq/L
   28.5 %
   5.3 K/uL
        [image002.jpg]
                             [**2169-3-27**]  04:22 AM
                             [**2169-3-27**]  04:51 PM
                             [**2169-3-28**]  03:13 AM
                             [**2169-3-28**]  05:41 PM
                             [**2169-3-29**]  04:37 AM
                             [**2169-3-30**]  01:55 AM
                             [**2169-3-30**]  03:28 PM
                             [**2169-3-31**]  01:30 AM
                             [**2169-3-31**]  06:46 PM
                             [**2169-4-1**]  03:56 AM
   WBC
   8.6
   8.3
   8.1
   6.5
   6.2
   5.3
   Hct
   28.1
   28.0
   27.3
   31.4
   29.9
   28.5
   Plt
   148
   130
   157
   148
   173
   138
   Cr
   1.4
   1.4
   1.3
   1.3
   1.3
   1.2
   1.2
   1.1
   1.2
   1.2
   Glucose
   79
   129
   83
   122
   94
   83
   124
   109
   98
   116
   Other labs: PT / PTT / INR:12.0/23.0/1.0, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:196 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERNATREMIA (HIGH SODIUM)
 ALTERATION IN NUTRITION
 .H/O ALCOHOL ABUSE
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 DELIRIUM / CONFUSION
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
   # Aspiration Pneumonitis vs HAP: Resp status stable. Remains afebrile
   with nl WBC ct. Sputum sample with oropharyngeal flora and yeast.  WBC
   count within normal limits.  Has remained afebrile for 48 hours.
   -cont Cefepime and Vanco (8 day course; day 1 [**2169-3-28**])
   -send another sputum cx
   -f/u cultures of bronchial washings
   .
   # Severe tracheobronchial malacia: Plan for trach on Monday or Tuesday
   with the assistance of IP and bypass.
   # Hypotension: intermittent; likely due to sedation
   - propofol decreased to 20 mcg
   - cont to monitor and bolus with fluids as needed.
   # COPD: not wheezing currently
   - nebs prn
   - d/c prenisone
   # Agitated delirium on admission: Improved with standing Fentanyl and
   seroquel but  continues to be a daily issue as sedation is limited by
   hypotension
   - cont scheduled fentanyl boluses 25 mcg q4h
   - continue quetiapine 75 mg  [**Hospital1 **]
   # Hypernatremia: Improved with D5W.
   - continue D5W 100cc hr 2L/d
   - check pm lytes
   # Tube feeds: restart TF at lower rates, if high residuals will plan
   for TPN tomorrow
   - restarted naloxone as high og residuals and emesis
   -hold TF now
   -continue  maint fluids
   -will need to discuss PEG after trach
   # FEN: IVFs / replete lytes prn / TF stopped for now
   # PPX:Famotidine, heparin SQ, bowel regimen
   # ACCESS: PIV  and PICC
   # CODE:  FULL
   # CONTACT: boyfriend [**Name (NI) **] [**Name (NI) 513**] [**Telephone/Fax (1) 514**], brother [**Name (NI) 509**] [**Telephone/Fax (1) 511**]
   # DISPO: ICU

2169-04-01 11:58:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57F with COPD, [**Hospital **] transferred from OSH in the
   setting of acute resp failure from presumed pna, s/p Y stent here on
   [**3-23**], persistent resp failure related to secretions and agitation. Plan
   for trach but awaiting for IP to return:
   24 Hour Events:
   - hypotension resolved
   -
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2169-3-31**] 10:00 PM
   Cefipime - [**2169-4-1**] 06:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2169-3-31**] 08:00 PM
   Famotidine (Pepcid) - [**2169-4-1**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2169-4-1**] 08:01 AM
   Other medications:
   pepcid, colace, mvi, albut inh, prop gtt at 20, fent prn, seroq, cef
   1q12, wellbutrin 75 [**Hospital1 **], narcan po q6h, vanco 1q24, sqh
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Integumentary (skin): No(t) Jaundice
   Endocrine: No(t) Hyperglycemia
   Psychiatric / Sleep: Agitated, Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2169-4-1**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.9
C (96.7
   HR: 61 (47 - 83) bpm
   BP: 84/48(56) {78/39(50) - 126/58(72)} mmHg
   RR: 17 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.2 kg (admission): 80.8 kg
             Total In:
                                                                  4,946 mL
                                                                  1,785 mL
   PO:
             TF:
             195 mL
   IVF:
                                                                  4,646 mL
                                                                  1,270 mL
   Blood products:
   Total out:
                                                                  2,580 mL
                                                                  1,540 mL
   Urine:
                                                                  2,430 mL
                                                                  1,540 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  2,366 mL
                                                                    245 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: ///22/
   Ve: 4.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Oriented (to): not, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   138 K/uL
   116 mg/dL
   1.2 mg/dL
   22 mEq/L
   4.0 mEq/L
   5 mg/dL
   112 mEq/L
   143 mEq/L
   28.5 %
   5.3 K/uL
        [image002.jpg]
                             [**2169-3-27**]  04:22 AM
                             [**2169-3-27**]  04:51 PM
                             [**2169-3-28**]  03:13 AM
                             [**2169-3-28**]  05:41 PM
                             [**2169-3-29**]  04:37 AM
                             [**2169-3-30**]  01:55 AM
                             [**2169-3-30**]  03:28 PM
                             [**2169-3-31**]  01:30 AM
                             [**2169-3-31**]  06:46 PM
                             [**2169-4-1**]  03:56 AM
   WBC
   8.6
   8.3
   8.1
   6.5
   6.2
   5.3
   Hct
   28.1
   28.0
   27.3
   31.4
   29.9
   28.5
   Plt
   148
   130
   157
   148
   173
   138
   Cr
   1.4
   1.4
   1.3
   1.3
   1.3
   1.2
   1.2
   1.1
   1.2
   1.2
   Glucose
   79
   129
   83
   122
   94
   83
   124
   109
   98
   116
   Other labs: PT / PTT / INR:12.0/23.0/1.0, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:196 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Imaging: cxr: small lung volumes, bilateral effusions,
   Microbiology: ngtd in sputum
   Assessment and Plan
   57F with COPD, [**Hospital **] transferred from OSH in the
   setting of acute resp failure from presumed pna, s/p Y stent here on
   [**3-23**], persistent resp failure related to secretions and agitation, and
   TBM. Plan for trach but awaiting for IP to return.
   Continuing supportive care at this time. Will continue to treat for
   VAP. She appears well enough to be placed back on pressure support. The
   current anti-delirium regimen appears to be working well.
   Given the delay in surgery, will restart the chemical dvt ppx.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2169-4-1**] 12:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2169-3-24**] 09:30 AM
   18 Gauge - [**2169-3-28**] 05:12 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2169-04-02 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   no events
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2169-3-31**] 10:00 PM
   Cefipime - [**2169-4-2**] 06:23 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2169-4-1**] 08:00 AM
   Propofol - [**2169-4-1**] 09:07 PM
   Heparin Sodium (Prophylaxis) - [**2169-4-2**] 12:00 AM
   Haloperidol (Haldol) - [**2169-4-2**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-2**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.2
C (98.9
   HR: 65 (61 - 114) bpm
   BP: 102/47(60) {84/20(39) - 154/70(84)} mmHg
   RR: 18 (14 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.2 kg (admission): 80.8 kg
             Total In:
                                                                  4,137 mL
                                                                  1,099 mL
   PO:
             TF:
                                                                    379 mL
                                                                     62 mL
   IVF:
                                                                  3,118 mL
                                                                    917 mL
   Blood products:
   Total out:
                                                                  3,810 mL
                                                                    420 mL
   Urine:
                                                                  3,510 mL
                                                                    420 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    327 mL
                                                                    679 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 261 (168 - 536) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 3.9 L/min
   Physical Examination
   Neuro: Agitated, follows commands
   HEENT: MMM
   NECK:JVP not elevated, several old scars from prior tracheostomy
   placement
   CV:s1/s2 present, no S3 or S4, MRG
   LUNGS: anteriorly CTA, no clear wheezes, on ventilator
   ABD: obese, soft, ntnd, + bs
   EXT: warm, dry, no edema, 2+ distal pulses
   GU: foley in place
   Access: L PICC line
   Tubes: ETT, OG tube
   Labs / Radiology
   169 K/uL
   9.1 g/dL
   148 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.6 mEq/L
   4 mg/dL
   114 mEq/L
   145 mEq/L
   29.9 %
   5.5 K/uL
        [image002.jpg]
                             [**2169-3-27**]  04:51 PM
                             [**2169-3-28**]  03:13 AM
                             [**2169-3-28**]  05:41 PM
                             [**2169-3-29**]  04:37 AM
                             [**2169-3-30**]  01:55 AM
                             [**2169-3-30**]  03:28 PM
                             [**2169-3-31**]  01:30 AM
                             [**2169-3-31**]  06:46 PM
                             [**2169-4-1**]  03:56 AM
                             [**2169-4-2**]  01:30 AM
   WBC
   8.3
   8.1
   6.5
   6.2
   5.3
   5.5
   Hct
   28.0
   27.3
   31.4
   29.9
   28.5
   29.9
   Plt
   130
   157
   148
   173
   138
   169
   Cr
   1.4
   1.3
   1.3
   1.3
   1.2
   1.2
   1.1
   1.2
   1.2
   1.1
   Glucose
   129
   83
   122
   94
   83
   124
   109
   98
   116
   148
   Other labs: PT / PTT / INR:12.0/23.0/1.0, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:196 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERNATREMIA (HIGH SODIUM)
 ALTERATION IN NUTRITION
 .H/O ALCOHOL ABUSE
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 DELIRIUM / CONFUSION
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
   # Aspiration Pneumonitis vs HAP: Resp status stable. Remains afebrile
   with nl WBC ct. Sputum sample with oropharyngeal flora and yeast.  WBC
   count within normal limits.  Has remained afebrile for 48 hours.
   -cont Cefepime and Vanco (8 day course; day 1 [**2169-3-28**])
   -send another sputum cx
   -f/u cultures of bronchial washings
   # Severe tracheobronchial malacia: Plan for trach on Monday or Tuesday
   with the assistance of IP and bypass.
   # Hypotension: intermittent; likely due to sedation
   - propofol decreased to 20 mcg
   - cont to monitor and bolus with fluids as needed.
   # COPD: not wheezing currently
   - nebs prn
   - d/c prenisone
   # Agitated delirium on admission: Improved with standing Fentanyl and
   seroquel but  continues to be a daily issue as sedation is limited by
   hypotension
   - cont scheduled fentanyl boluses 25 mcg q4h
   - continue quetiapine 75 mg  [**Hospital1 **]
   # Hypernatremia: Improved with D5W.
   - continue D5W 100cc hr 2L/d
   - check pm lytes
   # Tube feeds: restart TF at lower rates, if high residuals will plan
   for TPN tomorrow
   - restarted naloxone as high og residuals and emesis
   -hold TF now
   -continue  maint fluids
   -will need to discuss PEG after trach
    # FEN: IVFs / replete lytes prn / TF stopped for now
   # PPX:Famotidine, heparin SQ, bowel regimen
   # ACCESS: PIV  and PICC
   # CODE:  FULL
   # CONTACT: boyfriend [**Name (NI) **] [**Name (NI) 513**] [**Telephone/Fax (1) 514**], brother [**Name (NI) 509**] [**Telephone/Fax (1) 511**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2169-3-24**] 09:30 AM
   18 Gauge - [**2169-3-28**] 05:12 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2169-04-02 11:03:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57F with COPD and [**Hospital 12117**] transferred from [**State 507**] after being found
   unresponsive at home, respiratory failure, VAP, now awaiting trach:
   24 Hour Events:
   - more sputum this am
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2169-3-31**] 10:00 PM
   Cefipime - [**2169-4-2**] 06:23 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2169-4-1**] 09:07 PM
   Heparin Sodium (Prophylaxis) - [**2169-4-2**] 12:00 AM
   Haloperidol (Haldol) - [**2169-4-2**] 12:00 AM
   Fentanyl - [**2169-4-2**] 08:22 AM
   Other medications:
   pepcid, colace, mvi, albuterol, prop, fent q4hr, seroq, cef,
   wellbutrin, narcan po, sqh
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Psychiatric / Sleep: Agitated, Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2169-4-2**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.2
C (98.9
   HR: 67 (61 - 114) bpm
   BP: 107/57(69) {84/20(39) - 154/70(84)} mmHg
   RR: 14 (14 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.2 kg (admission): 80.8 kg
             Total In:
                                                                  4,137 mL
                                                                  1,545 mL
   PO:
             TF:
                                                                    379 mL
                                                                     62 mL
   IVF:
                                                                  3,118 mL
                                                                  1,332 mL
   Blood products:
   Total out:
                                                                  3,810 mL
                                                                    900 mL
   Urine:
                                                                  3,510 mL
                                                                    900 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    327 mL
                                                                    645 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 261 (168 - 536) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 5.7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   169 K/uL
   148 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.6 mEq/L
   4 mg/dL
   114 mEq/L
   145 mEq/L
   29.9 %
   5.5 K/uL
        [image002.jpg]
                             [**2169-3-27**]  04:51 PM
                             [**2169-3-28**]  03:13 AM
                             [**2169-3-28**]  05:41 PM
                             [**2169-3-29**]  04:37 AM
                             [**2169-3-30**]  01:55 AM
                             [**2169-3-30**]  03:28 PM
                             [**2169-3-31**]  01:30 AM
                             [**2169-3-31**]  06:46 PM
                             [**2169-4-1**]  03:56 AM
                             [**2169-4-2**]  01:30 AM
   WBC
   8.3
   8.1
   6.5
   6.2
   5.3
   5.5
   Hct
   28.0
   27.3
   31.4
   29.9
   28.5
   29.9
   Plt
   130
   157
   148
   173
   138
   169
   Cr
   1.4
   1.3
   1.3
   1.3
   1.2
   1.2
   1.1
   1.2
   1.2
   1.1
   Glucose
   129
   83
   122
   94
   83
   124
   109
   98
   116
   148
   Other labs: PT / PTT / INR:12.0/23.0/1.0, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:196 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Imaging: cxr: persistent opacities
   Microbiology: bronchial washings pending
   Assessment and Plan
   57F with COPD and [**Hospital 12117**] transferred from [**State 507**] after being found
   unresponsive at home, respiratory failure, VAP, now awaiting trach.
   She is being treated for VAP and we are adjusting vancomycin dosing
   based on levels. Awaiting bronchial wash culture results. Low grade
   temp elevation overnight
 will monitor and culture if needed.
   Plan for trach on Monday with bypass backup given severity of TBM.
   Today will adjust sedation from propofol back to Fentanyl prn and gtt.
   Overall, the anti-delirum treatment appears to be adequate.
   ICU Care
   Nutrition: NPO after MN
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2169-3-24**] 09:30 AM
   18 Gauge - [**2169-3-28**] 05:12 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill

2169-04-03 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --changed to fentanyl gtt to reduce rebound agitation following boluses
   --large mucus plug suctioned from trach
   --hypotensive to 80's at 0230, stopped fentanyl and midazolam, gave 1L
   bolus
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2169-4-2**] 11:52 AM
   Cefipime - [**2169-4-3**] 06:07 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2169-4-2**] 04:09 PM
   Famotidine (Pepcid) - [**2169-4-2**] 08:00 PM
   Midazolam (Versed) - [**2169-4-3**] 12:30 AM
   Fentanyl - [**2169-4-3**] 03:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-3**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.6
C (99.7
   HR: 72 (64 - 86) bpm
   BP: 93/42(54) {74/39(48) - 136/58(74)} mmHg
   RR: 14 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.2 kg (admission): 80.8 kg
             Total In:
                                                                  4,006 mL
                                                                  1,765 mL
   PO:
             TF:
                                                                    508 mL
   IVF:
                                                                  3,128 mL
                                                                  1,765 mL
   Blood products:
   Total out:
                                                                  1,516 mL
                                                                    483 mL
   Urine:
                                                                  1,516 mL
                                                                    483 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,490 mL
                                                                  1,282 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   Compliance: 37.4 cmH2O/mL
   SpO2: 100%
   ABG: ///23/
   Ve: 5.7 L/min
   Physical Examination
   Gen; Intubated, awake, unable to follow commands
   Lungs: anterior lung fields clear
   Heart: s1/s2 present, -mrg
   Abd:+bs, soft, nt
   Ext: no lower ext edema
   Labs / Radiology
   186 K/uL
   8.5 g/dL
   99 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.9 mEq/L
   6 mg/dL
   110 mEq/L
   142 mEq/L
   27.5 %
   5.9 K/uL
        [image002.jpg]
                             [**2169-3-28**]  03:13 AM
                             [**2169-3-28**]  05:41 PM
                             [**2169-3-29**]  04:37 AM
                             [**2169-3-30**]  01:55 AM
                             [**2169-3-30**]  03:28 PM
                             [**2169-3-31**]  01:30 AM
                             [**2169-3-31**]  06:46 PM
                             [**2169-4-1**]  03:56 AM
                             [**2169-4-2**]  01:30 AM
                             [**2169-4-3**]  03:50 AM
   WBC
   8.3
   8.1
   6.5
   6.2
   5.3
   5.5
   5.9
   Hct
   28.0
   27.3
   31.4
   29.9
   28.5
   29.9
   27.5
   Plt
   130
   157
   148
   173
   138
   169
   186
   Cr
   1.3
   1.3
   1.3
   1.2
   1.2
   1.1
   1.2
   1.2
   1.1
   1.1
   Glucose
   83
   122
   94
   83
   124
   109
   98
   116
   148
   99
   Other labs: PT / PTT / INR:12.8/24.4/1.1, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:196 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
   # Hypotension: Likely related to sedation as pressures improved when
   fentantyl and midazolam were stopped.
   .
   # HAP: Remains afebrile with normal WBC ct. Respiratory status stable.
   -f/u bronchial washings results
   -f/u sputum cx from [**4-2**]
   -cont Cefepime and Vanco (8 day course; day 1 [**2169-3-28**])
   .
   # Severe tracheobronchial malacia: Plan for trach today by surgery and
   IP with bypass.
   -holding TF and a.m. sc heparin
   .
   # COPD: no active issues
   - nebs prn
   .
   # Agitation:  Fentanyl gtt. Cont seroquel and bupropion
   .
   # Nutrition: Cont TF as tolerated. Make sure getting goal og 50cc/hr.
   Speak with nutrition.
   .
   # H/O Alcoholism: Cont daily thiamine and folic acid
   ICU Care
   Nutrition: TF, currently NPO in case of procedure
   Glycemic Control:
   Lines:
   PICC Line - [**2169-3-24**] 09:30 AM
   18 Gauge - [**2169-3-28**] 05:12 PM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, having some delerium
   Tm:  99.3    Tc: 99.7   P: 70   BP: 114/42   Oxygen Saturation: 97%
   Fio2
   General: Sedated, on mechanical ventilation
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Neuro: sedated, not clearly following commands
   Labs: reviewed and as above
   Assessment:
   1)      Respiratory Faiure
 hypercarbic respiratory failure with
   tracheomalacia
   2)      Pneumonia
   3)      COPD exacerbation
   4)      Delerium
   Plan:
   1)      Continue antibiotics for VAP
   2)      Trach today
   3)      Continue intravenous thiamine/folate -> tube feeds after
   procedure and if not tolerating, then will go to TPN
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2169-4-3**] 03:04 PM ------

2169-04-04 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Tracheomalacia
   24 Hour Events:
   -- Trach postponed to [**2169-4-4**]
   -- Tube feeds increased per nutrition recs on [**2169-4-3**]
   -- Temp 102.4 this am.
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2169-4-3**] 10:27 AM
   Cefipime - [**2169-4-4**] 06:19 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2169-4-3**] 03:54 PM
   Fentanyl - [**2169-4-3**] 06:35 PM
   Famotidine (Pepcid) - [**2169-4-3**] 08:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-4**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.3
   HR: 102 (68 - 140) bpm
   BP: 91/46(57) {91/40(29) - 157/85(103)} mmHg
   RR: 14 (14 - 28) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.2 kg (admission): 80.8 kg
             Total In:
                                                                  4,430 mL
                                                                    804 mL
   PO:
             TF:
                                                                     90 mL
                                                                      1 mL
   IVF:
                                                                  4,280 mL
                                                                    804 mL
   Blood products:
   Total out:
                                                                  2,583 mL
                                                                    630 mL
   Urine:
                                                                  2,583 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,847 mL
                                                                    174 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 333 (0 - 333) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   Plateau: 13 cmH2O
   Compliance: 80 cmH2O/mL
   SpO2: 93%
   ABG: ///24/
   Ve: 5.3 L/min
   Physical Examination
   Exam on return from OR:
   Gen: minimally responsive to verbal stimuli, no acute distress, trach
   and NG T in place
   Lungs: anterior lung fields clear
   Heart: s1/s2 present, -mrg
   Abd:+bs, soft, nt
   Ext: no lower ext edema
   Labs / Radiology
   199 K/uL
   10.0 g/dL
   120 mg/dL
   1.2 mg/dL
   24 mEq/L
   4.4 mEq/L
   6 mg/dL
   114 mEq/L
   147 mEq/L
   33.9 %
   9.7 K/uL
        [image002.jpg]
                             [**2169-3-28**]  05:41 PM
                             [**2169-3-29**]  04:37 AM
                             [**2169-3-30**]  01:55 AM
                             [**2169-3-30**]  03:28 PM
                             [**2169-3-31**]  01:30 AM
                             [**2169-3-31**]  06:46 PM
                             [**2169-4-1**]  03:56 AM
                             [**2169-4-2**]  01:30 AM
                             [**2169-4-3**]  03:50 AM
                             [**2169-4-4**]  04:37 AM
   WBC
   8.3
   8.1
   6.5
   6.2
   5.3
   5.5
   5.9
   9.7
   Hct
   28.0
   27.3
   31.4
   29.9
   28.5
   29.9
   27.5
   33.9
   Plt
   130
   157
   148
   173
   138
   169
   186
   199
   Cr
   1.3
   1.3
   1.2
   1.2
   1.1
   1.2
   1.2
   1.1
   1.1
   1.2
   Glucose
   122
   94
   83
   124
   109
   98
   116
   148
   99
   120
   Other labs: PT / PTT / INR:12.8/24.4/1.1, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:196 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERNATREMIA (HIGH SODIUM)
 ALTERATION IN NUTRITION
 .H/O ALCOHOL ABUSE
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 DELIRIUM / CONFUSION
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
   # Fever/Leukocytosis: Patient with fever 102.4 this morning and WBC
   count 5.9 -
 9.7.  Unclear etiology.  Temporal relationship to increase
   in tube feeds overnight may suggest aspiration.  CXR shows no evidence
   of new infiltrate or consolidation to suggest aspiration.  PICC line
   placed [**2169-3-24**] at [**Hospital1 5**] with no evidence of infection.  Loose stool
   persists unchanged.
   - acetaminophen prn
   - send blood/urine/sputum culture
   - send C. diff toxin
   - continue empiric VAP treatment as listed below
   .
   # VAP: Respiratory status stable.
   -f/u bronchial washings results
   -f/u sputum cx from [**4-2**]
   -cont Cefepime and Vanco (8 day course; day 1 [**2169-3-28**])
   .
   # Severe tracheobronchial malacia: Trach placed today by surgery and
   IP.  Patient tolerated procedure well.  Currently sedated.  Plan a
   trial of pressure support this afternoon with decreased sedation.
   - restart TF and SQH
   .
   # COPD: no active issues
   - nebs prn
   .
   # Agitation:  Cont seroquel and bupropion.  Transition fentanyl gtt to
   dilaudid boluses for pain control.
   .
   # Hypernatremia:  Dependent on D5W maintenance fluids.  Will try NGT
   free water boluses 100cc q4h and monitor lytes [**Hospital1 **].
   .
   # Nutrition: Cont TF at new goal as tolerated.  If any obstacle will
   pursue TPN.  Follow up any nutrition recs.
   .
   # H/O Alcoholism: Cont daily thiamine and folic acid in form of daily
   banana bags x 3
   ICU Care
   Nutrition: TF, currently NPO in case of procedure
   Glycemic Control:
   Lines:
   PICC Line - [**2169-3-24**] 09:30 AM
   18 Gauge - [**2169-3-28**] 05:12 PM
   Prophylaxis:
   DVT: Hep SC (hold prior to surgery)
   Stress ulcer:  famotidine
   VAP:  chlorhexidine washes
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now
   ------ Protected Section ------
   I have seen and examined the patient with the resident and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   Had a fever this morning.  No other new problems.
   T 102   P 108   RR 20  BP 100/50  Sat: 100%
   Gen: Intubated, sedated
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: no edema or cyanosis
   Assessment:
   1)       Respiratory Failure
   2)       Tracheomalacia
   Plan:
   1)       Trach today
   2)       PEG today
   3)       Panculture and continue antibiotics
   Time Spent: 25 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2169-4-4**] 17:43 ------

2169-04-05 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -s/p trach and PEG
   -attempted weaning sedation off, patient intermittently extremely
   agitated and required haldol 5mg IV without any effect, valium 10mg IV
   with immediate sedation, repeat 5mg IV valium in a.m. with effect
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2169-4-4**] 11:09 AM
   Cefipime - [**2169-4-5**] 06:48 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2169-4-4**] 03:00 PM
   Fentanyl - [**2169-4-4**] 03:05 PM
   Hydromorphone (Dilaudid) - [**2169-4-4**] 05:43 PM
   Haloperidol (Haldol) - [**2169-4-4**] 08:29 PM
   Diazepam (Valium) - [**2169-4-4**] 09:19 PM
   Famotidine (Pepcid) - [**2169-4-5**] 07:28 AM
   Heparin Sodium (Prophylaxis) - [**2169-4-5**] 07:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-5**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100.1
   HR: 115 (81 - 131) bpm
   BP: 139/81(93) {94/41(27) - 145/92(93)} mmHg
   RR: 17 (10 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74 kg (admission): 80.8 kg
             Total In:
                                                                  3,115 mL
                                                                  1,198 mL
   PO:
             TF:
                                                                     16 mL
                                                                     16 mL
   IVF:
                                                                  2,849 mL
                                                                    972 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                  1,090 mL
   Urine:
                                                                  1,885 mL
                                                                  1,090 mL
   NG:
                                                                     50 mL
   Stool:
                                                                     75 mL
   Drains:
   Balance:
                                                                  1,105 mL
                                                                    108 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 287 (287 - 749) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 100
   PIP: 15 cmH2O
   Plateau: 15 cmH2O
   Compliance: 57.1 cmH2O/mL
   SpO2: 97%
   ABG: 7.36/39/86.[**Numeric Identifier 253**]/23/-2
   Ve: 6.1 L/min
   PaO2 / FiO2: 174
   Physical Examination
   GEN: intermittent agitation, alert, following commands
   CARD: RRR, no m/r/g
   PULM: CTAB anteriorly
   ABD: soft, NT, ND, no masses, BS+
   EXT: WWP, no c/c/e
   neuro: following commands after repeated attempts, able to move all
   extremities, bilateral hyperreflexia of patellar tendons
   Labs / Radiology
   175 K/uL
   7.9 g/dL
   125 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.1 mEq/L
   5 mg/dL
   114 mEq/L
   143 mEq/L
   25.5 %
   6.1 K/uL
        [image002.jpg]
                             [**2169-3-31**]  01:30 AM
                             [**2169-3-31**]  06:46 PM
                             [**2169-4-1**]  03:56 AM
                             [**2169-4-2**]  01:30 AM
                             [**2169-4-3**]  03:50 AM
                             [**2169-4-4**]  04:37 AM
                             [**2169-4-4**]  08:00 AM
                             [**2169-4-4**]  08:04 AM
                             [**2169-4-4**]  09:27 AM
                             [**2169-4-5**]  03:49 AM
   WBC
   6.2
   5.3
   5.5
   5.9
   9.7
   8.2
   6.1
   Hct
   29.9
   28.5
   29.9
   27.5
   33.9
   27.7
   28
   25.5
   Plt
   173
   138
   169
   186
   199
   216
   175
   Cr
   1.1
   1.2
   1.2
   1.1
   1.1
   1.2
   1.1
   TCO2
   23
   23
   Glucose
   109
   98
   116
   148
   99
   120
   117
   125
   Other labs: PT / PTT / INR:13.3/25.4/1.1, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Fibrinogen:351 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.9
   g/dL, LDH:196 IU/L, Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 LEUKOCYTOSIS
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERNATREMIA (HIGH SODIUM)
 ALTERATION IN NUTRITION
 .H/O ALCOHOL ABUSE
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 DELIRIUM / CONFUSION
   =================
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
    # Fever/Leukocytosis: Afebrile. WBC ct normalized.
   -f/u blood/urine/sputum culture
   - continue empiric VAP
 vanc / cefepime  (14 day course; day 1
   [**2169-3-28**])
   # Severe tracheobronchial malacia: Trach placed by surgery and IP.
   Unable to have SBT this am due to agitation.
   - attempt another SBT today when calmer
   # Nutrition: s/p PEG yesterday. TF started this am through PEG.
   # Hypernatremia: 1 L D5W per day at 100cc/hr
   # COPD: no active issues
   - nebs prn
   # Agitation:  Cont seroquel and bupropion.
   -use haldol 5mg IV q6hrs, EKG for QTc
   -d/c seroquel in a.m.
   -MRI head today
   -EEG
   # Hypernatremia:  Dependent on D5W maintenance fluids.  Will try NGT
   free water boluses 100cc q4h and monitor lytes [**Hospital1 **].
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2169-4-5**] 06:48 AM 15 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2169-3-24**] 09:30 AM
   18 Gauge - [**2169-4-4**] 09:57 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I have seen and examined the patient and agree substantially with the
   assessment and plan as above with the following modifications/emphasis:
   Overnight, despite reduction in sedation and provision of haldol, her
   mental status remains poor
   Tm: 38.1  Tc 37  P 110  BP 139/81  RR 17  SpO2: 97%
   Gen: confused, questionable whether following commands
   Chest: CTA bilaterally
   Abd: soft NTND
   Ext: no edema
   Neuro: depressed mental status
   Labs
 reviewed and as above
   Assessment:
   1)       Tracheomalacia s/p trach
   2)       Delerium
   3)       Respiratory Failure
   Plan:
   1)       MRI to evaluate for any organic brain injury, EEG
   2)       Wean vent as tolerated
   3)       Continue antibiotics for pneumonia
   4)       Continue daily banana bag until nutritional status improves
   Time Spent: 30 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2169-4-5**] 20:22 ------

2169-04-06 11:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2169-4-5**] 04:01 PM
 MAGNETIC RESONANCE IMAGING - At [**2169-4-5**] 07:05 PM
   -after got meds desatted and found to have vomited. meds were suctioned
   out of trach--> went back on CMV as RR went up with aspiration event
   --started PPN given TF
   --went into afib with rvr, given total 20mg IV dilt and started on PO
   dilt. Unclear source. Started Hep gtt in case of PE
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2169-4-6**] 05:45 AM
   Vancomycin - [**2169-4-6**] 08:58 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2169-4-5**] 12:15 PM
   Propofol - [**2169-4-5**] 01:15 PM
   Hydromorphone (Dilaudid) - [**2169-4-5**] 03:27 PM
   Vecuronium - [**2169-4-5**] 06:10 PM
   Adenosine - [**2169-4-5**] 08:05 PM
   Diltiazem - [**2169-4-5**] 08:20 PM
   Heparin Sodium (Prophylaxis) - [**2169-4-6**] 12:00 AM
   Famotidine (Pepcid) - [**2169-4-6**] 08:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-6**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100
   HR: 79 (73 - 179) bpm
   BP: 105/53(64) {86/39(51) - 157/93(148)} mmHg
   RR: 17 (11 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 80.8 kg
             Total In:
                                                                  4,040 mL
                                                                  2,291 mL
   PO:
             TF:
                                                                     26 mL
   IVF:
                                                                  3,513 mL
                                                                  1,639 mL
   Blood products:
   Total out:
                                                                  3,815 mL
                                                                  1,235 mL
   Urine:
                                                                  3,815 mL
                                                                  1,235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    225 mL
                                                                  1,056 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (0 - 400) mL
   Vt (Spontaneous): 145 (145 - 475) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 19 cmH2O
   Plateau: 19 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 99%
   ABG: ///24/
   Ve: 5.4 L/min
   Physical Examination
   GEN: intermittent agitation, alert, following commands
   CARD: RRR, no m/r/g
   PULM: CTAB anteriorly
   ABD: soft, NT, ND, no masses, BS+
   EXT: WWP, no c/c/e
   neuro: responds to voice, withdraws all extremities to pain, bilateral
   hyperreflexia of patellar tendons
   Labs / Radiology
   168 K/uL
   7.3 g/dL
   136 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.8 mEq/L
   5 mg/dL
   112 mEq/L
   142 mEq/L
   23.5 %
   6.7 K/uL
        [image002.jpg]
                             [**2169-4-1**]  03:56 AM
                             [**2169-4-2**]  01:30 AM
                             [**2169-4-3**]  03:50 AM
                             [**2169-4-4**]  04:37 AM
                             [**2169-4-4**]  08:00 AM
                             [**2169-4-4**]  08:04 AM
                             [**2169-4-4**]  09:27 AM
                             [**2169-4-5**]  03:49 AM
                             [**2169-4-5**]  12:00 PM
                             [**2169-4-6**]  04:01 AM
   WBC
   5.3
   5.5
   5.9
   9.7
   8.2
   6.1
   6.7
   Hct
   28.5
   29.9
   27.5
   33.9
   27.7
   28
   25.5
   23.5
   Plt
   138
   169
   186
   199
   216
   175
   168
   Cr
   1.2
   1.1
   1.1
   1.2
   1.1
   1.0
   TCO2
   23
   23
   Glucose
   116
   148
   99
   120
   117
   125
   144
   136
   Other labs: PT / PTT / INR:14.1/31.6/1.2, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Fibrinogen:351 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.9
   g/dL, LDH:196 IU/L, Ca++:7.7 mg/dL, Mg++:1.5 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 LEUKOCYTOSIS
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERNATREMIA (HIGH SODIUM)
 ALTERATION IN NUTRITION
 .H/O ALCOHOL ABUSE
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 DELIRIUM / CONFUSION
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
   # Respiratory failure / Severe tracheobronchial malacia: Trach placed
   by surgery and IP.  Unable to have SBT this am due to agitation.
   -failed SBT today with RR 40
   -continue treatement for VAP
 vanc / cefepime  (14 day course; day 1
   [**2169-3-28**])
   -barriers to weaning are mainly mental status and weakness
   -obtain CTA of chest to evaluate for PE
   # Atrial fibrillation: heparin gtt
   -currently in sinus
   # Nutrition: continues to vomit with tube feeds
   -start TPN today
   # Hypernatremia: monitor while on TPN
   # COPD: no active issues
   - nebs prn
   # Agitation:  Cont seroquel and bupropion.
   -use haldol 5mg IV q6hrs, EKG for QTc
   -d/c seroquel in a.m.
   -MRI head today
   -EEG
   ICU Care
   Nutrition:
   TPN without Lipids - [**2169-4-5**] 11:00 PM 42 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2169-3-24**] 09:30 AM
   22 Gauge - [**2169-4-6**] 06:15 AM
   Prophylaxis:
   DVT: Boots, IV heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I have seen and examined the patient with the resident and agree with
   the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, had MRI and also had episode of atrial fibrillation
   requiring adenosine and then diltiazem to control.
   T 100  P 70  BP 100/50  RR 20  Sat 95%
   Gen: trach, sedated, confused
   HEENT: trach in place
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: left arm swelling
   Labs
 reviewed
   Assessment:
   1)       Respiratory Failure/Tracheomalacia s/p trach
   2)       Pneumonia
   3)       Left arm swelling
   4)       Mental Status change
   5)       Atrial fib with RVR
   Plan:
   1)       Review MRI, EEG -> temp spikes -> neuro
   2)       LP
   3)       LUE US -> clot
   4)       Continue to wean vent as tolerated
   5)       CT to R/O PE given new onset a. fib
   Time Spent: 30 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2169-4-6**] 08:06 PM ------

2169-04-07 08:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered Mental Status/ Respiratory Failure
   24 Hour Events:
 EEG - At [**2169-4-6**] 02:18 PM
 LUMBAR PUNCTURE - At [**2169-4-6**] 09:26 PM
 MULTI LUMEN - START [**2169-4-6**] 10:30 PM
 PICC LINE - STOP [**2169-4-7**] 12:03 AM
   placed in left basilic vein
   [**2169-4-6**]
   -- EEG found to have spikes consistent with temporal eliptiform
   activity
   -- ordered 24 hour EEG
   -- Neuro consult: recommended dilantin loading
   -- Dilantin load and started on maintainence
   -- underwent CTA to evaluate for PE (prelim negative for PE)
   -- underwent LUE ultrasound to evaluate LUE swelling (positive for
   extensive DVT surrounding PICC line)
   -- LP performed
   -- R subclavian line placed
   -- L PICC line removed
   -- tube feeds restarted
   -- standing haldol started
   -- sedation weaned off at 2 am
   -- continued TPN, antibiotics, heparin gtt,
   History obtained from Medical records
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2169-4-6**] 08:58 AM
   Cefipime - [**2169-4-6**] 08:00 PM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Dilantin - [**2169-4-6**] 05:22 PM
   Famotidine (Pepcid) - [**2169-4-6**] 08:00 PM
   Furosemide (Lasix) - [**2169-4-7**] 12:03 AM
   Haloperidol (Haldol) - [**2169-4-7**] 12:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-7**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.2
   HR: 91 (68 - 95) bpm
   BP: 136/58(76) {86/42(54) - 136/68(78)} mmHg
   RR: 25 (9 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  3,873 mL
                                                                    692 mL
   PO:
             TF:
   IVF:
                                                                  2,334 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                  2,495 mL
                                                                  1,390 mL
   Urine:
                                                                  2,495 mL
                                                                  1,390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,378 mL
                                                                   -698 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 321 (321 - 400) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 114
   PIP: 22 cmH2O
   Plateau: 12 cmH2O
   Compliance: 45.9 cmH2O/mL
   SpO2: 95%
   ABG: ///26/
   Ve: 6 L/min
   Physical Examination
   GEN: intermittent agitation, alert, following commands
   CARD: RRR, no m/r/g
   PULM: CTAB anteriorly
   ABD: soft, NT, ND, no masses, BS+
   EXT: WWP, no c/c/e
   Labs / Radiology
   191 K/uL
   7.7 g/dL
   148 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.7 mEq/L
   14 mg/dL
   111 mEq/L
   143 mEq/L
   24.6 %
   5.8 K/uL
        [image002.jpg]
                             [**2169-4-2**]  01:30 AM
                             [**2169-4-3**]  03:50 AM
                             [**2169-4-4**]  04:37 AM
                             [**2169-4-4**]  08:00 AM
                             [**2169-4-4**]  08:04 AM
                             [**2169-4-4**]  09:27 AM
                             [**2169-4-5**]  03:49 AM
                             [**2169-4-5**]  12:00 PM
                             [**2169-4-6**]  04:01 AM
                             [**2169-4-7**]  03:35 AM
   WBC
   5.5
   5.9
   9.7
   8.2
   6.1
   6.7
   5.8
   Hct
   29.9
   27.5
   33.9
   27.7
   28
   25.5
   23.5
   24.6
   Plt
   169
   186
   199
   [**Telephone/Fax (3) 12200**]
   191
   Cr
   1.1
   1.1
   1.2
   1.1
   1.0
   1.0
   TCO2
   23
   23
   Glucose
   148
   99
   120
   117
   125
   144
   136
   148
   Other labs: PT / PTT / INR:13.0/31.6/1.1, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Fibrinogen:351 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.9
   g/dL, LDH:196 IU/L, Ca++:7.9 mg/dL, Mg++:1.5 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 LEUKOCYTOSIS
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERNATREMIA (HIGH SODIUM)
 ALTERATION IN NUTRITION
 .H/O ALCOHOL ABUSE
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 DELIRIUM / CONFUSION
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
   # Respiratory failure / Severe tracheobronchial malacia: Trach placed
   by surgery and IP.  Difficulty with SBT due to mental status and
   deconditioning.
   - gentle diuresis
   -continue treatement for VAP
 vanc / cefepime  (14 day course; day 1
   [**2169-3-28**])
   -hold sedation (d/c propofol, fentanyl, seroquel)
   -CTA negative for PE but significantly diminished lung volumes
   # Altered Mental Status/Agitation: Patient with evidence of possible
   seizure activity on EEG yesterday.  Being monitored on 24 hour EEG
   today.   MRI without evidence of stroke, frank anoxic injury, or
   wernicke-korsakoff.  LP preliminarily negative for infection. Patient
   without agitation since discontinuing sedation at 2 am.
   - follow up EEG report
   - follow up neuro recs
   - follow up final LP viral cultures
   - start maintenance dilantin 100 mg po tid
   - discontinue fentanyl/propofol/seroquel
   - will start standing haldol if she becomes agitated
   # Atrial fibrillation: resolved with diltiazem 10 mg IV x2;
   -currently in sinus
   -does not require anticoagulation for Afib but will be anticoagulated
   for DVTs
   # Nutrition: No emesis overnight on tube feeds. Continue to titrate up
   tube feeds as tolerated.  Will discontinue reglan as all prior emesis
   is likely due to coughing rather than gastroparesis.
   -continue TPN until patient at goal TF
   # Hypernatremia: monitor while on TPN
   # COPD: no active issues
   - nebs prn
   ICU Care
   Nutrition:
   TPN without Lipids - [**2169-4-5**] 11:00 PM 42 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2169-3-24**] 09:30 AM
   22 Gauge - [**2169-4-6**] 06:15 AM
   Prophylaxis:
   DVT: Boots, IV heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I have seen and examined the patient with the resident and fellow and
   agree with the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, had central line place, LP done
   T 100  Tc 98  BP 111/95   RR 18  Sat 99%
   Gen: Lethargic
   Chest:  CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Labs reviewed and as above
   Assessment:
   1)       Mental Status Change: more lethargic this morning
   2)       Respiratory Failure
   3)       Upper Extremity DVT
   4)       Malnutrition
   Plan:
   1)       Continue antibiotics for pneumonia
   2)       Keep patient slightly negative
   3)       Heparin for DVT
   4)       Continue TPN/vitamins/thiamine -> try to advance tube feeds if
   possible
   5)       PT consult
   6)       Hold sedating medications and when starts to wake up, then
   will re-introduce haldol first
   Time Spent: 30 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2169-4-7**] 11:56 ------
   Will also continue EEG monitoring and Dilantin.  Begin discharge
   planning with goal of being discharged to rehab early next week.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2169-4-7**] 15:34 ------

2169-04-08 10:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2169-4-7**] 11:35 AM
   U/S of R arm.
   -neuro recs: dilantin level in a.m
   -pt w/ R arm twitching, event button on 24 EEG pressed
   -vanc level 20.6, current dosing 750mg IV q24 continued
   -responded well to 20mg IV lasix, did not reach I/O goal
   -RUE ultrasound with cephalic vein thrombosis
   -seroquel, haldol and reglan discontinued, patient very agitated
   overnight and haldol 5mg IV given without any effect, 5mg IV valium
   given with some effect
   -attempted on [**5-17**] x 2 hours, eventually RR up to 40 so switched back to
   [**12-17**]
   -switched cefepime to meropenem
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2169-4-7**] 08:27 AM
   Meropenem - [**2169-4-8**] 08:00 AM
   Vancomycin - [**2169-4-8**] 10:00 AM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2169-4-7**] 06:31 PM
   Famotidine (Pepcid) - [**2169-4-7**] 08:06 PM
   Haloperidol (Haldol) - [**2169-4-7**] 08:06 PM
   Diazepam (Valium) - [**2169-4-7**] 11:08 PM
   Pantoprazole (Protonix) - [**2169-4-8**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-8**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100.1
   HR: 108 (81 - 128) bpm
   BP: 127/59(75) {101/44(61) - 155/75(91)} mmHg
   RR: 24 (12 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  4,590 mL
                                                                  1,718 mL
   PO:
             TF:
                                                                    616 mL
                                                                     16 mL
   IVF:
                                                                    978 mL
                                                                    799 mL
   Blood products:
   Total out:
                                                                  4,240 mL
                                                                    825 mL
   Urine:
                                                                  4,240 mL
                                                                    825 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    350 mL
                                                                    893 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 513 (467 - 513) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 8.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   179 K/uL
   7.2 g/dL
   197 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.2 mEq/L
   22 mg/dL
   109 mEq/L
   145 mEq/L
   23.0 %
   4.9 K/uL
        [image002.jpg]
                             [**2169-4-3**]  03:50 AM
                             [**2169-4-4**]  04:37 AM
                             [**2169-4-4**]  08:00 AM
                             [**2169-4-4**]  08:04 AM
                             [**2169-4-4**]  09:27 AM
                             [**2169-4-5**]  03:49 AM
                             [**2169-4-5**]  12:00 PM
                             [**2169-4-6**]  04:01 AM
                             [**2169-4-7**]  03:35 AM
                             [**2169-4-8**]  02:37 AM
   WBC
   5.9
   9.7
   8.2
   6.1
   6.7
   5.8
   4.9
   Hct
   27.5
   33.9
   27.7
   28
   25.5
   23.5
   24.6
   23.0
   Plt
   186
   199
   216
   175
   168
   191
   179
   Cr
   1.1
   1.2
   1.1
   1.0
   1.0
   1.0
   TCO2
   23
   23
   Glucose
   99
   120
   117
   125
   144
   136
   148
   197
   Other labs: PT / PTT / INR:13.2/48.9/1.1, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Fibrinogen:351 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:196 IU/L, Ca++:7.9 mg/dL, Mg++:1.5 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 LEUKOCYTOSIS
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERNATREMIA (HIGH SODIUM)
 ALTERATION IN NUTRITION
 .H/O ALCOHOL ABUSE
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 DELIRIUM / CONFUSION
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
   # Respiratory failure / Severe tracheobronchial malacia: Trach placed
   by surgery and IP.  Difficulty with SBT due to mental status and
   deconditioning.
   - gentle diuresis
   -continue treatement for VAP
 vanc / cefepime  (14 day course; day 1
   [**2169-3-28**])
   -hold sedation (d/c propofol, fentanyl, seroquel)
   -CTA negative for PE but significantly diminished lung volumes
   # Altered Mental Status/Agitation: Patient with evidence of possible
   seizure activity on EEG yesterday.  Being monitored on 24 hour EEG
   today.   MRI without evidence of stroke, frank anoxic injury, or
   wernicke-korsakoff.  LP preliminarily negative for infection. Patient
   without agitation since discontinuing sedation at 2 am.
   - follow up EEG report
   - follow up neuro recs
   - follow up final LP viral cultures
   - start maintenance dilantin 100 mg po tid
   - discontinue fentanyl/propofol/seroquel
   - will start standing haldol if she becomes agitated
   # Atrial fibrillation: resolved with diltiazem 10 mg IV x2;
   -currently in sinus
   -does not require anticoagulation for Afib but will be anticoagulated
   for DVTs
   # Nutrition: No emesis overnight on tube feeds. Continue to titrate up
   tube feeds as tolerated.  Will discontinue reglan as all prior emesis
   is likely due to coughing rather than gastroparesis.
   -continue TPN until patient at goal TF
   # Hypernatremia: monitor while on TPN
   # COPD: no active issues
   - nebs prn
   ICU Care
   Nutrition:
   TPN without Lipids - [**2169-4-7**] 03:41 PM 71 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2169-04-09 11:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Neuro: Did not see further seizing on EEG, want PHT level in am
   Per radiology, R subclavian in SVC on CTA chest
   Started following commands
   Psych rec DC'ing Buproprion and changing haldol to 5-10mg Q2H:PRN and
   assessing needs
   On PSV for most of afternoon, began coughing and needed to be restarted
   on AC
   Rechecked PM Hct 23-->22.8, did not transfuse
   Desatted to 88-90
s. CXR looked unchanged. ABG looked good.
   Overnight went into fib 160
s-180
s. Got total 10mg IV Dilt with a
   temporary
   Got fentanyl and tachycardia broke
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2169-4-7**] 08:27 AM
   Vancomycin - [**2169-4-8**] 10:00 AM
   Meropenem - [**2169-4-9**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,750 units/hour
   Other ICU medications:
   Heparin Sodium - [**2169-4-8**] 12:10 PM
   Pantoprazole (Protonix) - [**2169-4-9**] 12:00 AM
   Haloperidol (Haldol) - [**2169-4-9**] 04:30 AM
   Diltiazem - [**2169-4-9**] 05:30 AM
   Fentanyl - [**2169-4-9**] 06:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-9**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.6
C (99.6
   HR: 92 (92 - 123) bpm
   BP: 128/53(69) {109/49(62) - 172/77(98)} mmHg
   RR: 15 (15 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  3,163 mL
                                                                  1,382 mL
   PO:
             TF:
                                                                     16 mL
   IVF:
                                                                  1,197 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                  2,355 mL
                                                                    935 mL
   Urine:
                                                                  2,355 mL
                                                                    935 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    808 mL
                                                                    447 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 442 (360 - 442) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.42/47/77/28/4
   Ve: 10.4 L/min
   PaO2 / FiO2: 128
   Physical Examination
   Gen: following commands,
   Lungs: CTAB
   Heart: s1/s2 present, -mrg
   Abd+BS, soft, NT
   Ext: no peripheral edema
   Labs / Radiology
   209 K/uL
   7.3 g/dL
   154 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.2 mEq/L
   22 mg/dL
   108 mEq/L
   145 mEq/L
   24.6 %
   6.3 K/uL
        [image002.jpg]
                             [**2169-4-4**]  08:04 AM
                             [**2169-4-4**]  09:27 AM
                             [**2169-4-5**]  03:49 AM
                             [**2169-4-5**]  12:00 PM
                             [**2169-4-6**]  04:01 AM
                             [**2169-4-7**]  03:35 AM
                             [**2169-4-8**]  02:37 AM
                             [**2169-4-8**]  05:34 PM
                             [**2169-4-9**]  04:59 AM
                             [**2169-4-9**]  06:32 AM
   WBC
   6.1
   6.7
   5.8
   4.9
   6.3
   Hct
   28
   25.5
   23.5
   24.6
   23.0
   22.8
   24.6
   Plt
   175
   168
   191
   179
   209
   Cr
   1.1
   1.0
   1.0
   1.0
   0.9
   TCO2
   23
   23
   32
   Glucose
   117
   125
   144
   136
   148
   197
   154
   Other labs: PT / PTT / INR:14.0/87.3/1.2, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Fibrinogen:351 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:196 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
   .
    # Respiratory failure / Severe tracheobronchial malacia:
   -Having significant  secretions with stent and intermittent cough
   leak
>Trouble shoot with IP,
   -continue treatement for VAP
 vanc / meropenem  (14 day course; day 1
   [**Date range (3) 12243**])
   -hold sedation to better assess MS and in hopes of eventual wean
   .
    #Agitated Delirium:
   -appreciate psych recs
   -haldol q2h:PRN
   -holding propofol sedation
   .
   # Sz Activity:
   -cont dilantin
   -f/u neuro recs
   -need to discuss prognosis with neuro
    .
   # Atrial fibrillation:
   -cont diltiazem
   -on IV heparin for DVT
   -hold off on coumadin in case IP doin g procedure
   .
    # DVT:
   -IV heparin
   # Nutrition:
   -continue TPN
   -TF have been held due to vomiting
   -Try low rate TF today to keep gut active
   .
    # COPD: no active issues
   - inhalers
   .
    # Anemia: stabely low at 24. transfuse for Hct <21
   ICU Care
   Nutrition:
   TPN without Lipids - [**2169-4-8**] 04:01 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  brother [**Name (NI) 509**]
   [**Name (NI) 156**] status: Full code
   Disposition: ICU

2169-04-10 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered Mental Status
   24 Hour Events:
   [**2169-4-9**]
   --Per psych recs started standing haldol 5 mg IV qhs and continued prn
   haldol 2 mg IV tid/[**Hospital1 **]; encourage normal sleep/wake cycle
   --Dilantin level therapeutic
   --continue heparin gtt; will transition to coumadin if no plans for
   future IP procedures
   --meeting with patient's brother/HCP [**Doctor First Name 509**]
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2169-4-7**] 08:27 AM
   Vancomycin - [**2169-4-8**] 10:00 AM
   Meropenem - [**2169-4-9**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,750 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-4-9**] 12:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-10**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.7
C (99.8
   HR: 81 (81 - 111) bpm
   BP: 107/50(63) {107/48(62) - 169/73(93)} mmHg
   RR: 22 (11 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  2,946 mL
                                                                    947 mL
   PO:
             TF:
                                                                     75 mL
                                                                     70 mL
   IVF:
                                                                    815 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                    620 mL
   Urine:
                                                                  2,175 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    771 mL
                                                                    327 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 461 (351 - 649) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 3.9 L/min
   Physical Examination
   Gen: following commands,
   Lungs: CTAB
   Heart: s1/s2 present, -mrg
   Abd+BS, soft, NT
   Ext: no peripheral edema
   Labs / Radiology
   246 K/uL
   7.4 g/dL
   99 mg/dL
   0.9 mg/dL
   29 mEq/L
   5.1 mEq/L
   28 mg/dL
   105 mEq/L
   140 mEq/L
   23.6 %
   8.4 K/uL
        [image002.jpg]
                             [**2169-4-4**]  09:27 AM
                             [**2169-4-5**]  03:49 AM
                             [**2169-4-5**]  12:00 PM
                             [**2169-4-6**]  04:01 AM
                             [**2169-4-7**]  03:35 AM
                             [**2169-4-8**]  02:37 AM
                             [**2169-4-8**]  05:34 PM
                             [**2169-4-9**]  04:59 AM
                             [**2169-4-9**]  06:32 AM
                             [**2169-4-10**]  03:39 AM
   WBC
   6.1
   6.7
   5.8
   4.9
   6.3
   8.4
   Hct
   25.5
   23.5
   24.6
   23.0
   22.8
   24.6
   23.6
   Plt
   175
   168
   191
   179
   209
   246
   Cr
   1.1
   1.0
   1.0
   1.0
   0.9
   0.9
   TCO2
   23
   32
   Glucose
   125
   144
   136
   148
   197
   154
   99
   Other labs: PT / PTT / INR:13.9/93.9/1.2, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Fibrinogen:351 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:196 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 LEUKOCYTOSIS
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERNATREMIA (HIGH SODIUM)
 ALTERATION IN NUTRITION
 .H/O ALCOHOL ABUSE
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 DELIRIUM / CONFUSION
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
   .
    #Oral Secretions: Likely [**2-14**] stent irritation
   -consider glycopyrolite for secretions
   -speak with IP about whether there is anything positional for stent or
   trach that can be done
   .
    #Agitated Delirium: Cont to improve. Now tracking and following
   commands
   -appreciate psych recs
   -cont haldol q2h:PRN and 5mg QHs
   -holding propofol sedation
   -maintain sleep wake cycle
   .
   # Nutrition:  Tolerating very low rate of TF.
   -discuss making gastric tube post pyloric with either GI or IR
   -talk to nutrition about concentrating TF
   -continue TPN for now
   -titrate up TF to goal as tolerated
   .
   # Sz Activity:
   -cont dilantin which has been therapeutic
   -needs outpt f/u with neuro after this hospital course
   .
   # VAP: today is last day of ABX: Vanc/Meropenem
   -send another sputum cx
   .
   # Atrial fibrillation:
   -cont diltiazem
   -on IV heparin for DVT
   -hold off on coumadin in case IP doing procedure
   .
    # DVT:
   -change heparin gtt to lovenox (hold off on this until IP sees her in
   case any procedure needed)
   .
    # COPD: no active issues
   - cont inhalers
   .
    # Anemia: stabely low at 23.6  transfuse for Hct <21
   ICU Care
   Nutrition:
   TPN without Lipids - [**2169-4-8**] 04:01 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: PPI
   VAP:  HOB > 30 degrees, chlorhexadine
   Comments:
   Communication:  brother [**Name (NI) 509**]
   [**Name (NI) 156**] status: Full code
   Disposition: ICU

2169-04-10 12:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   mental status improving, psychiatry following
   family meeting this weekend, family aware of tenuous mental status
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-4-10**] 08:59 AM
   Vancomycin - [**2169-4-10**] 10:15 AM
   Infusions:
   Heparin Sodium - 1,750 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-4-9**] 12:04 PM
   Other medications:
   colace
   chlorhex
   dilt
   niacin
   hydrocortisone
   phenytoin
   meropenm
   haldol 5 qhs
   nebs
   atrovent
   albuterol 2 q 4
   haldol 2 mg IV TID
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-10**] 12:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.6
C (99.6
   HR: 84 (81 - 104) bpm
   BP: 127/59(83) {107/48(63) - 159/92(102)} mmHg
   RR: 26 (11 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  2,946 mL
                                                                  1,865 mL
   PO:
             TF:
                                                                     75 mL
                                                                    118 mL
   IVF:
                                                                    815 mL
                                                                    623 mL
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                  1,290 mL
   Urine:
                                                                  2,175 mL
                                                                  1,290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    771 mL
                                                                    575 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 734 (351 - 734) mL
   PS : 8 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: ///29/
   Ve: 10.1 L/min
   Physical Examination
   General: delirious, not responding to commands
   HEENT: PERRL, EOMI, normal appearing OP, tracheostomy in place,
   extensive oral secretions
   CV: S1/S2, rrr
   CHST: CTA anteriorly
   Abd: soft, nt, nd
   EXT: wwp, no c/c/e
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.4 g/dL
   246 K/uL
   99 mg/dL
   0.9 mg/dL
   29 mEq/L
   5.1 mEq/L
   28 mg/dL
   105 mEq/L
   140 mEq/L
   23.6 %
   8.4 K/uL
        [image002.jpg]
                             [**2169-4-4**]  09:27 AM
                             [**2169-4-5**]  03:49 AM
                             [**2169-4-5**]  12:00 PM
                             [**2169-4-6**]  04:01 AM
                             [**2169-4-7**]  03:35 AM
                             [**2169-4-8**]  02:37 AM
                             [**2169-4-8**]  05:34 PM
                             [**2169-4-9**]  04:59 AM
                             [**2169-4-9**]  06:32 AM
                             [**2169-4-10**]  03:39 AM
   WBC
   6.1
   6.7
   5.8
   4.9
   6.3
   8.4
   Hct
   25.5
   23.5
   24.6
   23.0
   22.8
   24.6
   23.6
   Plt
   175
   168
   191
   179
   209
   246
   Cr
   1.1
   1.0
   1.0
   1.0
   0.9
   0.9
   TCO2
   23
   32
   Glucose
   125
   144
   136
   148
   197
   154
   99
   Other labs: PT / PTT / INR:13.9/93.9/1.2, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Fibrinogen:351 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:196 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Imaging: cxr - persistent LLL opacity
   Assessment and Plan
   57 yo F depression, COPD, tracheobronchomalacia presents with
   respiratory failure now s/p y stent placement
   1. Mental status: some improvement on standing antipsychotics, likely
   anoxic brain injury c/b ICU psychosis and baseline psych disorders
    - cont physical therapy
    - maintain day/night cycle
    - appreciate Psych and neuro input
    - cont standing haldoll with prn as needed
   2. Nutrition: complicated by coughing and emesis
    - TPN
    - PICC consult now that she is anticoagulated (had prior clots at picc
   site)
    - will d/w nutrition regarding more concentrated tube feeds
    - will touch base with IR regarding advancing PEG
   3. Coughin/oral secretions:
    - will start glycopyrolate
    - cont aggressive pulmonary toilet
    - will d/w IP re changing peg to post-pyloric and secretions
    - bronchoscpy today to evaluate Ytube and secretions
   4. pneumonia:
    - slowly resolving
    - repeat sputum culture
   5. A/c:
    - change to lovenox and coumadin
   6. ? szr activity:
    - continue dilantin
    - neuro follow-up
   7. AFib: resolved, continue A/C for dvts, cont diltiazem until
   medically stable
   ICU Care
   Nutrition:
   Vivonex ([**1-14**]) - [**2169-4-9**] 04:30 PM 10 mL/hour
   TPN without Lipids - [**2169-4-9**] 05:00 PM 71 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU, evaluating for vent rehab
   Total time spent: 45 minutes
   Patient is critically ill

2169-04-11 08:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2169-4-10**] 02:30 Pm
 BAL FLUID CULTURE - At [**2169-4-10**] 02:50 PM
   --~200cc coffee ground emesis suctioned from mouth. Lavage through PEG
   was negative for additional coffee ground material.
   --GI consulted for coffee ground emesis, which she vomitted-
   recommended stopping heparin at 3 a.m. for an EGD and transfusing
   1uPRBC
   --IR converting PEG to G-J
   --Bronch: stent in place, no purulent material in distal airways
   --5mg IV haldol x 2 given hs for some agitation
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-4-10**] 08:59 AM
   Vancomycin - [**2169-4-10**] 10:15 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2169-4-10**] 06:15 PM
   Pantoprazole (Protonix) - [**2169-4-11**] 12:00 AM
   Haloperidol (Haldol) - [**2169-4-11**] 12:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-11**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 104 (82 - 109) bpm
   BP: 175/73(98) {127/55(76) - 176/92(106)} mmHg
   RR: 25 (15 - 36) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  3,333 mL
                                                                    798 mL
   PO:
             TF:
                                                                    125 mL
   IVF:
                                                                    770 mL
                                                                    106 mL
   Blood products:
                                                                    283 mL
   Total out:
                                                                  2,850 mL
                                                                  1,340 mL
   Urine:
                                                                  2,850 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    483 mL
                                                                   -542 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 239 (239 - 734) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   Plateau: 11 cmH2O
   SpO2: 91%
   ABG: ///32/
   Ve: 9.5 L/min
   Physical Examination
   Gen: following commands,
   Lungs: CTAB
   Heart: s1/s2 present, -mrg
   Abd+BS, soft, NT
   Ext: no peripheral edema
   Labs / Radiology
   290 K/uL
   8.9 g/dL
   119 mg/dL
   0.8 mg/dL
   32 mEq/L
   4.8 mEq/L
   27 mg/dL
   102 mEq/L
   140 mEq/L
   27.6 %
   8.3 K/uL
        [image002.jpg]
                             [**2169-4-5**]  03:49 AM
                             [**2169-4-5**]  12:00 PM
                             [**2169-4-6**]  04:01 AM
                             [**2169-4-7**]  03:35 AM
                             [**2169-4-8**]  02:37 AM
                             [**2169-4-8**]  05:34 PM
                             [**2169-4-9**]  04:59 AM
                             [**2169-4-9**]  06:32 AM
                             [**2169-4-10**]  03:39 AM
                             [**2169-4-11**]  03:03 AM
   WBC
   6.1
   6.7
   5.8
   4.9
   6.3
   8.4
   8.3
   Hct
   25.5
   23.5
   24.6
   23.0
   22.8
   24.6
   23.6
   27.6
   Plt
   175
   168
   191
   179
   209
   246
   290
   Cr
   1.1
   1.0
   1.0
   1.0
   0.9
   0.9
   0.8
   TCO2
   32
   Glucose
   125
   144
   136
   148
   197
   154
   99
   119
   Other labs: PT / PTT / INR:13.9/59.2/1.2, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Fibrinogen:351 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:196 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
    #Oral Secretions: Likely [**2-14**] stent irritation
   -consider glycopyrolite for secretions
   -speak with IP about whether there is anything positional for stent or
   trach that can be done
   #  Coffee-ground episode:   Single episode yesterday. Hct appropriately
   responded to transfusion 1 u pRBC.
   - Plan for EGD today.
   - Will continue to monitor.
   - maintain IV access and active T & S
   - continue ppi.
   .
    #Agitated Delirium: Cont to improve. Now tracking and following
   commands
   -appreciate psych recs
   -cont haldol q2h:PRN and 5mg QHs
   -holding propofol sedation
   -maintain sleep wake cycle
   # Nutrition:  Holding TF for EGD today.
   -gastric tube now post pyloric to minimize regurgitation from excessive
   coughing
   -talk to nutrition about concentrating TF
   -continue TPN for now
   -titrate up TF to goal as tolerated
   # Sz Activity:
   -cont dilantin which has been therapeutic
   -needs outpt f/u with neuro after this hospital course
   # VAP: today is last day of ABX: Vanc/Meropenem; s/p BAL [**2169-4-10**] which
   did not show thick bronchial secretions.  Will likely need prolonged
   vent weaning due to collapsible airways.
   -send another sputum cx
   # Atrial fibrillation:
   -cont diltiazem
   -on IV heparin for DVT; can switch to lovenox  after EGD
   -hold off on coumadin in case IP doing procedure
    # DVT:
   -change heparin gtt to lovenox (hold off on this until IP sees her in
   case any procedure needed)
    # COPD: no active issues
   - cont inhalers
    # Anemia: Hct responded appropriately to transfusion.  Continue to
   trend.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2169-4-10**] 07:01 PM 66.[**Telephone/Fax (3) 2588**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending EGD and advancement of TF will go to rehab
   tomorrow.

2169-04-11 12:02:00 Physician Attending Progress Note
Chief Complaint:  Shortness of breath
   HPI: Resp Failure, trachepbronchomalacia
   24 Hour Events:
   Bronchoscopy with minimal secretions
   Coffee ground emesis, GI consulted, endoscopy planned for this am
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-4-10**] 08:59 AM
   Vancomycin - [**2169-4-10**] 10:15 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2169-4-10**] 06:15 PM
   Pantoprazole (Protonix) - [**2169-4-11**] 12:00 AM
   Haloperidol (Haldol) - [**2169-4-11**] 12:34 AM
   Other medications:
   colace
   chlorhexadine
   guafenesin
   hydrocort topical dilantin
   riss
   folic acid
   haldol
   atrovent
   albuterol
   tylenol
   lactuloseprn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-11**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38
C (100.4
   HR: 108 (82 - 109) bpm
   BP: 179/71(99) {125/55(76) - 179/86(106)} mmHg
   RR: 21 (15 - 36) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  3,333 mL
                                                                  1,050 mL
   PO:
             TF:
                                                                    125 mL
   IVF:
                                                                    770 mL
                                                                    123 mL
   Blood products:
                                                                    283 mL
   Total out:
                                                                  2,850 mL
                                                                  1,780 mL
   Urine:
                                                                  2,850 mL
                                                                  1,780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    483 mL
                                                                   -730 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 286 (239 - 329) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 40
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 14 cmH2O
   Plateau: 11 cmH2O
   SpO2: 94%
   ABG: ///32/
   Ve: 12 L/min
   Physical Examination
   General Appearance: Well nourished, Anxious
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Non -purposeful,
   Tone: Increased
   Labs / Radiology
   8.9 g/dL
   290 K/uL
   119 mg/dL
   0.8 mg/dL
   32 mEq/L
   4.8 mEq/L
   27 mg/dL
   102 mEq/L
   140 mEq/L
   27.6 %
   8.3 K/uL
        [image002.jpg]
                             [**2169-4-5**]  03:49 AM
                             [**2169-4-5**]  12:00 PM
                             [**2169-4-6**]  04:01 AM
                             [**2169-4-7**]  03:35 AM
                             [**2169-4-8**]  02:37 AM
                             [**2169-4-8**]  05:34 PM
                             [**2169-4-9**]  04:59 AM
                             [**2169-4-9**]  06:32 AM
                             [**2169-4-10**]  03:39 AM
                             [**2169-4-11**]  03:03 AM
   WBC
   6.1
   6.7
   5.8
   4.9
   6.3
   8.4
   8.3
   Hct
   25.5
   23.5
   24.6
   23.0
   22.8
   24.6
   23.6
   27.6
   Plt
   175
   168
   191
   179
   209
   246
   290
   Cr
   1.1
   1.0
   1.0
   1.0
   0.9
   0.9
   0.8
   TCO2
   32
   Glucose
   125
   144
   136
   148
   197
   154
   99
   119
   Other labs: PT / PTT / INR:13.9/59.2/1.2, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Fibrinogen:351 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:196 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   57 yo F with COPD, bipolar, tracheobronchomalacia, here w pna/resp
   failure now s/p Y stent
   1. Respiratory failure: improving pneumonia with no secretions on
   bronch, but very distensible airways
    - cont wean vent as tolerated
    - start glycopyrrolate
   2. Mental status: improving, will provide haldol at night as needed
   3. Nutrition: tube feeds once EGD, and then d/c tpn
   4. UGIB: hct now stable, f/u GI w/u today, active t+s, [**Hospital1 **] PPI IV
   5. SZR activity: dilantin
   6. AFib: dilt 45 qid
   7. Upper extremity clot: heparin gtt once egd completed
   8. Access: cvl, PICC service deferring picc while clots present
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2169-4-10**] 07:01 PM 66.[**Telephone/Fax (3) 2588**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt, heparin on hold)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility when stable
   Total time spent: 45 minutes
   Patient is critically ill

2169-04-12 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   EGD showed: Erosive esophagitis,Fundic and antral gastritis
   Stopped Heparin gtt and started lovenox and warfarin
   Restarting tube feeds
   Tolerating a trach collar for about 5 hrs, switched back to vent o/n
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-4-10**] 08:59 AM
   Vancomycin - [**2169-4-10**] 10:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-4-11**] 12:42 PM
   Midazolam (Versed) - [**2169-4-11**] 02:45 PM
   Fentanyl - [**2169-4-11**] 02:45 PM
   Coumadin (Warfarin) - [**2169-4-11**] 06:00 PM
   Enoxaparin (Lovenox) - [**2169-4-11**] 06:45 PM
   Haloperidol (Haldol) - [**2169-4-11**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-12**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.8
C (98.3
   HR: 108 (94 - 111) bpm
   BP: 119/105(108) {119/57(74) - 179/125(128)} mmHg
   RR: 22 (16 - 37) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  2,376 mL
                                                                    565 mL
   PO:
             TF:
                                                                     70 mL
                                                                     69 mL
   IVF:
                                                                    195 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                  3,140 mL
                                                                    525 mL
   Urine:
                                                                  3,140 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -764 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 471 (286 - 473) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 160
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 9.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   312 K/uL
   9.3 g/dL
   123 mg/dL
   1.0 mg/dL
   29 mEq/L
   5.1 mEq/L
   33 mg/dL
   103 mEq/L
   141 mEq/L
   28.7 %
   9.0 K/uL
        [image002.jpg]
                             [**2169-4-5**]  12:00 PM
                             [**2169-4-6**]  04:01 AM
                             [**2169-4-7**]  03:35 AM
                             [**2169-4-8**]  02:37 AM
                             [**2169-4-8**]  05:34 PM
                             [**2169-4-9**]  04:59 AM
                             [**2169-4-9**]  06:32 AM
                             [**2169-4-10**]  03:39 AM
                             [**2169-4-11**]  03:03 AM
                             [**2169-4-12**]  03:07 AM
   WBC
   6.7
   5.8
   4.9
   6.3
   8.4
   8.3
   9.0
   Hct
   23.5
   24.6
   23.0
   22.8
   24.6
   23.6
   27.6
   28.7
   Plt
   168
   191
   179
   [**Telephone/Fax (3) 12306**]
   312
   Cr
   1.0
   1.0
   1.0
   0.9
   0.9
   0.8
   1.0
   TCO2
   32
   Glucose
   144
   136
   148
   197
   154
   99
   119
   123
   Other labs: PT / PTT / INR:12.6/30.4/1.1, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Fibrinogen:351 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:196 IU/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
   .
   # Gastritis/Esophagitis:   Seen on EGD yesterday. Hct stable
   -cont [**Hospital1 **] PPI
   -Monitor daily Hct in setting of anticoagulation
   # respiratory failure: attempting to wean from vent, attempt trach
   collar daily.
   -glycopyrrolate without good effect
   -mental status still poor but improving, continue haldol 2mg IV q2 hrs
   prn and 5mg IV qhs
   -has finished treatment for her VAP but has increased sputum
   production, send sputum gs/culture
   # Agitated Delirium: Cont to improve. Haldol as above.
   -attempt to adjust day / night scheduling
   # Nutrition:
   --Titrate TF to goal today
   --Cont TPN until TF at goal rate
   # Sz Activity: No further witnessed activity
   -cont dilantin which has been therapeutic
   -needs outpt f/u with neuro after this hospital course
   # Atrial fibrillation: Currently in sinus
   -cont diltiazem
   -on lovenox, warfarin started at 4mg daily
   .
   # DVT:
   -Cont warfarin with lovenox bridge
   .
   # COPD: no active issues
   - cont inhalers
   .
   # Anemia: Hct trending up
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2169-4-11**] 04:58 PM 66.[**Telephone/Fax (3) 2588**] mL/hour
   Vivonex (Full) - [**2169-4-11**] 05:00 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   I have seen and examined the patient and concur with Dr [**First Name (STitle) 568**]
   assessment above.
   Ms [**Known lastname 510**] was able to TM for nearly 5 hrs yesterday after completion of
   her EGD. This did not show signs of active bleeding. Oral secretions
   are still a problem but has not precluded wean.
   She is drowsy today and low grade febrile. We plan on restarting
   anticoagulation for UE clot and continuing high dose PPI for now.
   She will attempt to wean as tolerated provided she is more alert.
   Tube feeds to start today.
   CC time: 35 mins
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**], M.D.
   Pulmonary, Critical Care and Sleep Medicine
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2169-4-12**] 12:37 ------

2169-04-13 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered Mental Status
   24 Hour Events:
 SPUTUM CULTURE - At [**2169-4-12**] 03:02 PM
   Tube feeds advanced throughout day
   Febrile to 101.3 this am
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-4-10**] 08:59 AM
   Vancomycin - [**2169-4-10**] 10:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-4-12**] 12:00 PM
   Coumadin (Warfarin) - [**2169-4-12**] 04:30 PM
   Enoxaparin (Lovenox) - [**2169-4-12**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-13**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.2
C (98.9
   HR: 109 (91 - 109) bpm
   BP: 140/68(85) {100/54(67) - 155/100(115)} mmHg
   RR: 19 (13 - 35) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  2,612 mL
                                                                    939 mL
   PO:
             TF:
                                                                    591 mL
                                                                    369 mL
   IVF:
                                                                    120 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                  2,340 mL
                                                                    480 mL
   Urine:
                                                                  1,740 mL
                                                                    480 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                    272 mL
                                                                    459 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 378 (240 - 457) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 13
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 142
   PIP: 18 cmH2O
   SpO2: 97%
   ABG: ///26/
   Ve: 6.6 L/min
   Physical Examination
   Gen: following commands,
   Lungs: CTAB
   Heart: s1/s2 present, -mrg
   Abd+BS, soft, NT
   Ext: no peripheral edema
   Labs / Radiology
   296 K/uL
   9.8 g/dL
   120 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.7 mEq/L
   38 mg/dL
   104 mEq/L
   139 mEq/L
   30.4 %
   8.5 K/uL
        [image002.jpg]
                             [**2169-4-6**]  04:01 AM
                             [**2169-4-7**]  03:35 AM
                             [**2169-4-8**]  02:37 AM
                             [**2169-4-8**]  05:34 PM
                             [**2169-4-9**]  04:59 AM
                             [**2169-4-9**]  06:32 AM
                             [**2169-4-10**]  03:39 AM
                             [**2169-4-11**]  03:03 AM
                             [**2169-4-12**]  03:07 AM
                             [**2169-4-13**]  03:03 AM
   WBC
   6.7
   5.8
   4.9
   6.3
   8.4
   8.3
   9.0
   8.5
   Hct
   23.5
   24.6
   23.0
   22.8
   24.6
   23.6
   27.6
   28.7
   30.4
   Plt
   168
   191
   179
   [**Telephone/Fax (2) 12320**]96
   Cr
   1.0
   1.0
   1.0
   0.9
   0.9
   0.8
   1.0
   0.9
   TCO2
   32
   Glucose
   136
   148
   197
   154
   99
   119
   123
   120
   Other labs: PT / PTT / INR:13.2/30.4/1.1, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Fibrinogen:351 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:196 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 TRANSFERS, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 LEUKOCYTOSIS
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERNATREMIA (HIGH SODIUM)
 ALTERATION IN NUTRITION
 .H/O ALCOHOL ABUSE
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 DELIRIUM / CONFUSION
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
   .
   # Fever: Cxs remain negative. No clear source.
   --pancultured today
   --cxr today
   --f/u cxs
   --consider removing subclavian line and placing peripheral IVs
   .
   # Oral Secretions: Suctioned secretions appear to be saliva and bilious
   secretions
   -consider [**Doctor Last Name **] to reduce oral secretions
   .
   # Gastritis/Esophagitis:
   -cont [**Hospital1 **] PPI
   -Monitor daily Hct in setting of anticoagulation
   # Respiratory failure: Attempting to wean from vent, attempt trach
   collar daily.
   -mental status still poor but improving, continue haldol 2mg IV q2 hrs
   prn and 5mg IV qhs
   -management of secretions as per above
   .
   # Agitated Delirium: Comfortable, calm but inattentive, not following
   commands.
   -Cont Haldol qHS and PRN
   .
   # Nutrition:
   --Cont TF
   --Stop TPN when TF at goal
   .
   # Sz Activity: No further witnessed activity
   -cont dilantin which has been therapeutic
   -needs outpt f/u with neuro after this hospital course
   .
   # Atrial fibrillation: Currently in sinus
   -cont diltiazem
   -on lovenox, warfarin started at 4mg daily
   .
   # DVT:
   -Cont warfarin with lovenox bridge
   .
   # COPD: no active issues
   - cont inhalers
   .
   # Anemia: Hct trending up
   ICU Care
   Nutrition: TF and TPN. Will stop TPN when TF at goal
   TPN w/ Lipids - [**2169-4-12**] 02:58 PM 66.[**Telephone/Fax (3) 2588**] mL/hour
   Vivonex (Full) - [**2169-4-13**] 05:37 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   Prophylaxis:
   DVT:  lovenox
   Stress ulcer:  ppi
   VAP:  mouth washes, HOB > 30
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2169-04-13 10:56:00 Physician Attending Progress Note
Chief Complaint:  Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: COPD, Tracheal stenosis
   24 Hour Events:
   continues to have cough with oral secretions
   now febrile to 101
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-4-12**] 12:00 PM
   Coumadin (Warfarin) - [**2169-4-12**] 04:30 PM
   Enoxaparin (Lovenox) - [**2169-4-13**] 08:23 AM
   Other medications:
   guafenesin
   niacin
   phenytoin
   pantoprazole
   folic acid
   haldol 5 mg qhs
   dilt 45 qid
   coumadin
   lovenox
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-13**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.1
C (100.6
   HR: 94 (91 - 109) bpm
   BP: 125/65(79) {100/54(67) - 155/85(99)} mmHg
   RR: 36 (13 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  2,612 mL
                                                                  1,401 mL
   PO:
             TF:
                                                                    591 mL
                                                                    546 mL
   IVF:
                                                                    120 mL
                                                                     53 mL
   Blood products:
   Total out:
                                                                  2,340 mL
                                                                    690 mL
   Urine:
                                                                  1,740 mL
                                                                    690 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                    272 mL
                                                                    711 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 376 (240 - 457) mL
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 142
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: ///26/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   9.8 g/dL
   296 K/uL
   120 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.7 mEq/L
   38 mg/dL
   104 mEq/L
   139 mEq/L
   30.4 %
   8.5 K/uL
        [image002.jpg]
                             [**2169-4-6**]  04:01 AM
                             [**2169-4-7**]  03:35 AM
                             [**2169-4-8**]  02:37 AM
                             [**2169-4-8**]  05:34 PM
                             [**2169-4-9**]  04:59 AM
                             [**2169-4-9**]  06:32 AM
                             [**2169-4-10**]  03:39 AM
                             [**2169-4-11**]  03:03 AM
                             [**2169-4-12**]  03:07 AM
                             [**2169-4-13**]  03:03 AM
   WBC
   6.7
   5.8
   4.9
   6.3
   8.4
   8.3
   9.0
   8.5
   Hct
   23.5
   24.6
   23.0
   22.8
   24.6
   23.6
   27.6
   28.7
   30.4
   Plt
   168
   191
   179
   [**Telephone/Fax (2) 12320**]96
   Cr
   1.0
   1.0
   1.0
   0.9
   0.9
   0.8
   1.0
   0.9
   TCO2
   32
   Glucose
   136
   148
   197
   154
   99
   119
   123
   120
   Other labs: PT / PTT / INR:13.2/30.4/1.1, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Fibrinogen:351 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:196 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   57 yo F tracheobronchomalacia here w pna, prolonged vent wean
   1. Fevers:
    - d/c abx 48 hours prior
    - pancultured
    - will monitor R subclavian line, restart Vanco/ meropenem
    - cxr
    - will attempt PIVs with aim to d/c cvl, suspect she may need PAC for
   access
    - sit up in chair
   2. gastritis/esophagitis:
    - cont ppi, elevate hob, f.u hct
   3. respiratory failure:
    - cont wean vent
    - consider glycopyrrolate vs scopolamine
   4. Mental status:
    - somewhat improved
    - haldol qhs
   5. szrs:
    - cont dilantin
   6. Afib: sinus
   7. Upper extremity clots: cont a/c
   8. Dispo: rehab screening, PT, OT
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2169-4-12**] 02:58 PM 66.[**Telephone/Fax (3) 2588**] mL/hour
   Vivonex (Full) - [**2169-4-13**] 08:19 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2169-04-14 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2169-4-13**] 08:31 AM
 EKG - At [**2169-4-13**] 05:03 PM
 FEVER - 101.3
F - [**2169-4-13**] 08:00 AM
   --Advanced TF but continued vomiting, placed NGT and injected 300cc of
   cranberry juice into J tube and only bilious suctioning, minimal, from
   NGT so tube feeds restarted and advanced to goal
   -CXR w/ new RLL infiltrate (performed as pt had fever to 101.3)-
   meropenem restarted 500mg IV q6hrs for planned 10 days
   -PIV will not be attempted by IV team given bilateral UE clots
   -Reglan 10mg tid started
   -sinus CT performed to evalaute for source of fevers
   -scop patch started
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-4-14**] 04:02 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-4-13**] 11:40 AM
   Enoxaparin (Lovenox) - [**2169-4-13**] 08:27 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-14**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.8
C (100.1
   HR: 89 (89 - 112) bpm
   BP: 125/58(72) {107/55(68) - 154/85(101)} mmHg
   RR: 16 (13 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  3,593 mL
                                                                  1,161 mL
   PO:
             TF:
                                                                  1,022 mL
                                                                    493 mL
   IVF:
                                                                    330 mL
                                                                    140 mL
   Blood products:
   Total out:
                                                                  2,110 mL
                                                                  1,280 mL
   Urine:
                                                                  1,410 mL
                                                                    480 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,483 mL
                                                                   -119 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 504 (366 - 504) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: ///24/
   Ve: 9.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   279 K/uL
   8.8 g/dL
   121 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.9 mEq/L
   43 mg/dL
   104 mEq/L
   138 mEq/L
   29.0 %
   8.0 K/uL
        [image002.jpg]
                             [**2169-4-8**]  02:37 AM
                             [**2169-4-8**]  05:34 PM
                             [**2169-4-9**]  04:59 AM
                             [**2169-4-9**]  06:32 AM
                             [**2169-4-10**]  03:39 AM
                             [**2169-4-11**]  03:03 AM
                             [**2169-4-12**]  03:07 AM
                             [**2169-4-13**]  03:03 AM
                             [**2169-4-13**]  04:03 PM
                             [**2169-4-14**]  04:22 AM
   WBC
   4.9
   6.3
   8.4
   8.3
   9.0
   8.5
   8.2
   8.0
   Hct
   23.0
   22.8
   24.6
   23.6
   27.6
   28.7
   30.4
   30.7
   29.0
   Plt
   179
   209
   246
   290
   [**Telephone/Fax (2) 12341**]79
   Cr
   1.0
   0.9
   0.9
   0.8
   1.0
   0.9
   0.8
   0.9
   TCO2
   32
   Glucose
   197
   154
   99
   119
   123
   120
   143
   121
   Other labs: PT / PTT / INR:13.7/30.4/1.2, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Fibrinogen:351 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:196 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 TRANSFERS, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 LEUKOCYTOSIS
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERNATREMIA (HIGH SODIUM)
 ALTERATION IN NUTRITION
 .H/O ALCOHOL ABUSE
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 DELIRIUM / CONFUSION
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
   # Fever: treating for VAP with meropenem day 1 [**4-13**] plan for 10 day
   course
   -repeat sputum cx
   -f/u blood cultures, culture if spikes
   -attempt PIV with plan to pull subclavian and stop TPN if can place PIV
   # Vomiting / reflux: sit up in bed
   -continue reglan
   -continue scop patch
   # Gastritis/Esophagitis:
   -cont [**Hospital1 **] PPI
   -Monitor daily Hct in setting of anticoagulation
   # Respiratory failure: Attempting to wean from vent, attempt trach
   collar daily.
   -mental status still poor but improving, continue haldol 2mg IV q2 hrs
   prn and 5mg IV qhs
   -management of secretions as per above
   # Agitated Delirium: Comfortable, calm but inattentive, not following
   commands.
   -Cont Haldol qHS and PRN
   # Nutrition:
   --Cont TF- now at goal
   --Stop TPN today
   # Sz Activity: No further witnessed activity
   -cont dilantin which has been therapeutic
   -needs outpt f/u with neuro after this hospital course
   # Atrial fibrillation: Currently in sinus
   -cont diltiazem
   -on lovenox, warfarin started at 4mg daily- give additional dose of 2mg
   x 1 today
   # DVT:
   -Cont warfarin with lovenox bridge
   # COPD: no active issues
   - cont inhalers
   # Anemia: Hct trending up
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2169-4-13**] 01:15 PM 66.[**Telephone/Fax (3) 2588**] mL/hour
   Vivonex (Full) - [**2169-4-14**] 05:24 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2169-04-14 09:42:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: COPD, tracheo-bronchomalacia
   24 Hour Events:
   GI study with no evidence reflux of tube feeds, appears to be refluxing
   biliary drainage
   Sinus CT with evidence of improving sinus infection
   Meropenem started for RLL PNA/fevers
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-4-14**] 04:02 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-4-13**] 11:40 AM
   Enoxaparin (Lovenox) - [**2169-4-13**] 08:27 PM
   Other medications:
   guafenesin
   folic acid
   haldol 1 mg qhs
   cardizem
   lovenox 80 [**Hospital1 **]
   [**Last Name (un) **] 500
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-14**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100
   HR: 100 (85 - 112) bpm
   BP: 140/63(81) {105/55(68) - 154/85(101)} mmHg
   RR: 32 (13 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  3,593 mL
                                                                  1,366 mL
   PO:
             TF:
                                                                  1,022 mL
                                                                    589 mL
   IVF:
                                                                    330 mL
                                                                    147 mL
   Blood products:
   Total out:
                                                                  2,110 mL
                                                                  1,430 mL
   Urine:
                                                                  1,410 mL
                                                                    630 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,483 mL
                                                                    -64 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 524 (366 - 524) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 140
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, No(t) Oriented
   (to): , Movement: Purposeful, Paralyzed, Tone: Normal
   Labs / Radiology
   8.8 g/dL
   279 K/uL
   121 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.9 mEq/L
   43 mg/dL
   104 mEq/L
   138 mEq/L
   29.0 %
   8.0 K/uL
        [image002.jpg]
                             [**2169-4-8**]  02:37 AM
                             [**2169-4-8**]  05:34 PM
                             [**2169-4-9**]  04:59 AM
                             [**2169-4-9**]  06:32 AM
                             [**2169-4-10**]  03:39 AM
                             [**2169-4-11**]  03:03 AM
                             [**2169-4-12**]  03:07 AM
                             [**2169-4-13**]  03:03 AM
                             [**2169-4-13**]  04:03 PM
                             [**2169-4-14**]  04:22 AM
   WBC
   4.9
   6.3
   8.4
   8.3
   9.0
   8.5
   8.2
   8.0
   Hct
   23.0
   22.8
   24.6
   23.6
   27.6
   28.7
   30.4
   30.7
   29.0
   Plt
   179
   209
   246
   290
   [**Telephone/Fax (2) 12341**]79
   Cr
   1.0
   0.9
   0.9
   0.8
   1.0
   0.9
   0.8
   0.9
   TCO2
   32
   Glucose
   197
   154
   99
   119
   123
   120
   143
   121
   Other labs: PT / PTT / INR:13.7/30.4/1.2, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Fibrinogen:351 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:196 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   1. Fever:
    - presumed VAP
    - f/u culture data
    - cont [**Last Name (un) **] x 10 days
    - will likely need permanent access i.e portacath
   2. Oral secretions:
    - cont scopolamine
   3. Reflux:
    - appears to be biliary reflux
    - cont tube feeds
    - cont reglan
   4. Respiratory Failure:
    - barriers to wean have been mental status
    - will attempt trach mask trial
    - cont haldol
   5. Gastritis:
     - cont ppi
   6. Delirium: haldol
   7. Szr activity: cont dilantin
   8. Afib:
    - dilt
    - hold coumadin for possible intervention
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2169-4-13**] 01:15 PM 66.[**Telephone/Fax (3) 2588**] mL/hour
   Vivonex (Full) - [**2169-4-14**] 07:50 AM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2169-04-15 05:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 seen by speech and swallow who were concerned about weak swallow and
   cuff leak contributing to saliva dripping into airways.
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-4-14**] 10:08 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-4-14**] 12:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-15**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.5
C (99.5
   HR: 108 (83 - 108) bpm
   BP: 140/69(87) {80/48(62) - 150/69(87)} mmHg
   RR: 29 (15 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  3,368 mL
                                                                    396 mL
   PO:
             TF:
                                                                  1,414 mL
                                                                    368 mL
   IVF:
                                                                    530 mL
                                                                     28 mL
   Blood products:
   Total out:
                                                                  2,640 mL
                                                                    260 mL
   Urine:
                                                                  1,840 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    728 mL
                                                                    136 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 335 (329 - 692) mL
   PS : 8 cmH2O
   RR (Spontaneous): 31
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 140
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 11.9 L/min
   Physical Examination
   Gen: attentive, follows commands
   Lungs: CTAB with transmitted upper airway sounds
   Abd: +bs, soft, NT
   Ext: no LE edema
   Labs / Radiology
   331 K/uL
   9.1 g/dL
   90 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.6 mEq/L
   32 mg/dL
   109 mEq/L
   142 mEq/L
   30.0 %
   15.0 K/uL
        [image002.jpg]
                             [**2169-4-8**]  05:34 PM
                             [**2169-4-9**]  04:59 AM
                             [**2169-4-9**]  06:32 AM
                             [**2169-4-10**]  03:39 AM
                             [**2169-4-11**]  03:03 AM
                             [**2169-4-12**]  03:07 AM
                             [**2169-4-13**]  03:03 AM
                             [**2169-4-13**]  04:03 PM
                             [**2169-4-14**]  04:22 AM
                             [**2169-4-15**]  04:00 AM
   WBC
   6.3
   8.4
   8.3
   9.0
   8.5
   8.2
   8.0
   15.0
   Hct
   22.8
   24.6
   23.6
   27.6
   28.7
   30.4
   30.7
   29.0
   30.0
   Plt
   [**Telephone/Fax (3) 12364**]
   279
   331
   Cr
   0.9
   0.9
   0.8
   1.0
   0.9
   0.8
   0.9
   0.8
   TCO2
   32
   Glucose
   154
   99
   119
   123
   120
   143
   121
   90
   Other labs: PT / PTT / INR:12.9/32.2/1.1, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Fibrinogen:351 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:196 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
   .
   #Leukocytosis: No fevers. Treating for suspected VAP with meropenem day
   1 [**4-13**] plan for 10 day course. Cxs remain negative.
   -f/u blood cultures, culture if spikes
   -send another cdiff
   -send off blood cxs
   .
   # Choking on Oral Secretions: S & S eval indicated pharnygeal muscle
   weakness.
   --will need intensive rehab
   --continue scop patch
   --discuss ways of improving trach occlusion with IP, this may mean
   removing stent
   .
   # Respiratory failure: Will likely require long term weaning
   --continue haldol 2mg IV q2 hrs prn and 5mg IV qhs as needed for MS
   [**Name13 (STitle) 12365**] of secretions as per above
   .
   # Access: Consult gen [**Doctor First Name 91**] on Mon for porta cath placement
   .
   # Gastritis/Esophagitis:
   -cont [**Hospital1 **] PPI
   -Monitor daily Hct in setting of anticoagulation
   .
   # Agitated Delirium: Following commands.
   -Cont Haldol qHS and PRN
   .
   # Nutrition:
   --TF only during daytime
   --ask nutrition for cycling recs
   --Will need to cont TPN if cannot safely give TF
   .
   # Sz Activity:
   --check phenytoin level
   --cont dilantin which has been therapeutic
   --needs outpt f/u with neuro after this hospital course
   .
   # Atrial fibrillation: Currently in sinus
   --cont diltiazem
   --continue lovenox, hold warfarin for now in case of procedure
   .
   # DVT:
   -- lovenox
   --restart warfarin when no longer needing procedures
   .
    # COPD: no active issues
   - cont inhalers
   .
   # Anemia: Hct trending up
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2169-4-14**] 10:07 PM 65.[**Telephone/Fax (5) 12366**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   20 Gauge - [**2169-4-14**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2169-04-15 12:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   seen by speech pathology, and found to have poor swallow with weak
   effort.
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-4-15**] 08:37 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-4-14**] 12:15 PM
   Enoxaparin (Lovenox) - [**2169-4-15**] 07:05 AM
   Other medications:
   colace
   chlorhexadine
   niacin
   dilantin
   riss
   dilt
   lovenox
   meropenem 500 q6
   reglan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-15**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.9
   HR: 100 (83 - 108) bpm
   BP: 139/62(80) {80/48(62) - 164/69(87)} mmHg
   RR: 28 (14 - 33) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.5 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  3,468 mL
                                                                    982 mL
   PO:
             TF:
                                                                  1,414 mL
                                                                    403 mL
   IVF:
                                                                    530 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                  2,640 mL
                                                                  1,410 mL
   Urine:
                                                                  1,840 mL
                                                                    610 mL
   NG:
   Stool:
   800 mL
   Drains:
   Balance:
                                                                    828 mL
                                                                   -428 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 363 (329 - 692) mL
   PS : 10 cmH2O
   RR (Spontaneous): 31
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: ///25/
   Ve: 10.3 L/min
   Physical Examination
   General Appearance: Overweight / Obese, poor nutrition, aggitated
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   331 K/uL
   90 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.6 mEq/L
   32 mg/dL
   109 mEq/L
   142 mEq/L
   30.0 %
   15.0 K/uL
        [image002.jpg]
                             [**2169-4-8**]  05:34 PM
                             [**2169-4-9**]  04:59 AM
                             [**2169-4-9**]  06:32 AM
                             [**2169-4-10**]  03:39 AM
                             [**2169-4-11**]  03:03 AM
                             [**2169-4-12**]  03:07 AM
                             [**2169-4-13**]  03:03 AM
                             [**2169-4-13**]  04:03 PM
                             [**2169-4-14**]  04:22 AM
                             [**2169-4-15**]  04:00 AM
   WBC
   6.3
   8.4
   8.3
   9.0
   8.5
   8.2
   8.0
   15.0
   Hct
   22.8
   24.6
   23.6
   27.6
   28.7
   30.4
   30.7
   29.0
   30.0
   Plt
   [**Telephone/Fax (2) 12364**]
   279
   331
   Cr
   0.9
   0.9
   0.8
   1.0
   0.9
   0.8
   0.9
   0.8
   TCO2
   32
   Glucose
   154
   99
   119
   123
   120
   143
   121
   90
   Other labs: PT / PTT / INR:12.9/32.2/1.1, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Differential-Neuts:78.7 %, Lymph:16.6 %, Mono:3.7 %,
   Eos:0.7 %, Fibrinogen:351 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:196 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   57 yo F tracheobronchomalacia initially presented with respiratory
   failure, now s/p Y stent placement
   1. Leukocytosis
    - culture negative, no new fevers
    - cont [**Last Name (un) **] for likely VAP
    - f/u cdif
    - cxr
    - repeat blood cultures today
   2. respiratory failure: tolerating trach collar now, but she is unable
   to protect her lower respiratory tract from oral secretions
    - she may need removal of stent to achieve adequate cuff occlusion,
   will d/w IP service
    - cont trach mask
   3. Gastritis/esophagitis: stable hct, cont ppi
   4. Delirium: improving
   5. FEN: regurgitating stomach and oral secretions
    - cont tube feeds and tpn
    - tube feeds during day
    - elevate hob
    - reglan 10 tid
   6. Muscle weakness:
    - cont PT
   7. SZR activity:
    - cont dilantin and will check level
   8. AFib:
    - cont lovenox
   9. Access: will need permanent access, will consult general surgery for
   port-a-cath placement
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   20 Gauge - [**2169-4-14**] 11:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2169-04-16 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Tracheomalacia
   24 Hour Events:
   [**2169-4-15**]:
   TPN discontinued
   TF held at night given increased regurgitation at night
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-4-15**] 10:12 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2169-4-15**] 07:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-16**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 96 (83 - 114) bpm
   BP: 117/59(71) {104/43(61) - 156/100(104)} mmHg
   RR: 22 (14 - 40) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.5 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  1,733 mL
                                                                    214 mL
   PO:
             TF:
                                                                    493 mL
   IVF:
                                                                    520 mL
                                                                     34 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    310 mL
   Urine:
                                                                  1,500 mL
                                                                    260 mL
   NG:
                                                                     50 mL
                                                                     50 mL
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                   -617 mL
                                                                    -96 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 411 (343 - 411) mL
   PS : 10 cmH2O
   RR (Spontaneous): 11
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 45
   PIP: 18 cmH2O
   SpO2: 96%
   ABG: ///25/
   Ve: 4.5 L/min
   Physical Examination
   Gen: attentive, follows commands
   Lungs: CTAB with transmitted upper airway sounds
   Abd: +bs, soft, NT
   Ext: no LE edema
   Labs / Radiology
   290 K/uL
   8.5 g/dL
   93 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.5 mEq/L
   20 mg/dL
   113 mEq/L
   146 mEq/L
   26.9 %
   11.6 K/uL
        [image002.jpg]
                             [**2169-4-9**]  04:59 AM
                             [**2169-4-9**]  06:32 AM
                             [**2169-4-10**]  03:39 AM
                             [**2169-4-11**]  03:03 AM
                             [**2169-4-12**]  03:07 AM
                             [**2169-4-13**]  03:03 AM
                             [**2169-4-13**]  04:03 PM
                             [**2169-4-14**]  04:22 AM
                             [**2169-4-15**]  04:00 AM
                             [**2169-4-16**]  03:27 AM
   WBC
   6.3
   8.4
   8.3
   9.0
   8.5
   8.2
   8.0
   15.0
   11.6
   Hct
   24.6
   23.6
   27.6
   28.7
   30.4
   30.7
   29.0
   30.0
   26.9
   Plt
   [**Telephone/Fax (2) 12364**]
   279
   331
   290
   Cr
   0.9
   0.9
   0.8
   1.0
   0.9
   0.8
   0.9
   0.8
   0.7
   TCO2
   32
   Glucose
   154
   99
   119
   123
   120
   143
   121
   90
   93
   Other labs: PT / PTT / INR:14.6/32.2/1.3, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Differential-Neuts:78.7 %, Lymph:16.6 %, Mono:3.7 %,
   Eos:0.7 %, Fibrinogen:351 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:196 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 TACHYCARDIA, OTHER
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 TRANSFERS, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 LEUKOCYTOSIS
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERNATREMIA (HIGH SODIUM)
 ALTERATION IN NUTRITION
 .H/O ALCOHOL ABUSE
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 DELIRIUM / CONFUSION
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
   .
   #Leukocytosis: No fevers. Treating for suspected VAP with meropenem day
   1 [**4-13**] plan for 10 day course. Cxs remain negative.
   -f/u blood cultures, culture if spikes
   -send off blood cxs
   .
   # Choking on Oral Secretions: S & S eval indicated pharnygeal muscle
   weakness.
   --will need intensive rehab
   --continue scop patch
   --discuss ways of improving trach occlusion with IP, this may mean
   removing stent
   .
   # Respiratory failure: Will likely require long term weaning
   --continue haldol 2mg IV q2 hrs prn and 5mg IV qhs as needed for MS
   [**Name13 (STitle) 12365**] of secretions as per above
   .
   # Access: Consult gen [**Doctor First Name 91**] on Mon for porta cath placement
   .
   # Gastritis/Esophagitis:
   -cont [**Hospital1 **] PPI
   -Monitor daily Hct in setting of anticoagulation
   .
   # Agitated Delirium: Following commands.
   -Cont Haldol qHS and PRN
   .
   # Nutrition:
   --TF continuous 24 hours
   -- TPN discontinued.
   # Sz Activity:
   -- phenytoin level subtherapeutic
   --discuss continuation of dilantin with neuro and pharmacy
   --needs outpt f/u with neuro after this hospital course
   .
   # Atrial fibrillation: Currently in sinus
   --cont diltiazem
   --continue lovenox, hold warfarin for now in case of procedure
   .
   # DVT:
   -- lovenox
   --restart warfarin when no longer needing procedures
   .
    # COPD: no active issues
   - cont inhalers
   .
   # Anemia: Trending her hct.
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   20 Gauge - [**2169-4-14**] 11:00 AM
   Prophylaxis:
   DVT:  lovenox
   Stress ulcer:  ppi
   VAP:  mouth care, HOB > 30
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: rehab pending central line placement

2169-04-16 10:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hx of TBM, failed y stent then reinserted, trached with possible
   aspiration of oral secretions
   24 Hour Events:
   Tolerated trach mask for most of the day
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-4-16**] 10:05 AM
   Infusions:
   Other ICU medications:
   Other medications:
   colace
   chlorhexadine
   robitussin
   pantoprazole
   folic acid
   haldol
   meropenem
   reglan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-16**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 102 (87 - 114) bpm
   BP: 116/59(73) {104/43(59) - 152/100(104)} mmHg
   RR: 23 (17 - 40) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.5 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  1,733 mL
                                                                    613 mL
   PO:
             TF:
                                                                    493 mL
                                                                     61 mL
   IVF:
                                                                    520 mL
                                                                    153 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    505 mL
   Urine:
                                                                  1,500 mL
                                                                    455 mL
   NG:
                                                                     50 mL
                                                                     50 mL
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                   -617 mL
                                                                    108 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 0 (0 - 411) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 0 cmH2O
   FiO2: 70%
   RSBI: 45
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 4.5 L/min
   Physical Examination
   General Appearance: No(t) Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: PPP, subclavian line in place
   Respiratory / Chest: (Breath Sounds: Clear : , Rhonchorous: bilateral,
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   290 K/uL
   93 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.5 mEq/L
   20 mg/dL
   113 mEq/L
   146 mEq/L
   26.9 %
   11.6 K/uL
        [image002.jpg]
                             [**2169-4-9**]  04:59 AM
                             [**2169-4-9**]  06:32 AM
                             [**2169-4-10**]  03:39 AM
                             [**2169-4-11**]  03:03 AM
                             [**2169-4-12**]  03:07 AM
                             [**2169-4-13**]  03:03 AM
                             [**2169-4-13**]  04:03 PM
                             [**2169-4-14**]  04:22 AM
                             [**2169-4-15**]  04:00 AM
                             [**2169-4-16**]  03:27 AM
   WBC
   6.3
   8.4
   8.3
   9.0
   8.5
   8.2
   8.0
   15.0
   11.6
   Hct
   24.6
   23.6
   27.6
   28.7
   30.4
   30.7
   29.0
   30.0
   26.9
   Plt
   [**Telephone/Fax (2) 12364**]
   279
   331
   290
   Cr
   0.9
   0.9
   0.8
   1.0
   0.9
   0.8
   0.9
   0.8
   0.7
   TCO2
   32
   Glucose
   154
   99
   119
   123
   120
   143
   121
   90
   93
   Other labs: PT / PTT / INR:14.6/32.2/1.3, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Differential-Neuts:78.7 %, Lymph:16.6 %, Mono:3.7 %,
   Eos:0.7 %, Fibrinogen:351 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:196 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   57 yo F with obesity, tracheobronchomalacia, here with respiratory
   failure now s/p Y-stent placement
   1. Respiratory failure: TBM s/p Y stent, now with copious oral
   secretion and air leak around cuff
    - would consider changing out trach for [**Last Name (un) **] with water seal to
   achieve greater cuff occlusion
    - if above is unsuccessful, she may need stent removal
    - with TBM will likely have intermittent + pressure dependence but
   currently tolerating TCM
    - trial mucomyst and albuterol to mobilize thick lower respiratory
   tract secretions
   2. Leukocytosis and low-grade temps: likely [**2-14**] VAP with infiltrate on
   cxr
    - wbc decreased today
    - cont meropenem x 10 days
    - persistent aspiration of oral secretions could also contribute
   3. Mental status: much improved
    - cont haldol qhs
   4. Access: poor peripheral access
    - will d/w surgery re port-a-cath for permanent access given clots in
   upper extremities
   5. Upper extremity clots:
    - cont lovenox, eventually will start coumadin
   6. Oral secretions with poor swallow strength/coordination:
    - will need [**Hospital 4849**] rehab for this
   7. FEN: cont tube feeds, although she has gastric regurgitation, she is
   not regurgitating her post-pyloric feeds
   8. Szr activity: cont dilantin, ? need to check level
   9. Afib: cont dilt, lovenox
   10. Anemia: likely [**2-14**] gastritis as seen on egd, cont ppi and f/u hct
   11. gastritis/esophagitis: cont PPI
   12. Hyperglycemia: stable, no elevated f/s, will d/c RISS
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2169-4-15**] 03:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   20 Gauge - [**2169-4-14**] 11:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 min

2169-04-17 06:56:00 Physician Resident Progress Note
Chief Complaint: unresponsive
   24 Hour Events:
   -tolerated trach collar until 7 p.m. (x 12 hours) and then restarted on
   PSV as became tachypneic w/ low TV on trach collar
   -Per Neuro okay to discontinue dilantin as level is 1.0, no definitive
   evidence of seizures and mental status is clearer than previously was
   Subjective
   c/o intermittent sharp abdominal pains in the last day, +nausea
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-4-17**] 04:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2169-4-16**] 08:00 PM
   Pantoprazole (Protonix) - [**2169-4-16**] 11:45 PM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems: as above
   Flowsheet Data as of  [**2169-4-17**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.4
   HR: 115 (83 - 116) bpm
   BP: 145/58(77) {92/49(59) - 159/93(109)} mmHg
   RR: 22 (14 - 40) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.5 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  1,642 mL
                                                                    400 mL
   PO:
             TF:
                                                                    472 mL
                                                                    205 mL
   IVF:
                                                                    330 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  1,060 mL
                                                                    415 mL
   Urine:
                                                                    910 mL
                                                                    415 mL
   NG:
                                                                     50 mL
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    582 mL
                                                                    -15 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 269 (0 - 399) mL
   PS : 10 cmH2O
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 10 L/min
   Physical Examination
   General: Lying in bed, mildly tachypneic
   HEENT: Anicteric, MMM
   CV: Heart sounds difficult to hear given noisy breathing, but
   apparently regular no murmur
   Lungs: Coarse bilaterally, no wheezing
   Abd: Soft +bowel sounds no organomegaly, mild L sided abdominal
   tenderness without rigidity or guarding
   Extrem: Warm no edema palpable distal pulses. Pneumoboots in place.
   Lines: R subclavian nontender no erythema
   Labs / Radiology
   348 K/uL
   8.6 g/dL
   120 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.0 mEq/L
   16 mg/dL
   111 mEq/L
   147 mEq/L
   29.0 %
   12.7 K/uL
        [image002.jpg]
                             [**2169-4-9**]  06:32 AM
                             [**2169-4-10**]  03:39 AM
                             [**2169-4-11**]  03:03 AM
                             [**2169-4-12**]  03:07 AM
                             [**2169-4-13**]  03:03 AM
                             [**2169-4-13**]  04:03 PM
                             [**2169-4-14**]  04:22 AM
                             [**2169-4-15**]  04:00 AM
                             [**2169-4-16**]  03:27 AM
                             [**2169-4-17**]  03:37 AM
   WBC
   6.3
   8.4
   8.3
   9.0
   8.5
   8.2
   8.0
   15.0
   11.6
   12.7
   Hct
   24.6
   23.6
   27.6
   28.7
   30.4
   30.7
   29.0
   30.0
   26.9
   29.0
   Plt
   [**Telephone/Fax (3) 12364**]
   279
   331
   290
   348
   Cr
   0.9
   0.9
   0.8
   1.0
   0.9
   0.8
   0.9
   0.8
   0.7
   0.7
   Glucose
   154
   99
   119
   123
   120
   143
   121
   90
   93
   120
   Other labs: PT / PTT / INR:14.6/32.2/1.3, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:42/13, Alk Phos / T Bili:69/0.2, Amylase
   / Lipase:/17, Differential-Neuts:78.7 %, Lymph:16.6 %, Mono:3.7 %,
   Eos:0.7 %, Fibrinogen:351 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:196 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Micro
   [**4-15**] blood cx NGTD
   [**4-14**] sputum >10 epis, [**4-13**] sputum >10 epis
   [**4-10**] BAL yeast
   CXR [**4-15**]
   Persistent recent elevation of the right hemidiaphragm secondary to
   atelectasis in the right lower lobe could be due to an endobronchial
   mucous  plug, otherwise unchanged.
   Assessment and Plan
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and subsequently undergoing intubation.
   .
   # Leukocytosis:
   Only low grade temps in last 24h, WBC slightly up today.
   Treating for suspected VAP with meropenem day 1 [**4-13**] plan for 10 day
   course. Cxs remain negative.
   Other potential sources include line, cdiff, UTI
   -f/u blood cultures, culture if spikes
   -send off blood cxs
   -repeat CXR, repeat UA/UCX, stool for C diff
   .
   # Abdominal pain
   Belly soft.  Could be due to known gastritis/esophagitis
 no ulcers on
   recent EGD. Given broad spectrum abd would consider C diff, though she
   has not had large stool output.
   - check RUQ ultrasound given increased LFT
   - Add on LFTs, lipase
   - Checking C diff as above, urine studies
   .
   # Oropharyngeal dysphagia: S & S eval indicated pharnygeal muscle
   weakness.
   --will need intensive rehab
   --continue scop patch
   --discuss ways of improving trach occlusion with IP, this may mean
   removing stent
   .
   # Respiratory failure: Will likely require long term weaning. On trach
   --discuss with IP long term mgmt of trach
   --management of secretions as per above
   ..
   # Gastritis/Esophagitis:
   -cont [**Hospital1 **] PPI IV for now
   -Monitor daily Hct in setting of anticoagulation
   - Maintain active T+S.
   .
   # Agitated Delirium:
   H/o EtoH abuse but well outside the window of DTs at this time. Mental
   status currently improved. Following commands.
   Prolongued ICU stay, infection, electrolyte disturbances may be
   contributory.
   - d/c Haldol given depressed mental status
   - infectious workup as above
   - Follow QTc with daily EKG
   .
   # Hypernatremia
   Free H20 deficit is ~2L
   - Free H20 with TFs
   - Check PM lytes
   .
   # Nutrition:
   -- TF continuous 24 hours
   -- TPN discontinued.
   # Sz Activity:
   No recent seizures. Per d/w neuro, have discontinued phenytoin.
   --needs outpt f/u with neuro after this hospital course
   .
   # Atrial fibrillation: Currently in sinus
   --cont diltiazem
   --continue lovenox, hold warfarin for now in case of procedure
   .
   # DVT:
   -- lovenox
   -- restart warfarin when no longer needing procedures
   .
    # COPD: no active issues
   - cont inhalers
   .
   # Anemia: Trending her hct. Transfuse hct>21.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2169-4-17**] 06:00 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM      Consult gen [**Doctor First Name 91**] for porta cath
   placement
   20 Gauge - [**2169-4-14**] 11:00 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2169-04-17 10:09:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: tracheobronchomalacia, COPD
   24 Hour Events:
   Tolerated trach collar during the day on [**4-16**] then back on vent
   overnight
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-4-17**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-4-16**] 11:45 PM
   Enoxaparin (Lovenox) - [**2169-4-17**] 09:00 AM
   Other medications:
   colace
   guafenesine
   hydrocort
   pantoprazole
   folic acid
   haldol 5 qhs
   dilt 45 QID (held this am for SBP < 100)
   [**Last Name (un) **]
   reglan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain, Nausea
   Flowsheet Data as of  [**2169-4-17**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.1
   HR: 91 (83 - 116) bpm
   BP: 108/24(52) {89/24(52) - 159/93(109)} mmHg
   RR: 27 (14 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.5 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  1,642 mL
                                                                    547 mL
   PO:
             TF:
                                                                    472 mL
                                                                    278 mL
   IVF:
                                                                    330 mL
                                                                    149 mL
   Blood products:
   Total out:
                                                                  1,060 mL
                                                                    575 mL
   Urine:
                                                                    910 mL
                                                                    575 mL
   NG:
                                                                     50 mL
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    582 mL
                                                                    -28 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: Standby
   Vt (Spontaneous): 269 (269 - 399) mL
   PS : 10 cmH2O
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 10 L/min
   Physical Examination
   General Appearance: No(t) Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, ETT
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: nonspecific
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   348 K/uL
   120 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.0 mEq/L
   16 mg/dL
   111 mEq/L
   147 mEq/L
   29.0 %
   12.7 K/uL
        [image002.jpg]
                             [**2169-4-9**]  06:32 AM
                             [**2169-4-10**]  03:39 AM
                             [**2169-4-11**]  03:03 AM
                             [**2169-4-12**]  03:07 AM
                             [**2169-4-13**]  03:03 AM
                             [**2169-4-13**]  04:03 PM
                             [**2169-4-14**]  04:22 AM
                             [**2169-4-15**]  04:00 AM
                             [**2169-4-16**]  03:27 AM
                             [**2169-4-17**]  03:37 AM
   WBC
   6.3
   8.4
   8.3
   9.0
   8.5
   8.2
   8.0
   15.0
   11.6
   12.7
   Hct
   24.6
   23.6
   27.6
   28.7
   30.4
   30.7
   29.0
   30.0
   26.9
   29.0
   Plt
   [**Telephone/Fax (3) 12364**]
   279
   331
   290
   348
   Cr
   0.9
   0.9
   0.8
   1.0
   0.9
   0.8
   0.9
   0.8
   0.7
   0.7
   Glucose
   154
   99
   119
   123
   120
   143
   121
   90
   93
   120
   Other labs: PT / PTT / INR:14.6/32.2/1.3, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:138/82, Alk Phos / T Bili:371/0.1,
   Amylase / Lipase:/21, Differential-Neuts:73.5 %, Lymph:22.2 %, Mono:2.8
   %, Eos:1.2 %, Fibrinogen:351 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:196 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   57 yo F obesity, COPD, GERD, tracheobronchomalacia now s/p Y stent
   placement
   1.  Mental status: waxes and wanes, currently less responsive this
   morning, received addl haldol overnight, now hypernatremic
    - will d/c haldol
    - will check ABG
    - will continue to monitor
    - fix hypernatremia
   2. Elevated WBC, now with new abdominal pain, rise in LFTs
    - will check RUQUS
    - will check CDiff
   3. Hypernatremia: increase FWB
   4. Upper extremity clots: lovenox
   5. Respiratory failure: intermittent vent dependence
    - trach in place currently with air leak
    - will discuss further options with IP: ? change out trach vs remove
   Y-stent
   6. Lower blood pressure this morning:
    - appears dehydrated, will give IVF bolus
   7. FEN: cont tube feeds
   8. Access: will consult surgical services regarding port-a-cath
   placement
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2169-4-17**] 06:00 AM 25 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2169-04-18 07:11:00 Physician Resident Progress Note
Chief Complaint: unresponsive
   24 Hour Events:
   afib 120-130s, given IV diltiazem with good response
   CT abd with gallstones, no acute process
   Regurgitation this morning -> TF on hold but regurgitation likely
   stomach contents
   No complaints this AM
 breathing ok, denies any abdominal pain
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-4-18**] 04:04 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2169-4-17**] 11:00 AM
   Enoxaparin (Lovenox) - [**2169-4-17**] 08:11 PM
   Pantoprazole (Protonix) - [**2169-4-17**] 08:24 PM
   Diltiazem - [**2169-4-18**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-18**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 93 (81 - 150) bpm
   BP: 103/55(66) {89/24(52) - 157/76(101)} mmHg
   RR: 33 (16 - 33) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 70.5 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  3,423 mL
                                                                  1,701 mL
   PO:
             TF:
                                                                    436 mL
                                                                    386 mL
   IVF:
                                                                  2,077 mL
                                                                    725 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                    740 mL
   Urine:
                                                                  1,750 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,673 mL
                                                                    961 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 283 (283 - 283) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   General: Sitting up in bed, slightly anxious and tachypneic appearing
   but no acute distress
   Neck: Yellowish discharge from tracheostomy
   CV: Regular no m/r/g appreciated
   Pulm: Lungs with coarse breath sounds L>R, few rales
   Abd: Soft +bowel sounds mildly tender throughout as before, no
   peritoneal signs
   Extrem: Warm no edema
   R subclavian with minimal surrounding exit site erythema, no drainage
   Foley with yellow urine
   Labs / Radiology
   343 K/uL
   9.0 g/dL
   129 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.8 mEq/L
   9 mg/dL
   109 mEq/L
   145 mEq/L
   29.3 %
   11.0 K/uL
        [image002.jpg]
                             [**2169-4-10**]  03:39 AM
                             [**2169-4-11**]  03:03 AM
                             [**2169-4-12**]  03:07 AM
                             [**2169-4-13**]  03:03 AM
                             [**2169-4-13**]  04:03 PM
                             [**2169-4-14**]  04:22 AM
                             [**2169-4-15**]  04:00 AM
                             [**2169-4-16**]  03:27 AM
                             [**2169-4-17**]  03:37 AM
                             [**2169-4-18**]  02:26 AM
   WBC
   8.4
   8.3
   9.0
   8.5
   8.2
   8.0
   15.0
   11.6
   12.7
   11.0
   Hct
   23.6
   27.6
   28.7
   30.4
   30.7
   29.0
   30.0
   26.9
   29.0
   29.3
   Plt
   [**Telephone/Fax (3) **]96
   [**Telephone/Fax (3) 12430**]
   343
   Cr
   0.9
   0.8
   1.0
   0.9
   0.8
   0.9
   0.8
   0.7
   0.7
   Glucose
   99
   119
   123
   120
   143
   121
   90
   93
   120
   129
   Other labs: PT / PTT / INR:14.6/32.2/1.3, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:107/53, Alk Phos / T Bili:364/0.2,
   Amylase / Lipase:/21, Differential-Neuts:73.5 %, Lymph:22.2 %, Mono:2.8
   %, Eos:1.2 %, Fibrinogen:351 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:196 IU/L, Ca++:8.0 mg/dL, Mg++:1.5 mg/dL, PO4:2.9 mg/dL
   CT abd: no IV contrast
   No definite liver lesion, +splenomegaly, choleilthiasis without
   cholecystitis
   Assessment and Plan
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and s/p intubation for respiratory failure, now on abx for
   presumed VAP.
   .
   # Leukocytosis:
   Only low grade temps in last 24h, WBC slightly improved
   Treating for suspected VAP with meropenem (d1= [**4-13**], today d6) plan for
   10 day course. Cxs remain negative.
   Other potential sources include line, cdiff, UTI
   - f/u pending micro, culture if spikes
   - send line tip culture when out
   .
   # Abdominal pain
   Pain improved, belly soft.  Could be due to known gastritis/esophagitis
 no ulcers on recent EGD. C diff negative x2. CT abd without acute
   process.
   - follow up CT abd final read
   - serial exams, may give low dose morphine as needed
   .
   # Transaminitis
   [**Month (only) 8**] be due to med effect
 eg diltiazem, reglan, lovenox, recent
   dilantin. Pattern not suggestive of obstructive process or alcoholic
   hepatitis. LFTs modestly improved today. No major liver pathology noted
   on CT, though limited by lack of contrast. Splenomegaly raises question
   of underlying portal hypertension from alcoholic liver disease.
   - continue to trend
   - check hepB/C serologies
   - limit acetaminophen to 2g/day
   .
   # Oropharyngeal dysphagia: S & S eval indicated pharnygeal muscle
   weakness.
   --will need intensive rehab
   --continue scop patch
   --discuss ways of improving trach occlusion with IP, this may mean
   removing stent
   -- can restart TF as regurgitation is oropharyngeal/gastric
   -- continue suctioning
   .
   # Respiratory failure: Will likely require long term weaning.
   --discuss with IP long term mgmt of trach
   --management of secretions as per above
   ..
   # Gastritis/Esophagitis:   Hcts have been stable
   -change protonix to PO BID
   -Monitor daily Hct in setting of anticoagulation
   - Maintain active T+S.
   .
   # Agitated Delirium: Improved.
   H/o EtoH abuse but well outside the window of DTs at this time. Mental
   status currently improved. Following commands.
   Prolongued ICU stay, infection, electrolyte disturbances may be
   contributory.
   - d/c Haldol given depressed mental status
   - infectious workup as above
   - Follow QTc with daily EKG
   - can trial zydis prn agitation
   .
   # Hypernatremia
   Now improved following increased free H20 flushes and D5
   - Continue free H20 flushes, follow Na daily
   .
   # Long term access:
   -- consult surgery for portacath placement
   -- dc CVL after portacath placement
   # Nutrition:
   -- TF continuous 24 hours
   -- TPN discontinued.
   # Sz Activity:
   No recent seizures. Per d/w neuro, have discontinued phenytoin.
   --needs outpt f/u with neuro after this hospital course
   .
   # Atrial fibrillation: Currently in sinus
   --cont diltiazem
   --continue lovenox, hold warfarin for now in case of procedure
   .
   # DVT:
   -- lovenox
   -- restart warfarin when no longer needing procedures
   .
    # COPD: no active issues
   - cont inhalers
   .
   # Anemia: Trending her hct. Transfuse hct>21.
   ICU Care
   Nutrition: Restart tube feeds
   Vivonex (Full) - [**2169-4-18**] 05:00 AM 65 mL/hour
   Glycemic Control:  not diabetic, morning glucose acceptable
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM  -> talk to surgery re portacath
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   Communication:
   Code status: Full code
   Disposition: ICU, being screened for rehab once access issue is solved
   (either dc with portacath or resited CVL)

2169-04-18 11:05:00 Physician Attending Progress Note
Chief Complaint:  Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  tolerating TM trials better. Less suctioning needs
   24 Hour Events:
   Abdominal CT obtained yesterday for abdominal pain with no evidence of
   intraabdominal process
   continues to tolerate trach mask
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-4-18**] 10:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2169-4-17**] 11:00 AM
   Enoxaparin (Lovenox) - [**2169-4-17**] 08:11 PM
   Pantoprazole (Protonix) - [**2169-4-17**] 08:24 PM
   Diltiazem - [**2169-4-18**] 12:10 AM
   Other medications:
   colace
   chlorhexadine
   guafenesine
   tucks
   protonix
   folic acid
   lovenox
   meropenem
   reglan
   dilt
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-18**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 108 (81 - 150) bpm
   BP: 144/95(108) {96/43(53) - 157/95(108)} mmHg
   RR: 29 (16 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.5 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  3,423 mL
                                                                  1,900 mL
   PO:
             TF:
                                                                    436 mL
                                                                    376 mL
   IVF:
                                                                  2,077 mL
                                                                    843 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                  1,340 mL
   Urine:
                                                                  1,750 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,673 mL
                                                                    560 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds:
   Rhonchorous: bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   343 K/uL
   129 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.8 mEq/L
   9 mg/dL
   109 mEq/L
   145 mEq/L
   29.3 %
   11.0 K/uL
        [image002.jpg]
                             [**2169-4-10**]  03:39 AM
                             [**2169-4-11**]  03:03 AM
                             [**2169-4-12**]  03:07 AM
                             [**2169-4-13**]  03:03 AM
                             [**2169-4-13**]  04:03 PM
                             [**2169-4-14**]  04:22 AM
                             [**2169-4-15**]  04:00 AM
                             [**2169-4-16**]  03:27 AM
                             [**2169-4-17**]  03:37 AM
                             [**2169-4-18**]  02:26 AM
   WBC
   8.4
   8.3
   9.0
   8.5
   8.2
   8.0
   15.0
   11.6
   12.7
   11.0
   Hct
   23.6
   27.6
   28.7
   30.4
   30.7
   29.0
   30.0
   26.9
   29.0
   29.3
   Plt
   [**Telephone/Fax (3) **]96
   [**Telephone/Fax (3) 12430**]
   343
   Cr
   0.9
   0.8
   1.0
   0.9
   0.8
   0.9
   0.8
   0.7
   0.7
   Glucose
   99
   119
   123
   120
   143
   121
   90
   93
   120
   129
   Other labs: PT / PTT / INR:14.6/32.2/1.3, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:107/53, Alk Phos / T Bili:364/0.2,
   Amylase / Lipase:/21, Differential-Neuts:73.5 %, Lymph:22.2 %, Mono:2.8
   %, Eos:1.2 %, Fibrinogen:351 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:196 IU/L, Ca++:8.0 mg/dL, Mg++:1.5 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   54 yo f COPD, TBM admitted with respiratory failure, now s/p Y-stent
   and tracheostomy
   1. respiratory failure: TBM improved with stent placement but she still
   has persistent oral and gastric secretions which are able to drain in
   to lungs around her trach cuff
    - cont ten days meropenem
    - continue oral suctioning
    - continue trach collar as tolerated
    - she will need to regain strength and coordination of bulbar muscles
    - cont post-pyloric feedings
   2. Transaminitis and abdominal pain: her LFTs are stable and abd ct is
   within normal limits, so does not appear to be acute infectious
   process.  This could be medication-related
    - check hepatitis serologies
   3. Oral secretions:
   - cont scopolamine patch
    - cont oral suctioning
   4. Access:
     - currently has subclavian CVL, poor peripheral access, will consult
   surgery today for port-a-cath placement. If this is not considered
   appropriate for level of care, will resite CVL to RIJ before transfer
   5. Gastritis/esophagitis: cont PPI (change to PO)
   6. Mental status: improving, off prn haldol, if she becomes aggitated
   would use zydis/seroquel
   7. Hypernatremia: improved with FWB
   8. AFib/PAF: cont lovenox, diltiazem
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2169-04-19 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - In discussion with surgery, no plan for portacath placement, patient
   could have CVL resited if she needed to continue abx at rehab
   - Patient had acute episode of vomiting green bilious material at 6pm
   on [**4-18**] with hypoxia, tachycardia, despite attempts at suctioning.
   Patient was taken off of trach collar and put back on AC ventilation.
   Trial of pressure support was stopped overnight for apnea. Plan for
   another trial this AM
   - Patient's TF stopped overnight, received 500ml NS boluses x 2 for
   decreased UOP
   Subjective: Pt reports feeling ok this morning, eager to get off vent.
   Denies any pain.
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2169-4-19**] 04:05 AM
   Meropenem - [**2169-4-19**] 04:05 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2169-4-18**] 08:56 PM
   Lansoprazole (Prevacid) - [**2169-4-18**] 08:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-19**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.5
C (99.5
   HR: 90 (88 - 127) bpm
   BP: 114/50(64) {96/48(53) - 150/95(108)} mmHg
   RR: 21 (10 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.5 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  3,931 mL
                                                                    959 mL
   PO:
             TF:
                                                                    767 mL
   IVF:
                                                                  1,875 mL
                                                                    899 mL
   Blood products:
   Total out:
                                                                  2,100 mL
                                                                    150 mL
   Urine:
                                                                  2,100 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,831 mL
                                                                    809 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 448 (301 - 448) mL
   PS : 14 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 3.7 L/min
   Physical Examination
   General: Chronically ill appearing no distress
   HEENT: Anicteric
   Neck: R subclavian in place, trach in place
   Pulm: Lungs with coarse upper airway sounds bilaterally, no wheezes
   CV: Regular S1 S2 no m/r/g
   Abd: Soft nontender +bowel sounds
   Extrem: Warm no edema
   Neuro: Answering appropriately, moving all extremities
   Labs / Radiology
   312 K/uL
   7.3 g/dL
   100 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.8 mEq/L
   9 mg/dL
   111 mEq/L
   146 mEq/L
   23.7 %
   10.9 K/uL
        [image002.jpg]
                             [**2169-4-12**]  03:07 AM
                             [**2169-4-13**]  03:03 AM
                             [**2169-4-13**]  04:03 PM
                             [**2169-4-14**]  04:22 AM
                             [**2169-4-15**]  04:00 AM
                             [**2169-4-16**]  03:27 AM
                             [**2169-4-17**]  03:37 AM
                             [**2169-4-18**]  02:26 AM
                             [**2169-4-18**]  06:53 PM
                             [**2169-4-19**]  03:36 AM
   WBC
   9.0
   8.5
   8.2
   8.0
   15.0
   11.6
   12.7
   11.0
   10.9
   Hct
   28.7
   30.4
   30.7
   29.0
   30.0
   26.9
   29.0
   29.3
   23.7
   Plt
   [**Telephone/Fax (3) 12341**]79
   [**Telephone/Fax (2) 12447**]43
   312
   Cr
   1.0
   0.9
   0.8
   0.9
   0.8
   0.7
   0.7
   0.6
   0.6
   Glucose
   123
   120
   143
   121
   90
   93
   120
   129
   165
   100
   Other labs: PT / PTT / INR:14.6/32.2/1.3, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:76/36, Alk Phos / T Bili:295/0.2,
   Amylase / Lipase:/21, Differential-Neuts:73.5 %, Lymph:22.2 %, Mono:2.8
   %, Eos:1.2 %, Fibrinogen:351 mg/dL, Lactic Acid:0.4 mmol/L, Albumin:2.6
   g/dL, LDH:191 IU/L, Ca++:7.8 mg/dL, Mg++:2.8 mg/dL, PO4:2.7 mg/dL
   CXR:  limited lung volumes, no significant infiltrate
   Micro
   [**4-14**] sputum >25 polys and >10 epis
   [**4-15**] blood cx NGTD
   [**4-16**], [**4-17**] c diff negative
   [**4-17**] urine cx NGTD
   Assessment and Plan
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and s/p intubation for respiratory failure, now on abx for
   presumed VAP.
   .
   # Leukocytosis:
   Only low grade temps in last 24h, WBC improved
   Treating for suspected VAP versus tracheobronchitis with meropenem (d1=
   [**4-13**], today d7) plan for 10 day course. Cxs remain negative.
   Other potential sources include line, cdiff, UTI
 less likely
   - f/u pending micro, culture if spikes
   - send line tip culture when out
   .
   # Abdominal pain with n/v
   Pain improved, belly soft.  Could be due to known gastritis/esophagitis
 no ulcers on recent EGD. C diff negative x2. CT abd without acute
   process.
   - follow abdominal exam today
   .
   # Transaminitis
   Improved on serial tests
   [**Month (only) 8**] be due to med effect
 eg diltiazem, reglan, lovenox, recent
   dilantin. Pattern not suggestive of obstructive process or alcoholic
   hepatitis. LFTs modestly improved today. No major liver pathology noted
   on CT, though limited by lack of contrast. Splenomegaly raises question
   of underlying portal hypertension from alcoholic liver disease.
   - continue to trend
   - follow up  hepB/C serologies
   - limit acetaminophen to 2g/day
   .
   # Oropharyngeal dysphagia: S & S eval indicated pharnygeal muscle
   weakness.
   --will need intensive rehab
   --continue scop patch
   -- continue reglan
   --discuss ways of improving trach occlusion with IP, this may mean
   removing stent
   -- can restart TF as regurgitation is oropharyngeal/gastric
   -- continue suctioning
   .
   # Anemia- check repeat CBC,  HD stable. Will trend if real value.
   .
   # Respiratory failure: Will likely require long term weaning. Likely
   aspiration event last night.
   -- decrease PS today
   --discuss with IP long term mgmt of trach
   --management of secretions as per above
   ..
   # Gastritis/Esophagitis:   Hcts have been stable
   - protonix PO BID
   -Monitor daily Hct in setting of anticoagulation
   - Maintain active T+S.
   .
   # Agitated Delirium: Improved.
   H/o EtoH abuse but well outside the window of DTs at this time. Mental
   status currently improved. Following commands.
   Prolongued ICU stay, infection, electrolyte disturbances may be
   contributory.
   - infectious workup as above
   - can trial zydis prn agitation
   .
   # Hypernatremia
   Now improved following increased free H20 flushes and D5
   - Continue free H20 flushes, follow Na daily
   .
   # Sz Activity:
   No recent seizures. Per d/w neuro, have discontinued phenytoin.
   --needs outpt f/u with neuro after this hospital course
   .
   # Atrial fibrillation: Currently in sinus
   --cont diltiazem
   --continue lovenox, hold warfarin if HCT stable
   .
   # DVT:
   -- lovenox
   -- restart warfarin if HCT stable
   .
    # COPD: no active issues
   - cont inhalers
   .
   # Anemia: Trending her hct. Transfuse hct>21.
   ICU Care
   Nutrition: TF being held
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   Prophylaxis:
   DVT:  on lovenox
   Stress ulcer: on PPI
   VAP:  HOB elevation, wakeups, mouthcare
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   I have seen and examined the patient and concur with Dr [**Last Name (STitle) 5473**]
s note
   above. [**Known firstname 7938**] has had another setback with witnessed aspiration (
   gastric) last night but has quickly settled overnight with mechanical
   ventilation. She is ready to TM again and her mental status and
   strength are slowly improving.
   She completes a 10 day course of meropenem on [**2169-4-21**] and we will then
   attempt placing peripheral IV
s prior to D/C to rehab. Alternatively,
   she will have CVL re-sited to the IJ route prior to D/C.
   [**First Name8 (NamePattern2) **] [**Doctor Last Name 803**], M.D
   Pulmonary, Critical Care and Sleep Medicine.
   Time spent: 30 mins
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2169-4-19**] 01:23 PM ------

2169-04-20 06:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - had further atach/afib -> dilt 10mg IV, increased PO to 60 q6h
   - hct drifting down ?gastritis again, no gross bleeding, no evidence of
   hemolysis
   back on [**Hospital1 **] IV PPI, carafate. check H pylori IGG (no biopsy at egd).
   holding lovenox until hct stabilizes, guiac stools -> negative x1
   overnight
   - transfused 1unit prbcs with appropriate bump
   - agitated overnight -> zyprexa prn -- only modest effect. pt
   tachycardic in setting of agitation
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2169-4-20**] 04:00 AM
   Meropenem - [**2169-4-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2169-4-19**] 08:00 AM
   Lansoprazole (Prevacid) - [**2169-4-19**] 08:00 AM
   Pantoprazole (Protonix) - [**2169-4-19**] 10:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-20**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 117 (70 - 134) bpm
   BP: 131/96(105) {97/43(56) - 155/97(125)} mmHg
   RR: 21 (9 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.5 kg (admission): 80.8 kg
   Height: 66 Inch
           Total In:
                                                                  3,178 mL
                                                                  1,104 mL
   PO:
           TF:
                                                                    148 mL
                                                                    127 mL
   IVF:
                                                                  1,770 mL
                                                                    347 mL
   Blood products:
                                                                    250 mL
                                                                    100 mL
   Total out:
                                                                    980 mL
                                                                  1,400 mL
   Urine:
                                                                    980 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,198 mL
                                                                   -296 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 372 (370 - 441) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35, Agitated
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 6.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   308 K/uL
   8.8 g/dL
   95 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.8 mEq/L
   6 mg/dL
   113 mEq/L
   148 mEq/L
   27.4 %
   7.3 K/uL
        [image002.jpg]
                             [**2169-4-15**]  04:00 AM
                             [**2169-4-16**]  03:27 AM
                             [**2169-4-17**]  03:37 AM
                             [**2169-4-18**]  02:26 AM
                             [**2169-4-18**]  06:53 PM
                             [**2169-4-19**]  03:36 AM
                             [**2169-4-19**]  11:46 AM
                             [**2169-4-19**]  07:14 PM
                             [**2169-4-20**]  01:48 AM
                             [**2169-4-20**]  04:19 AM
   WBC
   15.0
   11.6
   12.7
   11.0
   10.9
   10.4
   7.3
   Hct
   30.0
   26.9
   29.0
   29.3
   23.7
   24.8
   22.6
   27.8
   27.4
   Plt
   [**Telephone/Fax (3) 12447**]43
   312
   352
   308
   Cr
   0.8
   0.7
   0.7
   0.6
   0.6
   0.6
   0.6
   Glucose
   90
   93
   120
   129
   165
   100
   87
   95
   Other labs: PT / PTT / INR:15.7/27.7/1.4, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:69/31, Alk Phos / T Bili:264/0.2,
   Amylase / Lipase:/21, Differential-Neuts:73.5 %, Lymph:22.2 %, Mono:2.8
   %, Eos:1.2 %, Fibrinogen:351 mg/dL, Lactic Acid:0.4 mmol/L, Albumin:2.5
   g/dL, LDH:187 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   57-year-old woman with history of tracheobronchial malacia was
   transferred from [**State 507**] after being found unresponsive at home on
   [**2169-3-7**] and s/p intubation for respiratory failure, now on abx for
   presumed VAP.
   .
   # Leukocytosis:
   Only low grade temps in last 24h, WBC improved
   Treating for suspected VAP versus tracheobronchitis with meropenem (d1=
   [**4-13**], today d7) plan for 10 day course. Cxs remain negative.
   Other potential sources include line, cdiff, UTI
 less likely
   - f/u pending micro, culture if spikes
   - send line tip culture when out
   .
   # Abdominal pain with n/v
   Pain improved, belly soft.  Could be due to known gastritis/esophagitis
 no ulcers on recent EGD. C diff negative x2. CT abd without acute
   process.
   - follow abdominal exam today
   .
   # Transaminitis
   Improved on serial tests
   [**Month (only) 8**] be due to med effect
 eg diltiazem, reglan, lovenox, recent
   dilantin. Pattern not suggestive of obstructive process or alcoholic
   hepatitis. LFTs modestly improved today. No major liver pathology noted
   on CT, though limited by lack of contrast. Splenomegaly raises question
   of underlying portal hypertension from alcoholic liver disease.
   - continue to trend
   - follow up  hepB/C serologies
   - limit acetaminophen to 2g/day
   .
   # Oropharyngeal dysphagia: S & S eval indicated pharnygeal muscle
   weakness.
   --will need intensive rehab
   --continue scop patch
   -- continue reglan
   --discuss ways of improving trach occlusion with IP, this may mean
   removing stent
   -- can restart TF as regurgitation is oropharyngeal/gastric
   -- continue suctioning
   .
   # Anemia- check repeat CBC,  HD stable. Will trend if real value.
   .
   # Respiratory failure: Will likely require long term weaning. Likely
   aspiration event last night.
   -- decrease PS today
   --discuss with IP long term mgmt of trach
   --management of secretions as per above
   ..
   # Gastritis/Esophagitis:   Hcts have been stable
   - protonix PO BID
   -Monitor daily Hct in setting of anticoagulation
   - Maintain active T+S.
   .
   # Agitated Delirium: Improved.
   H/o EtoH abuse but well outside the window of DTs at this time. Mental
   status currently improved. Following commands.
   Prolongued ICU stay, infection, electrolyte disturbances may be
   contributory.
   - infectious workup as above
   - can trial zydis prn agitation
   .
   # Hypernatremia
   Now improved following increased free H20 flushes and D5
   - Continue free H20 flushes, follow Na daily
   .
   # Sz Activity:
   No recent seizures. Per d/w neuro, have discontinued phenytoin.
   --needs outpt f/u with neuro after this hospital course
   .
   # Atrial fibrillation: Currently in sinus
   --cont diltiazem
   --continue lovenox, hold warfarin if HCT stable
   .
   # DVT:
   -- lovenox
   -- restart warfarin if HCT stable
   .
    # COPD: no active issues
   - cont inhalers
   .
   # Anemia: Trending her hct. Transfuse hct>21.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2169-4-20**] 05:06 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2169-04-20 11:16:00 Physician Attending Progress Note
Chief Complaint:  respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Respiratory failure, TBM, aspiration PNA,
   24 Hour Events:
   repeat Afib that responded to 10 mg diltiazem
   Received 1 u pRBCs for hct 23
   guaiac +
   received zyprexa for increased aggitation
   PSV overnight and transition to TCM in am
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2169-4-20**] 04:00 AM
   Meropenem - [**2169-4-20**] 10:27 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-4-19**] 10:32 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-20**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.5
C (99.5
   HR: 133 (70 - 134) bpm
   BP: 135/73(89) {97/43(56) - 167/102(125)} mmHg
   RR: 20 (9 - 35) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.5 kg (admission): 80.8 kg
   Height: 66 Inch
           Total In:
                                                                  3,178 mL
                                                                  1,838 mL
   PO:
           TF:
                                                                    148 mL
                                                                    274 mL
   IVF:
                                                                  1,770 mL
                                                                    564 mL
   Blood products:
                                                                    250 mL
                                                                    100 mL
   Total out:
                                                                    980 mL
                                                                  2,220 mL
   Urine:
                                                                    980 mL
                                                                  2,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,198 mL
                                                                   -382 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 372 (370 - 441) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35, Agitated
   PIP: 17 cmH2O
   SpO2: 96%
   ABG: ///30/
   Ve: 6.9 L/min
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   308 K/uL
   95 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.8 mEq/L
   6 mg/dL
   113 mEq/L
   148 mEq/L
   27.4 %
   7.3 K/uL
        [image002.jpg]
                             [**2169-4-15**]  04:00 AM
                             [**2169-4-16**]  03:27 AM
                             [**2169-4-17**]  03:37 AM
                             [**2169-4-18**]  02:26 AM
                             [**2169-4-18**]  06:53 PM
                             [**2169-4-19**]  03:36 AM
                             [**2169-4-19**]  11:46 AM
                             [**2169-4-19**]  07:14 PM
                             [**2169-4-20**]  01:48 AM
                             [**2169-4-20**]  04:19 AM
   WBC
   15.0
   11.6
   12.7
   11.0
   10.9
   10.4
   7.3
   Hct
   30.0
   26.9
   29.0
   29.3
   23.7
   24.8
   22.6
   27.8
   27.4
   Plt
   [**Telephone/Fax (3) 12447**]43
   312
   352
   308
   Cr
   0.8
   0.7
   0.7
   0.6
   0.6
   0.6
   0.6
   Glucose
   90
   93
   120
   129
   165
   100
   87
   95
   Other labs: PT / PTT / INR:15.7/27.7/1.4, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:69/31, Alk Phos / T Bili:264/0.2,
   Amylase / Lipase:/21, Differential-Neuts:73.5 %, Lymph:22.2 %, Mono:2.8
   %, Eos:1.2 %, Fibrinogen:351 mg/dL, Lactic Acid:0.4 mmol/L, Albumin:2.5
   g/dL, LDH:187 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   57 yo F COPD, TBM, here with respiratory failure now s/p Y-stent
   placement. Course complicated by delirium, ability to manage
   secretions, atrial fibrillation
   1. Delirium: likely [**2-14**] ICU, complicated by trach
    - will restart standing haldol 1 mg [**Hospital1 **] PO
    - will discuss with psych CNS
   2. Anemia: likely [**2-14**] gastritis with slow ooze
    - cont PPI
    - t/f hct > 25
   3. Oropharyngeal dysphagia with regurgitation:
    - cont scopolamine
    - cont reglan and erythromycin
    - will discuss with IP
    - cont tcm during day and psv at night
   4. Afib:
    - DIlt 60 [**Last Name (LF) **], [**First Name3 (LF) 124**] continue to increase, she may need dilt gtt
   5. Hypernatremia: cont free water boluses
   6. COPD: cont albuterol/atrovent
   7. Access: she has R subclavian which remains clean, she cannot have
   PICC [**2-14**] bilateral upper extremity clots
    - will resite line once mental status improved and she will tolerate
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2169-4-20**] 05:06 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP: HOB elevation, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2169-04-21 05:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 50cc bilious emesis x1 overnight
   - low UOP 20cc/hr briefly overnight, gave 500cc IVFs
   - psych came by and saw--> rec for 1mg PO Haldol [**Hospital1 **] standing alongside
   same dose PRN [**Hospital1 **]
   -HRs better overnight in 70-90s range mostly
   -increased standing dilt to 90 QID dose
   -PM Hct trend better and stable in 29-30 range
   -IP recs: long term goal in next several months is to get on trach mask
   24/7, decannulate, remove stent, and pursue surgery within 2-4 weeks
   after that. In meantime, recommends further workup of reflux issues
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2169-4-21**] 04:00 AM
   Meropenem - [**2169-4-21**] 04:00 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2169-4-20**] 06:13 PM
   Enoxaparin (Lovenox) - [**2169-4-20**] 08:00 PM
   Pantoprazole (Protonix) - [**2169-4-20**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-21**] 05:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 127 (78 - 140) bpm
   BP: 124/66(106) {112/56(71) - 171/112(149)} mmHg
   RR: 24 (11 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.5 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  3,967 mL
                                                                  1,425 mL
   PO:
             TF:
                                                                    867 mL
                                                                    255 mL
   IVF:
                                                                  1,170 mL
                                                                    830 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  3,455 mL
                                                                    405 mL
   Urine:
                                                                  3,355 mL
                                                                    405 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    512 mL
                                                                  1,020 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 301 (301 - 316) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 203
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: ///30/
   Ve: 9.3 L/min
   Physical Examination
   Gen: Awake, alert, less agitated, sitting up with wrist restraints
   HEENT: [**Last Name (un) **], trach collar in placeL
   Lungs: Rhochi/upper airway sounds throughout
   CV: RR, no murmurs
   Abd: soft, nontender
   Ext: no LE edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   341 K/uL
   9.5 g/dL
   113 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.6 mEq/L
   4 mg/dL
   109 mEq/L
   145 mEq/L
   28.7 %
   10.0 K/uL
        [image002.jpg]
                             [**2169-4-18**]  02:26 AM
                             [**2169-4-18**]  06:53 PM
                             [**2169-4-19**]  03:36 AM
                             [**2169-4-19**]  11:46 AM
                             [**2169-4-19**]  07:14 PM
                             [**2169-4-20**]  01:48 AM
                             [**2169-4-20**]  04:19 AM
                             [**2169-4-20**]  11:00 AM
                             [**2169-4-20**]  06:09 PM
                             [**2169-4-21**]  02:36 AM
   WBC
   11.0
   10.9
   10.4
   7.3
   10.0
   Hct
   29.3
   23.7
   24.8
   22.6
   27.8
   27.4
   29.3
   30.4
   28.7
   Plt
   343
   312
   352
   308
   341
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   Glucose
   129
   165
   100
   87
   95
   113
   Other labs: PT / PTT / INR:16.4/34.0/1.5, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:49/23, Alk Phos / T Bili:241/0.2,
   Amylase / Lipase:/21, Differential-Neuts:73.5 %, Lymph:22.2 %, Mono:2.8
   %, Eos:1.2 %, Fibrinogen:351 mg/dL, Lactic Acid:0.4 mmol/L, Albumin:2.5
   g/dL, LDH:199 IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   EKG [**4-21**]: QTC 0.44
   Assessment and Plan
   57-year-old woman with history of tracheobronchial with long ICU course
   here on treatment for VAP and on trach mask/pressure support
   intermittently with improved delirium on haldol.
   .
   # Agitated Delirium:  [**2-14**] ICU delirium.  Improved with trial of haldol
   yesterday. QTC not prolonged.
   - change haldol to 0.5mg morning, afternoon, and 1mg QHS checking [**Hospital1 **]
   EKGs for QTC (goal less than 0.5)
   - discontinue erythomycin which also prolongs QTC
   - redirect frequently
   - psych input appreciated
   # Oropharyngeal dysphagia: S & S eval indicated pharnygeal muscle
   weakness.  Has continued to have bilious emesis
   -- get GI opinion on further evaluation/treatment of reflux
   --will need intensive rehab
   --continue scop patch
   -- continue reglan
   -- continue tube feeds, no need to hold
   -- continue suctioning
   # Tachycardia, h/o PAF. Improved on increased dilt dosing. Management
   of delirium also helps tachycardia
   --cont increased dose of diltiazem
   --continue lovenox
   --f/u i+o gain net even
   # Tracheobronchitis
   Only low grade temps in last 24h, WBC improved
   Treating for suspected VAP versus tracheobronchitis with meropenem (d1=
   [**4-13**], today d9) plan for 10 day course. Cxs remain negative. Can dc
   meropenem tomorrow.
   - f/u pending micro, culture if spikes
   # Blood loss anemia, h/o gastritis and esophagitis
   Hct has remained stable, has not required transfusion for >24hrs Likely
   slow ooze from known gastritis/esophagitis
   - trend hct [**Hospital1 **] for now, transfuse hct>25
   - continue ppi, maintain active t+s
   - continue lovenox
   # Transaminitis
   Improved on serial tests
   [**Month (only) 8**] be due to med effect
 eg diltiazem, reglan, lovenox, recent
   dilantin. Pattern not suggestive of obstructive process or alcoholic
   hepatitis. LFTs modestly improved today. No major liver pathology noted
   on CT, though limited by lack of contrast. Splenomegaly raises question
   of underlying portal hypertension from alcoholic liver disease. HepB/C
   serologies negative
   - continue to trend
   - limit acetaminophen to 2g/day
   .
   # Respiratory failure: TBM with trach in place. Will likely require
   long term weaning.
   --continue trach mask during day, pressure support at night. Has been
   tolerating this well
   --Appreciate IP recs
   --management of secretions as per above
   .
   # Sz Activity:
   No recent seizures. Per d/w neuro, have discontinued phenytoin.
   --needs outpt f/u with neuro after this hospital course
   .
   # DVT:
   -- lovenox
   .
    # COPD: no active issues
   - cont inhalers
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  Insulin sliding scale
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   - plan to place PIV today, pull CVL after placement
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: boyfriend [**Name (NI) **] [**Name (NI) 513**] [**Telephone/Fax (1) 514**], brother [**Name (NI) 509**]
   [**Telephone/Fax (1) 511**]
   Code status: Full code
   Disposition: ICU over weekend, will aim for discharge to rehab on
   Monday, after optimization of delirium and reflux regimen
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I have seen and examined the patient and concur with Dr [**First Name (STitle) 581**]
s note
   above.
   [**Known firstname 7938**] continues to tolerate TM trials during the day but needs
   supportive ventilation at night with sleep.
   She has intermittent emesis but Hct has remained stable. She will
   conclude Abx today and we will try and establish peripheral access.
   Tolerating low level haldol so far and this has allowed participation
   in ADL
   GI to opine regarding tests for further evaluation of emesis as this
   remains a primary issue despite having tracheostomy given risk for
   continuing pneumonitis. Hopefully she will transition to an LTAC early
   next week. Updated boyfriend who is visiting today.
   [**First Name8 (NamePattern2) **] [**Doctor Last Name 803**], M.D
   Pulmonary , Critical Care and Sleep Medicine
   Time spent: 35 mins
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2169-4-21**] 14:34 ------

2169-04-22 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - GI reconsulted to give recs on workup of continued reflux. They
   recommended gastric emptying study and impedance study
   - PIV placed, plan to pull subclavial CVL after last dose meropenem
   [**4-22**]
   - patient's agitation under better control on haldol 0.5/0.5/1mg
   regimen. Keep QTC<0.5
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2169-4-21**] 04:00 AM
   Meropenem - [**2169-4-22**] 04:47 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2169-4-21**] 08:26 PM
   Pantoprazole (Protonix) - [**2169-4-21**] 10:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-22**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.5
   HR: 75 (69 - 115) bpm
   BP: 108/62(72) {92/42(54) - 141/93(97)} mmHg
   RR: 17 (12 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.5 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  4,117 mL
                                                                  1,262 mL
   PO:
             TF:
                                                                    797 mL
                                                                    441 mL
   IVF:
                                                                  1,370 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                    270 mL
   Urine:
                                                                  1,560 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,557 mL
                                                                    992 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 291 (255 - 427) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 150
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: ///32/
   Ve: 5.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   289 K/uL
   8.6 g/dL
   116 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.4 mEq/L
   9 mg/dL
   112 mEq/L
   149 mEq/L
   27.2 %
   7.7 K/uL
        [image002.jpg]
                             [**2169-4-18**]  06:53 PM
                             [**2169-4-19**]  03:36 AM
                             [**2169-4-19**]  11:46 AM
                             [**2169-4-19**]  07:14 PM
                             [**2169-4-20**]  01:48 AM
                             [**2169-4-20**]  04:19 AM
                             [**2169-4-20**]  11:00 AM
                             [**2169-4-20**]  06:09 PM
                             [**2169-4-21**]  02:36 AM
                             [**2169-4-22**]  04:05 AM
   WBC
   10.9
   10.4
   7.3
   10.0
   7.7
   Hct
   23.7
   24.8
   22.6
   27.8
   27.4
   29.3
   30.4
   28.7
   27.2
   Plt
   [**Telephone/Fax (3) 12513**]41
   289
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   Glucose
   165
   100
   87
   95
   113
   116
   Other labs: PT / PTT / INR:15.0/32.7/1.3, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:36/17, Alk Phos / T Bili:195/0.2,
   Amylase / Lipase:/21, Differential-Neuts:73.5 %, Lymph:22.2 %, Mono:2.8
   %, Eos:1.2 %, Fibrinogen:351 mg/dL, Lactic Acid:0.4 mmol/L, Albumin:2.4
   g/dL, LDH:166 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 TACHYCARDIA, OTHER
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 TRANSFERS, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 LEUKOCYTOSIS
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERNATREMIA (HIGH SODIUM)
 ALTERATION IN NUTRITION
 .H/O ALCOHOL ABUSE
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 DELIRIUM / CONFUSION
   57-year-old woman with history of tracheobronchial with long ICU course
   here on treatment for VAP and on trach mask/pressure support
   intermittently with improved delirium on haldol.
   .
   # Agitated Delirium:  [**2-14**] ICU delirium.  Improved with trial of haldol
   yesterday. QTC not prolonged.
   - change haldol to 0.5mg morning, afternoon, and 1mg QHS checking [**Hospital1 **]
   EKGs for QTC (goal less than 0.5)
   - discontinue erythomycin which also prolongs QTC
   - redirect frequently
   - psych input appreciated
   # Oropharyngeal dysphagia: S & S eval indicated pharnygeal muscle
   weakness.  Has continued to have bilious emesis
   -- get GI opinion on further evaluation/treatment of reflux
   --will need intensive rehab
   --continue scop patch
   -- continue reglan
   -- continue tube feeds, no need to hold
   -- continue suctioning
   # Tachycardia, h/o PAF. Improved on increased dilt dosing. Management
   of delirium also helps tachycardia
   --cont increased dose of diltiazem
   --continue lovenox
   --f/u i+o gain net even
   # Tracheobronchitis
   Only low grade temps in last 24h, WBC improved
   Treating for suspected VAP versus tracheobronchitis with meropenem (d1=
   [**4-13**], today d9) plan for 10 day course. Cxs remain negative. Can dc
   meropenem tomorrow.
   - f/u pending micro, culture if spikes
   # Blood loss anemia, h/o gastritis and esophagitis
   Hct has remained stable, has not required transfusion for >24hrs Likely
   slow ooze from known gastritis/esophagitis
   - trend hct [**Hospital1 **] for now, transfuse hct>25
   - continue ppi, maintain active t+s
   - continue lovenox
   # Transaminitis
   Improved on serial tests
   [**Month (only) 8**] be due to med effect
 eg diltiazem, reglan, lovenox, recent
   dilantin. Pattern not suggestive of obstructive process or alcoholic
   hepatitis. LFTs modestly improved today. No major liver pathology noted
   on CT, though limited by lack of contrast. Splenomegaly raises question
   of underlying portal hypertension from alcoholic liver disease. HepB/C
   serologies negative
   - continue to trend
   - limit acetaminophen to 2g/day
   .
   # Respiratory failure: TBM with trach in place. Will likely require
   long term weaning.
   --continue trach mask during day, pressure support at night. Has been
   tolerating this well
   --Appreciate IP recs
   --management of secretions as per above
   .
   # Sz Activity:
   No recent seizures. Per d/w neuro, have discontinued phenytoin.
   --needs outpt f/u with neuro after this hospital course
   .
   # DVT:
   -- lovenox
   .
    # COPD: no active issues
   - cont inhalers
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2169-4-22**] 01:04 AM 65 mL/hour
   Glycemic Control:  insulin sliding scale
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   20 Gauge - [**2169-4-21**] 01:09 PM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: boyfriend [**Name (NI) **] [**Name (NI) 513**] [**Telephone/Fax (1) 514**], brother [**Name (NI) 509**]
   [**Telephone/Fax (1) 511**]
   Code status: Full code
   Disposition: ICU over weekend, will aim for discharge to rehab on
   Monday, after optimization of delirium and reflux regimen

2169-04-22 10:09:00 Physician Attending Progress Note
Chief Complaint: respiratory insurffciency
   HPI:
   57 year old with PMH trancheobronchial malacia, in midst of long ICU
   stay for secretions, tracheobronchitis
   24 Hour Events:
   Bilous reflux
   Improved agitation
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2169-4-21**] 04:00 AM
   Meropenem - [**2169-4-22**] 04:47 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2169-4-21**] 08:26 PM
   Pantoprazole (Protonix) - [**2169-4-21**] 10:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Psychiatric / Sleep: Agitated
   Flowsheet Data as of  [**2169-4-22**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.7
   HR: 113 (69 - 115) bpm
   BP: 89/78(81) {89/42(54) - 141/93(97)} mmHg
   RR: 24 (12 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.5 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  4,117 mL
                                                                  1,834 mL
   PO:
             TF:
                                                                    797 mL
                                                                    655 mL
   IVF:
                                                                  1,370 mL
                                                                    249 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                    430 mL
   Urine:
                                                                  1,560 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,557 mL
                                                                  1,404 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 332 (255 - 427) mL
   PS : 10 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 150
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ///32/
   Ve: 8.6 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   289 K/uL
   116 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.4 mEq/L
   9 mg/dL
   112 mEq/L
   149 mEq/L
   27.2 %
   7.7 K/uL
        [image002.jpg]
                             [**2169-4-18**]  06:53 PM
                             [**2169-4-19**]  03:36 AM
                             [**2169-4-19**]  11:46 AM
                             [**2169-4-19**]  07:14 PM
                             [**2169-4-20**]  01:48 AM
                             [**2169-4-20**]  04:19 AM
                             [**2169-4-20**]  11:00 AM
                             [**2169-4-20**]  06:09 PM
                             [**2169-4-21**]  02:36 AM
                             [**2169-4-22**]  04:05 AM
   WBC
   10.9
   10.4
   7.3
   10.0
   7.7
   Hct
   23.7
   24.8
   22.6
   27.8
   27.4
   29.3
   30.4
   28.7
   27.2
   Plt
   [**Telephone/Fax (3) 12513**]41
   289
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   Glucose
   165
   100
   87
   95
   113
   116
   Other labs: PT / PTT / INR:15.0/32.7/1.3, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:36/17, Alk Phos / T Bili:195/0.2,
   Amylase / Lipase:/21, Differential-Neuts:73.5 %, Lymph:22.2 %, Mono:2.8
   %, Eos:1.2 %, Fibrinogen:351 mg/dL, Lactic Acid:0.4 mmol/L, Albumin:2.4
   g/dL, LDH:166 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Agree with assesment and plan as outlined in resident note. Would add
   emphasize:
   RESPIRATORY FAILURE  -- tolerating trach mask during the day,
   mechanical ventilator support (IPS) overnight.   Plan for rehab with
   vent.  Would consider Passe-Muir valve.
   PNEUONIA
 Continues with secretions, but perhaps decreasing.
   Completing Day [**10-22**] meropenem
   DELERIUM -- much improved on haldol. QT interval stable by ECG
   DYSPHAGIA/REFLUX -- Aprreciate GI input, emptying study, impedance
   study.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2169-4-22**] 07:08 AM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   20 Gauge - [**2169-4-21**] 01:09 PM
   Comments: DC line after last does of meropenem
   Prophylaxis:
   DVT: Systemic Anticoagulation
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility when bed
   available
   Total time spent: 35 minutes
   Pt. remains critically ill (ventilator support)

2169-04-23 07:07:00 Physician Resident Progress Note
Chief Complaint: 57yo F with TBM ( s/p multiple stents and trach),
   COPD, ETOH-ism, and AMS admitted >1 month ago after being found
   unresponsive at home. Active issues continue to be excessive
   secretions, atrial ectopy and delerium.
   24 Hour Events:
   - GI  studies pending - likley to occur early next week --> gastric
   emptying study and impedance study
   - PIV placed, will plan to pull subclavial CVL as just completed
   meropenen
   - patient's agitation under better control on haldol 0.5/0.5/1mg
   regimen. Keeping QTC<0.5
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2169-4-21**] 04:00 AM
   Meropenem - [**2169-4-23**] 04:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2169-4-22**] 08:00 PM
   Pantoprazole (Protonix) - [**2169-4-22**] 10:00 PM
   Carafate (Sucralfate) - [**2169-4-23**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-23**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.9
C (98.5
   HR: 102 (72 - 136) bpm
   BP: 118/79(89) {85/41(56) - 177/108(111)} mmHg
   RR: 25 (12 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.5 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  5,341 mL
                                                                  2,093 mL
   PO:
             TF:
                                                                  1,570 mL
                                                                    457 mL
   IVF:
                                                                  1,911 mL
                                                                    915 mL
   Blood products:
   Total out:
                                                                  3,010 mL
                                                                  1,520 mL
   Urine:
                                                                  3,010 mL
                                                                  1,520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,331 mL
                                                                    573 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 310 (304 - 409) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 10.9 L/min
   Physical Examination
   General:  limited verbal communication, A&O x2 today , no acute
   distress
   HEENT:  OP clear, PERRL, EOMI, anicteric sclerae
   LUNGS:  mild bibasilar crackles
   CVS : rapid but regular rate, no murmurs
   ABD: soft,  nontender,  no guarding
   EXT: 2+ pedal pulses, warm
   Labs / Radiology
   275 K/uL
   8.8 g/dL
   117 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.2 mEq/L
   9 mg/dL
   108 mEq/L
   145 mEq/L
   28.0 %
   8.1 K/uL
        [image002.jpg]
                             [**2169-4-19**]  11:46 AM
                             [**2169-4-19**]  07:14 PM
                             [**2169-4-20**]  01:48 AM
                             [**2169-4-20**]  04:19 AM
                             [**2169-4-20**]  11:00 AM
                             [**2169-4-20**]  06:09 PM
                             [**2169-4-21**]  02:36 AM
                             [**2169-4-22**]  04:05 AM
                             [**2169-4-22**]  08:57 PM
                             [**2169-4-23**]  03:52 AM
   WBC
   10.4
   7.3
   10.0
   7.7
   8.1
   Hct
   24.8
   22.6
   27.8
   27.4
   29.3
   30.4
   28.7
   27.2
   28.0
   Plt
   [**Telephone/Fax (3) 12533**]89
   275
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   Glucose
   87
   95
   113
   116
   108
   117
   Other labs: PT / PTT / INR:15.0/32.7/1.3, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:36/17, Alk Phos / T Bili:195/0.2,
   Amylase / Lipase:/21, Differential-Neuts:73.5 %, Lymph:22.2 %, Mono:2.8
   %, Eos:1.2 %, Fibrinogen:351 mg/dL, Lactic Acid:0.4 mmol/L, Albumin:2.4
   g/dL, LDH:166 IU/L, Ca++:7.7 mg/dL, Mg++:1.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan:
   57-year-old woman with history of tracheobronchial with long ICU course
   here on treatment for VAP and on trach mask/pressure support
   intermittently with improved delirium on haldol.
   .
   # Agitated Delirium:  [**2-14**] ICU delirium, infection, lyte disturbance
   - continue haldol, follow daily ekg
   - redirect frequently
   - psych input appreciated
   # Oropharyngeal dysphagia: S & S eval indicated pharnygeal muscle
   weakness.  Has continued to have bilious emesis
   -- get GI opinion on further evaluation/treatment of reflux
   --will need intensive rehab
   --continue scop patch
   -- continue reglan
 held erythromycin due to qtc concerns with reglan
   -- continue tube feeds, no need to hold
   -- continue suctioning
   # Tachycardia, h/o PAF. Improved on increased dilt dosing. Management
   of delirium also helps tachycardia
   --cont increased dose of diltiazem
   --continue lovenox
   --f/u i+o gain net even
   # Tracheobronchitis
   Only low grade temps in last 24h, WBC improved
   Treating for suspected VAP versus tracheobronchitis with meropenem (d1=
   [**4-13**], today d10) plan for 10 day course. Cxs remain negative.
   - complete [**Last Name (un) **] course today
   - f/u pending micro, culture if spikes
   # Blood loss anemia, h/o gastritis and esophagitis
   Hct has remained stable, has not required transfusion for >24hrs Likely
   slow ooze from known gastritis/esophagitis
   - trend hct [**Hospital1 **] for now, transfuse hct>25
   - continue ppi, maintain active t+s
   - continue lovenox
   # Hypernatremia
   Continue free h20 flushes, will recalculate free water deficit and
   consider D5W
   Check PM Na
   # Respiratory failure: TBM with trach in place. Will likely require
   long term weaning.
   --continue trach mask during day, pressure support at night. Has been
   tolerating this well
   --Appreciate IP recs
   --management of secretions as per above
   .
   # Sz Activity:
   No recent seizures. Per d/w neuro, have discontinued phenytoin.
   --needs outpt f/u with neuro after this hospital course
   .
   # DVT:
   -- lovenox
   .
    # COPD: no active issues
   - cont inhalers
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2169-4-23**] 01:28 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2169-04-23 10:53:00 Physician Attending Progress Note
Chief Complaint: Respiratory insuffciency
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see previous notes for details. Hx TBM, now s/p trach.
   24 Hour Events:
   Delerium
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2169-4-21**] 04:00 AM
   Meropenem - [**2169-4-23**] 10:17 AM
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2169-4-22**] 08:00 PM
   Pantoprazole (Protonix) - [**2169-4-22**] 10:00 PM
   Carafate (Sucralfate) - [**2169-4-23**] 04:00 AM
   Haloperidol (Haldol) - [**2169-4-23**] 09:25 AM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Denies tachycardia, dyspnea
   Respiratory: No respiratory complaints
   Psychiatric / Sleep: Delirious
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2169-4-23**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.4
C (97.5
   HR: 114 (72 - 136) bpm
   BP: 135/59(76) {85/41(56) - 177/133(139)} mmHg
   RR: 14 (13 - 30) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.5 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  5,341 mL
                                                                  2,693 mL
   PO:
             TF:
                                                                  1,570 mL
                                                                    495 mL
   IVF:
                                                                  1,911 mL
                                                                  1,167 mL
   Blood products:
   Total out:
                                                                  3,010 mL
                                                                  2,120 mL
   Urine:
                                                                  3,010 mL
                                                                  2,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,331 mL
                                                                    573 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 310 (304 - 409) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 16 cmH2O
   SpO2: 90%
   ABG: ///31/
   Ve: 10.9 L/min
   Physical Examination
   General Appearance: somnolent
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Bronchial: , Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   275 K/uL
   117 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.2 mEq/L
   9 mg/dL
   108 mEq/L
   145 mEq/L
   28.0 %
   8.1 K/uL
        [image002.jpg]
                             [**2169-4-19**]  11:46 AM
                             [**2169-4-19**]  07:14 PM
                             [**2169-4-20**]  01:48 AM
                             [**2169-4-20**]  04:19 AM
                             [**2169-4-20**]  11:00 AM
                             [**2169-4-20**]  06:09 PM
                             [**2169-4-21**]  02:36 AM
                             [**2169-4-22**]  04:05 AM
                             [**2169-4-22**]  08:57 PM
                             [**2169-4-23**]  03:52 AM
   WBC
   10.4
   7.3
   10.0
   7.7
   8.1
   Hct
   24.8
   22.6
   27.8
   27.4
   29.3
   30.4
   28.7
   27.2
   28.0
   Plt
   [**Telephone/Fax (3) 12533**]89
   275
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   Glucose
   87
   95
   113
   116
   108
   117
   Other labs: PT / PTT / INR:15.0/32.7/1.3, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:36/17, Alk Phos / T Bili:195/0.2,
   Amylase / Lipase:/21, Differential-Neuts:73.5 %, Lymph:22.2 %, Mono:2.8
   %, Eos:1.2 %, Fibrinogen:351 mg/dL, Lactic Acid:0.4 mmol/L, Albumin:2.4
   g/dL, LDH:166 IU/L, Ca++:7.7 mg/dL, Mg++:1.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   57F with tracheobronchomalacia admitted with occlusion of stent and
   recurrent pneumonia.
   Tracheobronchomalacia
   -stent in place
   -IP following
   Chronic resp failure
   -TM day, PSV at night
   Presumed aspiration pneumonia
   -completed abx course
   -gastric motility workup
 She is awaiting impedance and gastric
   emptying studies, but could happen as outpatient.
   ICU delerium
   -continue to treat with haldol.
   Ready for vent rehab.
   I agree with remainder of the plan as outlined in the resident note.
   ICU Care
   Nutrition:
   Comments: Po diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2169-4-6**] 10:30 PM
   Comments: Place PIV and pull CVC today
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes

2169-04-24 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -increased QHS and PRN doses of Haldol
   -placed PIVs, CVL pulled as meropenem course now completed
   - QTc rechecked and normal at 8pm, in for repeat EKG am
   - gastric motility workup would happen as outpatient
   - GI note rec additional H2B with Protonix
 added ranitidine 150mg [**Hospital1 **]
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-4-23**] 10:17 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2169-4-23**] 09:25 AM
   Pantoprazole (Protonix) - [**2169-4-23**] 09:00 PM
   Enoxaparin (Lovenox) - [**2169-4-23**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-24**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 73 (69 - 121) bpm
   BP: 86/43(53) {81/40(50) - 162/112(138)} mmHg
   RR: 10 (0 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.5 kg (admission): 80.8 kg
   Height: 66 Inch
                  Total In:
                                                                  4,537 mL
                                                                  1,066 mL
   PO:
                  TF:
                                                                  1,565 mL
                                                                    481 mL
   IVF:
                                                                  1,262 mL
   Blood products:
   Total out:
                                                                  3,835 mL
                                                                    289 mL
   Urine:
                                                                  3,535 mL
                                                                    289 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    702 mL
                                                                    777 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 393 (228 - 473) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 8 L/min
   Physical Examination
   Gen: Awake, alert, communicating (by mouthing) appropriately, no
   restraints in place
   HEENT: PERRL
   Lungs: Upper airway noises, decreased BS at bases
   CV: RR, no murmurs
   Abd: soft, NT
   Ext: WWP, no LE edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   262 K/uL
   8.5 g/dL
   117 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.2 mEq/L
   9 mg/dL
   108 mEq/L
   145 mEq/L
   27.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2169-4-19**]  07:14 PM
                             [**2169-4-20**]  01:48 AM
                             [**2169-4-20**]  04:19 AM
                             [**2169-4-20**]  11:00 AM
                             [**2169-4-20**]  06:09 PM
                             [**2169-4-21**]  02:36 AM
                             [**2169-4-22**]  04:05 AM
                             [**2169-4-22**]  08:57 PM
                             [**2169-4-23**]  03:52 AM
                             [**2169-4-24**]  06:03 AM
   WBC
   7.3
   10.0
   7.7
   8.1
   7.7
   Hct
   22.6
   27.8
   27.4
   29.3
   30.4
   28.7
   27.2
   28.0
   27.1
   Plt
   [**Telephone/Fax (3) 12562**]75
   262
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   Glucose
   87
   95
   113
   116
   108
   117
   Other labs: PT / PTT / INR:15.0/32.7/1.3, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:36/17, Alk Phos / T Bili:195/0.2,
   Amylase / Lipase:/21, Differential-Neuts:73.5 %, Lymph:22.2 %, Mono:2.8
   %, Eos:1.2 %, Fibrinogen:351 mg/dL, Lactic Acid:0.4 mmol/L, Albumin:2.4
   g/dL, LDH:166 IU/L, Ca++:7.7 mg/dL, Mg++:1.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   57-year-old woman with history of tracheobronchial malacia with long
   ICU course here on treatment for VAP and on trach mask/pressure support
   intermittently with improved delirium on haldol awaiting rehab bed for
   long term vent weaning
   .
   # Delirium:  [**2-14**] ICU delirium, infection, lyte disturbance. Improved on
   increased haldol yesterday, off restraints this AM. QTC .45 on this
   regimen
   - continue haldol 0.5mg/0.5mg/2mg and 1mg PO BID prn
   - follow EKG daily, goal QTC<0.5
   - redirect frequently
   # Respiratory failure: TBM with trach in place. Will likely require
   long term weaning.
   --continue trach mask during day, pressure support at night. Has been
   tolerating this well
   --Appreciate IP recs
   --management of secretions as per above
   # Oropharyngeal dysphagia: S & S eval indicated pharnygeal muscle
   weakness.  Has had no bilous emesis overnight. GI following and has
   recommendations for outpatient impedance and gastric motility studies.
   Also, we added H2 blocker in addition to PPI per GI
   -- continue PPI and H2 blocker
   --will need intensive rehab
   --continue scop patch
   -- continue reglan
   -- continue tube feeds, no need to hold
   -- continue suctioning
   -- will need GI followup as outpatient
   # Tachycardia, h/o PAF. Resolved. Likely in setting of delirium, now
   improved.
   --cont increased dose of diltiazem
   --continue lovenox
   --f/u i+o gain net even
   # Tracheobronchitis/pna: s/p 10d of meropenem (last day [**4-23**]). No fever
   spikes since
   # Blood loss anemia, h/o gastritis and esophagitis
   Hct has remained stable, has not required transfusion for >48s Likely
   slow ooze from known gastritis/esophagitis
   - trend hct daily for now transfuse hct>25
   - continue ppi, maintain active t+s
   .
   # Sz Activity:
   No recent seizures. Per d/w neuro, have discontinued phenytoin.
   --needs outpt f/u with neuro after this hospital course
   .
   # DVT:
   -- lovenox
   .
    # COPD: no active issues
   - cont inhalers
   ICU Care
   Nutrition: TF
   Vivonex (Full) - [**2169-4-24**] 02:00 AM 65 mL/hour
   Glycemic Control:  ISS
   Lines:
   22 Gauge - [**2169-4-23**] 05:29 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: PPI and H2 blocker
   VAP:
   Comments:
   Communication:  Comments: brother and boyfriend
   [**Name (NI) 156**] status: Full code
   Disposition: [**Hospital **] rehab bed
 medically stable for discharge to
   rehab facility for long term weaning

2169-04-24 10:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo F with COPD, TBM who presented with respiratory failure.  She is
   now improving after Y-stent, trach and peg.
   24 Hour Events:
   CVL discontinued after completing course of meropenem
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-4-23**] 10:17 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-4-23**] 09:00 PM
   Enoxaparin (Lovenox) - [**2169-4-23**] 09:00 PM
   Other medications:
   chlorhexadine
   folic acid 1 po
   lovenox 80 [**Hospital1 **]
   fwb
   diltiazem 90 qid
   haldol 0.5 [**Hospital1 **], 2mg po qhs
   reglan 10 tid
   pantoprazole
   sucralfate
   ranitidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-24**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 73 (69 - 121) bpm
   BP: 86/43(53) {81/40(50) - 150/112(138)} mmHg
   RR: 10 (0 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.5 kg (admission): 80.8 kg
   Height: 66 Inch
                  Total In:
                                                                  4,537 mL
                                                                  1,227 mL
   PO:
                  TF:
                                                                  1,565 mL
                                                                    642 mL
   IVF:
                                                                  1,262 mL
   Blood products:
   Total out:
                                                                  3,835 mL
                                                                    289 mL
   Urine:
                                                                  3,535 mL
                                                                    289 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    702 mL
                                                                    938 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 445 (228 - 473) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 7 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Rhonchorous:
   coarse, bilateral)
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   262 K/uL
   108 mg/dL
   0.6 mg/dL
   33 mEq/L
   4.1 mEq/L
   12 mg/dL
   105 mEq/L
   144 mEq/L
   27.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2169-4-19**]  07:14 PM
                             [**2169-4-20**]  01:48 AM
                             [**2169-4-20**]  04:19 AM
                             [**2169-4-20**]  11:00 AM
                             [**2169-4-20**]  06:09 PM
                             [**2169-4-21**]  02:36 AM
                             [**2169-4-22**]  04:05 AM
                             [**2169-4-22**]  08:57 PM
                             [**2169-4-23**]  03:52 AM
                             [**2169-4-24**]  06:03 AM
   WBC
   7.3
   10.0
   7.7
   8.1
   7.7
   Hct
   22.6
   27.8
   27.4
   29.3
   30.4
   28.7
   27.2
   28.0
   27.1
   Plt
   [**Telephone/Fax (3) 12562**]75
   262
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   Glucose
   87
   95
   113
   116
   108
   117
   108
   Other labs: PT / PTT / INR:15.0/32.7/1.3, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:36/17, Alk Phos / T Bili:195/0.2,
   Amylase / Lipase:/21, Differential-Neuts:73.5 %, Lymph:22.2 %, Mono:2.8
   %, Eos:1.2 %, Fibrinogen:351 mg/dL, Lactic Acid:0.4 mmol/L, Albumin:2.4
   g/dL, LDH:166 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   57 yo F TBM, COPD, s/p treatment for VAP now with trach/peg and Y-stent
   in place
   1. Delirium: overall imprpving
    - cont haldol 0.5 [**Hospital1 **] and 2 mg qhs
    - daily EKG to monitor QTc
    - mg > 2,K>4
   2. Oropharyngeal dysphagia/reflux
    - cont reglan, PPI, H2 blocker
    - GI has recommended gastric emptying study, will need to coordinate
   appropriate study given her inability to take POs
    - impedence study as outpatient
   3. AFib/tachycardia
    - improving on diltiazem
    - cont lovenox
   4. Anemia: stable
   5. gastritis: appears stable with no further hct drop, cont PPI
   6. Respiratory failure: TBM, gastric reflux, oral secretions, but
   overall improving
    - cont TM during the day and vent at night
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2169-4-24**] 08:09 AM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2169-4-23**] 05:29 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes

2169-04-25 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient unable to go to rehab as needs to be off IV haldol and
   restraints for>48hrs
   - overnight had some agitation which responded to extra dose 1mg PO
   haldol x 1
   - Will be rescreened [**4-25**] in AM
   - pulled out foley this a.m.
   Subjective: Feels okay this morning. [**Name8 (MD) **] RN, paranoid that someone is
trying to take her money
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-4-23**] 10:17 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-25**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.6
C (99.6
   HR: 103 (66 - 120) bpm
   BP: 141/53(77) {84/41(51) - 154/78(86)} mmHg
   RR: 20 (9 - 31) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.5 kg (admission): 80.8 kg
   Height: 66 Inch
                  Total In:
                                                                  3,675 mL
                                                                  1,108 mL
   PO:
                  TF:
                                                                  1,570 mL
                                                                    488 mL
   IVF:
   Blood products:
   Total out:
                                                                  3,049 mL
                                                                    610 mL
   Urine:
                                                                  2,649 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    626 mL
                                                                    498 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 401 (390 - 580) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: ///33/
   Ve: 7.5 L/min
   Physical Examination
   General: Sitting in bed, no acute distress
   HEENT: Anicteric
   Pulm: Lungs clear bilaterally, no rales
   CV: Regular S1 S2 no m/r/g
   Abd: Soft nontender +bowel sounds
   Extrem: Warm no edema
   Neuro: Oriented to [**Hospital1 5**], [**2169**], has trouble completing days of week
   backwards. Moving extremities, follows commands.
   Labs / Radiology
   256 K/uL
   9.2 g/dL
   104 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.8 mEq/L
   10 mg/dL
   105 mEq/L
   145 mEq/L
   28.7 %
   7.4 K/uL
        [image002.jpg]
   UA negative, Urine Cx pending
                             [**2169-4-20**]  01:48 AM
                             [**2169-4-20**]  04:19 AM
                             [**2169-4-20**]  11:00 AM
                             [**2169-4-20**]  06:09 PM
                             [**2169-4-21**]  02:36 AM
                             [**2169-4-22**]  04:05 AM
                             [**2169-4-22**]  08:57 PM
                             [**2169-4-23**]  03:52 AM
                             [**2169-4-24**]  06:03 AM
                             [**2169-4-25**]  02:24 AM
   WBC
   7.3
   10.0
   7.7
   8.1
   7.7
   7.4
   Hct
   27.8
   27.4
   29.3
   30.4
   28.7
   27.2
   28.0
   27.1
   28.7
   Plt
   [**Telephone/Fax (3) 12562**]75
   262
   256
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   Glucose
   95
   113
   116
   108
   117
   108
   104
   Other labs: PT / PTT / INR:15.0/32.7/1.3, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:36/17, Alk Phos / T Bili:195/0.2,
   Amylase / Lipase:/21, Differential-Neuts:73.5 %, Lymph:22.2 %, Mono:2.8
   %, Eos:1.2 %, Fibrinogen:351 mg/dL, Lactic Acid:0.4 mmol/L, Albumin:2.4
   g/dL, LDH:166 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   57-year-old woman with history of tracheobronchial malacia with long
   ICU course here on treatment for VAP and on trach mask/pressure support
   intermittently with improved delirium on haldol awaiting rehab bed for
   long term vent weaning
   .
   # Delirium:  [**2-14**] ICU delirium, infection, lyte disturbance. Improved on
   increased haldol yesterday, off restraints this AM. QTC .45 on this
   regimen
   - continue haldol 0.5mg/0.5mg/2mg and 1mg PO BID prn
   - follow EKG daily, goal QTC<0.5
   - redirect frequently
   - repeat UA/UCX
   .
   #Diarrhea : likely from tubes feeds but given recent antibiotics
   C.difficile in differential as well. Patient has no WBC elevation but
   had a mild elevation in temp to 100.2F last night.
   - will f/up C.diff pending and notify rehab if positive
   -
   # Respiratory failure: TBM with trach in place. Will likely require
   long term weaning.
   --continue trach mask during day, pressure support at night. Has been
   tolerating this well
   --Appreciate IP recs
   --management of secretions as per above
   # Oropharyngeal dysphagia: S & S eval indicated pharnygeal muscle
   weakness.  Has had no bilous emesis overnight. GI following and has
   recommendations for outpatient impedance and gastric motility studies.
   Also, we added H2 blocker in addition to PPI per GI
   -- continue PPI and H2 blocker
   --will need intensive rehab
   --continue scop patch
   -- continue reglan
   -- continue tube feeds, no need to hold
   -- continue suctioning
   -- will need GI followup as outpatient
   # Tachycardia, h/o PAF. Resolved. Likely in setting of delirium, now
   improved.
   --cont increased dose of diltiazem
   --continue lovenox
   --f/u i+o gain net even
   # Tracheobronchitis/pna: s/p 10d of meropenem (last day [**4-23**]). No fever
   spikes since
   # Blood loss anemia, h/o gastritis and esophagitis
   Hct has remained stable, has not required transfusion for >48s Likely
   slow ooze from known gastritis/esophagitis
   - trend hct daily for now transfuse hct>25
   - continue ppi, maintain active t+s
   .
   # Sz Activity:
   No recent seizures. Per d/w neuro, have discontinued phenytoin.
   --needs outpt f/u with neuro after this hospital course
   .
   # DVT:
   -- lovenox
   .
    # COPD: no active issues
   - cont inhalers
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2169-4-25**] 02:18 AM 65 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2169-4-23**] 05:29 PM
   Prophylaxis:
   DVT:  heparin SQ
   Stress ulcer:  ppi
   VAP:  mouthcare, head of bed elevation
   Communication:
   Code status: Full code
   Disposition: screening for rehab

2169-04-25 11:55:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo F COPD, TBM, presented with respiratory failure likely [**2-14**]
   progression of TBM, now improving s/p Y-stent placement, trach, peg.
   24 Hour Events:
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-4-23**] 10:17 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-25**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (99
   HR: 119 (66 - 120) bpm
   BP: 120/66(80) {103/52(64) - 154/68(86)} mmHg
   RR: 22 (9 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.5 kg (admission): 80.8 kg
   Height: 66 Inch
                  Total In:
                                                                  3,675 mL
                                                                  1,810 mL
   PO:
                  TF:
                                                                  1,570 mL
                                                                    760 mL
   IVF:
   Blood products:
   Total out:
                                                                  3,049 mL
                                                                  1,280 mL
   Urine:
                                                                  2,649 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    626 mL
                                                                    530 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 401 (390 - 580) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: ///33/
   Ve: 7.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   256 K/uL
   104 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.8 mEq/L
   10 mg/dL
   105 mEq/L
   145 mEq/L
   28.7 %
   7.4 K/uL
        [image002.jpg]
                             [**2169-4-20**]  01:48 AM
                             [**2169-4-20**]  04:19 AM
                             [**2169-4-20**]  11:00 AM
                             [**2169-4-20**]  06:09 PM
                             [**2169-4-21**]  02:36 AM
                             [**2169-4-22**]  04:05 AM
                             [**2169-4-22**]  08:57 PM
                             [**2169-4-23**]  03:52 AM
                             [**2169-4-24**]  06:03 AM
                             [**2169-4-25**]  02:24 AM
   WBC
   7.3
   10.0
   7.7
   8.1
   7.7
   7.4
   Hct
   27.8
   27.4
   29.3
   30.4
   28.7
   27.2
   28.0
   27.1
   28.7
   Plt
   [**Telephone/Fax (3) 12562**]75
   262
   256
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   Glucose
   95
   113
   116
   108
   117
   108
   104
   Other labs: PT / PTT / INR:15.0/32.7/1.3, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:36/17, Alk Phos / T Bili:195/0.2,
   Amylase / Lipase:/21, Differential-Neuts:73.5 %, Lymph:22.2 %, Mono:2.8
   %, Eos:1.2 %, Fibrinogen:351 mg/dL, Lactic Acid:0.4 mmol/L, Albumin:2.4
   g/dL, LDH:166 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   57 yo F COPD, TBM, presented with respiratory failure likely [**2-14**]
   progression of TBM, now improving s/p Y-stent placement, trach, peg.
   1. agitation: improving on stable haldol
     - continue reorientation, day-night stability
     - no current s/sx infection
   2. Respiratory failure: much improved
    - cont PSV at night, tcm during the day
   3. ? SZR: off depakote and follow-up with neurology
   4. upper extremity dvts: cont lovenox and start coumadin transition at
   rehab
   5. GI work-up: will need to be deferred until she regains strength and
   is able to tolerate PO diet
    - cont reglan, erythromycin, ppi and H2 blocker
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2169-4-25**] 08:25 AM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2169-4-23**] 05:29 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes

2169-04-26 06:29:00 Physician Resident Progress Note
Chief Complaint:
   57yo F with tracheobronchial malacia  ( s/p re-stenting & trach), here
   for  long ICU course for respiratory failure,  VAP,  and delirium/brain
   injury awaiting rehab bed for long term vent weaning
   24 Hour Events:
   - didn't go to rehab [**2-14**] insurance delay
 bed is held at rehab
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2169-4-23**] 10:17 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-4-25**] 08:00 AM
   Carafate (Sucralfate) - [**2169-4-25**] 04:00 PM
   Enoxaparin (Lovenox) - [**2169-4-25**] 09:30 PM
   Ranitidine (Prophylaxis) - [**2169-4-25**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-26**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 70 (70 - 119) bpm
   BP: 115/60(73) {115/60(73) - 143/99(106)} mmHg
   RR: 16 (11 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.5 kg (admission): 80.8 kg
   Height: 66 Inch
                  Total In:
                                                                  3,614 mL
                                                                    371 mL
   PO:
                  TF:
                                                                  1,564 mL
                                                                    371 mL
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                    600 mL
   Urine:
                                                                  2,300 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,214 mL
                                                                   -229 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 329 (327 - 368) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 5.4 L/min
   Physical Examination:
   General:  no acute distress, lying in bed
   HEENT:  PERRL, EOMI, anicteric sclerae, OP clear
   Pulm: Lungs clear bilaterally, no rales
   CVS: Regular S1/S2, no murmurs/rubs/gallops,  regular rate now
   ABD:  Soft, nontender,  normoactive bowel sounds, G-J tube c/d/i
   Extrem:  2+ pedal pulses, warm, no edema
   Skin:  no  new lesions, pale
   Neuro: Oriented x 1 now, moving extremities
   Labs / Radiology
   256 K/uL
   9.2 g/dL
   104 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.8 mEq/L
   10 mg/dL
   105 mEq/L
   145 mEq/L
   28.7 %
   7.4 K/uL
        [image002.jpg]
                             [**2169-4-20**]  01:48 AM
                             [**2169-4-20**]  04:19 AM
                             [**2169-4-20**]  11:00 AM
                             [**2169-4-20**]  06:09 PM
                             [**2169-4-21**]  02:36 AM
                             [**2169-4-22**]  04:05 AM
                             [**2169-4-22**]  08:57 PM
                             [**2169-4-23**]  03:52 AM
                             [**2169-4-24**]  06:03 AM
                             [**2169-4-25**]  02:24 AM
   WBC
   7.3
   10.0
   7.7
   8.1
   7.7
   7.4
   Hct
   27.8
   27.4
   29.3
   30.4
   28.7
   27.2
   28.0
   27.1
   28.7
   Plt
   [**Telephone/Fax (3) 12562**]75
   262
   256
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   Glucose
   95
   113
   116
   108
   117
   108
   104
   Other labs: PT / PTT / INR:15.0/32.7/1.3, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:36/17, Alk Phos / T Bili:195/0.2,
   Amylase / Lipase:/21, Differential-Neuts:73.5 %, Lymph:22.2 %, Mono:2.8
   %, Eos:1.2 %, Fibrinogen:351 mg/dL, Lactic Acid:0.4 mmol/L, Albumin:2.4
   g/dL, LDH:166 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan:
   57-year-old woman with history of tracheobronchial malacia with long
   ICU course here on treatment for VAP and on trach mask/pressure support
   intermittently with improved delirium on haldol awaiting rehab bed for
   long term vent weaning
   .
   # Delirium:  [**2-14**] ICU delirium, infection, lyte disturbance. Improved on
   increased haldol yesterday, off restraints >48hr. QTC .45 on this
   regimen
   - continue haldol 0.5mg/0.5mg/2mg and 1mg PO BID prn
   - follow EKGs with goal QTC<0.5
   - redirect frequently
   - f/up recent urine culture ( UA neg)
   .
   #Diarrhea : likely from tube feeds but given recent antibiotics
   C.difficile in differential as well. Patient has no WBC elevation but
   had a mild elevation in temp again last night.
   - cdiff negative
   - likely just from tube feeds
   - can give banana flakes prn
   # Respiratory failure: TBM with trach in place. Will now need long term
   weaning. Plan is to continue trach mask during day, pressure support at
   night. Has been tolerating this well
   --Appreciate IP recs.
   --Outpatient f/up has been arranged
   --management of secretions as per above
   # Oropharyngeal dysphagia: S & S eval indicated swallowing muscle
   weakness.  Has had no additional bilious emesis overnight. GI following
   and has recommendations for outpatient impedance and gastric motility
   studies. Also, we added H2 blocker in addition to PPI per GI. No reflux
   >24 hours
   -- continue PPI and H2 blocker
   --will need intensive rehab
   --continue scopolamine  patch
   -- continue reglan
   -- continue tube feeds, no need to hold
   -- continue suctioning
   -- has had GI followup arranged as outpatient
   # Tachycardia, h/o PAF. Resolving slowly. Atrial ectopy has tapered off
   now after recent uptitration of Diltiazem. Mostly all sinus tachycardia
   now that seems to flare up with delirium and agitation episodes.
   --cont increased dose of diltiazem
   --continue Lovenox & warfarin
   --f/up I/Os, continue to keep even
   # Recent HAP PNA :  now  s/p 10d of meropenem (last day [**4-23**]).  Mild
   fever since but no changes in usual sputum and secretions. Recent
   blood/sputum cultures all negative.
   # Blood loss anemia, h/o gastritis and esophagitis:  Hct has remained
   stable in the 27-28 range, has not required transfusion for several
   days. Likely slow ooze from known gastritis/esophagitis. GI aware and
   plan to follow-up as outpatient.
   - trend Hct daily for now transfuse hct>25
   - continue PPI and H2B, maintain active T&S
   .
   # Seizure Activity: No recent seizures. Per d/w neuro, have
   discontinued phenytoin at this time.
   --patient will plan to follow-up as outpt with neuro after this
   hospital course
   .
   # DVT:
   -- on lovenox,  can start on Coumadin at rehab ( goal INR [**2-15**], then can
   d/c lovenox)
   .
    # COPD: no active issues
   - cont inhalers
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  ISS
   Lines:
   22 Gauge - [**2169-4-25**] 07:20 PM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: PPI and H2 blocker
   VAP:
   Comments:
   Communication:  Comments: Boyfriend and brother
   [**Name (NI) 156**] status: Full code
   Disposition: ICU, awaiting rehab bed for long term vent weaning

2169-04-26 11:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo F COPD, TBM who presented with respiratory failure [**2-14**] COPD/TBM
   now improved s/p ysten and trach/peg placement, awaiting transfer to
   vent rehabiilitation facility
   24 Hour Events:
   she has been stable overnight with no events
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Carafate (Sucralfate) - [**2169-4-25**] 04:00 PM
   Ranitidine (Prophylaxis) - [**2169-4-25**] 09:30 PM
   Enoxaparin (Lovenox) - [**2169-4-26**] 08:39 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-26**] 11:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.7
   HR: 124 (64 - 124) bpm
   BP: 165/76(93) {104/58(73) - 165/99(106)} mmHg
   RR: 22 (8 - 32) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.5 kg (admission): 80.8 kg
   Height: 66 Inch
                  Total In:
                                                                  3,614 mL
                                                                  1,251 mL
   PO:
                  TF:
                                                                  1,564 mL
                                                                    761 mL
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                  1,230 mL
   Urine:
                                                                  2,300 mL
                                                                  1,230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,214 mL
                                                                     21 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: Standby
   Vt (Spontaneous): 530 (327 - 530) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 96%
   ABG: ///30/
   Ve: 5.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, ETT tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Rhonchorous:
   bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   9.3 g/dL
   230 K/uL
   98 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.4 mEq/L
   10 mg/dL
   104 mEq/L
   143 mEq/L
   30.9 %
   7.0 K/uL
        [image002.jpg]
                             [**2169-4-20**]  04:19 AM
                             [**2169-4-20**]  11:00 AM
                             [**2169-4-20**]  06:09 PM
                             [**2169-4-21**]  02:36 AM
                             [**2169-4-22**]  04:05 AM
                             [**2169-4-22**]  08:57 PM
                             [**2169-4-23**]  03:52 AM
                             [**2169-4-24**]  06:03 AM
                             [**2169-4-25**]  02:24 AM
                             [**2169-4-26**]  06:38 AM
   WBC
   7.3
   10.0
   7.7
   8.1
   7.7
   7.4
   7.0
   Hct
   27.4
   29.3
   30.4
   28.7
   27.2
   28.0
   27.1
   28.7
   30.9
   Plt
   [**Telephone/Fax (3) 12562**]75
   262
   256
   230
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   0.7
   Glucose
   95
   113
   116
   108
   117
   108
   104
   98
   Other labs: PT / PTT / INR:15.0/32.7/1.3, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:36/17, Alk Phos / T Bili:195/0.2,
   Amylase / Lipase:/21, Differential-Neuts:58.6 %, Lymph:34.3 %, Mono:4.2
   %, Eos:2.4 %, Fibrinogen:351 mg/dL, Lactic Acid:0.4 mmol/L, Albumin:2.4
   g/dL, LDH:166 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   57 yo F COPD, TBM who presented with respiratory failure [**2-14**] COPD/TBM
   now improved s/p ysten and trach/peg placement, awaiting transfer to
   vent rehabiilitation facility
   1. Delirium: much improved on standing haldol
    - continue standing haldol
    - continue frequent redirection/maintain day/night
   2. Diarrhea: likely [**2-14**] tube feeds
    - will start bulking agents
    - lomotil
   3. respiratory failure:
    - cont PSV at night, TM at night with gradual wean
    - to f/u with IP
   4. Dysphagia/gastric motility:
    - continue PPI and H2 blocker
    - cont reglan
    - cont scopolamine patch for respiratory secretions
    - to f/u with GI as outpatient, will need motility study and  gastric
   emptying study once she is able to swallow
   5. AFib: improved on diltiazem
   6. A/C for upper extremity clot and afib
    - to start lovenox to coumadin transition in rehab
   7. ? szr activity: unclear dx based on suboptimal EEG, off dilantin, to
   f/u with neuro as outpatient
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2169-4-26**] 10:33 AM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2169-4-25**] 07:20 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes

2169-04-27 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - added banana flakes TID to feeds to help bulk stool a bit
   - Still working on insurance issues for rehab placement, otherwise no
   new issues
   -was on trach mask all night and did not need pressure support
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsPenicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2169-4-26**] 08:39 AM
   Pantoprazole (Protonix) - [**2169-4-26**] 10:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-27**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98.1
   HR: 70 (70 - 124) bpm
   BP: 90/46(56) {90/29(50) - 165/97(104)} mmHg
   RR: 25 (8 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.5 kg (admission): 80.8 kg
   Height: 66 Inch
                  Total In:
                                                                  2,753 mL
                                                                  1,000 mL
   PO:
                  TF:
                                                                  1,568 mL
                                                                    500 mL
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                    760 mL
   Urine:
                                                                  2,360 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    393 mL
                                                                    240 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 463 (463 - 530) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: ////
   Ve: 9.8 L/min
   Physical Examination:
   General: no acute distress, alert and more interactive today
   HEENT: PERRL, EOMI, OP clear
   Neck: trach site clean /dry / in tact
   Lungs: Rhonchi anteriorly, no wheezes , mild lateral basilar crackles
   CVS: S1/S2 reg, RRR, no murmurs or  rubs
   Neuro: CNs [**2-24**] in tact, moving all extremities
   Ext: 2+ pedal pulses, warm, no edema
   Labs / Radiology
   LABS FROM [**4-26**]**
   230 K/uL
   9.3 g/dL
   98 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.4 mEq/L
   10 mg/dL
   104 mEq/L
   143 mEq/L
   30.9 %
   7.0 K/uL
        [image002.jpg]
                             [**2169-4-20**]  04:19 AM
                             [**2169-4-20**]  11:00 AM
                             [**2169-4-20**]  06:09 PM
                             [**2169-4-21**]  02:36 AM
                             [**2169-4-22**]  04:05 AM
                             [**2169-4-22**]  08:57 PM
                             [**2169-4-23**]  03:52 AM
                             [**2169-4-24**]  06:03 AM
                             [**2169-4-25**]  02:24 AM
                             [**2169-4-26**]  06:38 AM
   WBC
   7.3
   10.0
   7.7
   8.1
   7.7
   7.4
   7.0
   Hct
   27.4
   29.3
   30.4
   28.7
   27.2
   28.0
   27.1
   28.7
   30.9
   Plt
   [**Telephone/Fax (3) 12562**]75
   262
   256
   230
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   0.7
   Glucose
   95
   113
   116
   108
   117
   108
   104
   98
   Other labs: PT / PTT / INR:15.0/32.7/1.3, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:36/17, Alk Phos / T Bili:195/0.2,
   Amylase / Lipase:/21, Differential-Neuts:58.6 %, Lymph:34.3 %, Mono:4.2
   %, Eos:2.4 %, Fibrinogen:351 mg/dL, Lactic Acid:0.4 mmol/L, Albumin:2.4
   g/dL, LDH:166 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   57-year-old woman with history of tracheobronchial malacia with long
   ICU course here on treatment for VAP and on trach mask/pressure support
   intermittently with improved delirium on haldol awaiting rehab bed for
   long term vent weaning
   .
   # Delirium:  [**2-14**] ICU delirium, infection, lyte disturbance. Improved on
   increased haldol yesterday, off restraints >48hr. QTC .45 on this
   regimen
   - continue haldol 0.5mg/0.5mg/2mg and 1mg PO BID prn
   - follow EKGs with goal QTC<0.5
   - redirect frequently
   - f/up recent urine culture ( UA neg)
   .
   #Diarrhea : likely from tube feeds but given recent antibiotics
   C.difficile in differential as well. Patient has no WBC elevation but
   had a mild elevation in temp again last night.
   - cdiff negative
   - likely just from tube feeds
   - can give banana flakes TID prn
   # Respiratory failure: TBM with trach in place. Will now need long term
   weaning. Plan is to continue trach mask during day, pressure support at
   night. Has been tolerating this well. Last night was first night she
   was able to tolerate just trach mask all night without PS.
   --Appreciate IP recs.
   --Outpatient f/up has been arranged
   --management of secretions as per above
   # Oropharyngeal dysphagia: S & S eval indicated swallowing muscle
   weakness.  Has had no additional bilious emesis overnight. GI following
   and has recommendations for outpatient impedance and gastric motility
   studies. Also, we added H2 blocker in addition to PPI per GI. No reflux
   >24 hours
   -- continue PPI and H2 blocker
   --will need intensive rehab
   --continue scopolamine  patch
   -- continue reglan
   -- continue tube feeds, no need to hold
   -- continue suctioning
   -- has had GI followup arranged as outpatient
   # Tachycardia, h/o PAF. Resolving slowly. Atrial ectopy has tapered off
   now after recent uptitration of Diltiazem. Mostly all sinus tachycardia
   now that seems to flare up with delirium and agitation episodes.
   --cont increased dose of diltiazem
   --continue Lovenox & warfarin
   --f/up I/Os, continue to keep even
   # Recent HAP PNA :  now  s/p 10d of meropenem (last day [**4-23**]).  Mild
   fever since but no changes in usual sputum and secretions. Recent
   blood/sputum cultures all negative.
   # Blood loss anemia, h/o gastritis and esophagitis:  Hct has remained
   stable in the 27-28 range, has not required transfusion for several
   days. Likely slow ooze from known gastritis/esophagitis. GI aware and
   plan to follow-up as outpatient.
   - trend Hct daily for now transfuse hct>25
   - continue PPI and H2B, maintain active T&S
   .
   # Seizure Activity: No recent seizures. Per d/w neuro, have
   discontinued phenytoin at this time.
   --patient will plan to follow-up as outpt with neuro after this
   hospital course
   .
   # DVT:
   -- on lovenox,  can start on Coumadin at rehab ( goal INR [**2-15**], then can
   d/c lovenox)
   .
    # COPD: no active issues
   - cont inhalers
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2169-4-27**] 04:51 AM 65 mL/hour
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2169-4-26**] 08:31 PM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: PPI and H2 blocker
   VAP:
   Comments:
   Communication:  Comments: Boyfriend and brother
   [**Name (NI) 156**] status: Full code
   Disposition: ICU, has rehab bed for long term weaning
to be d/c today

2169-04-27 11:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   tolerated TM overnight
   24 Hour Events:
   Allergies:
   Penicillins
   Rash; blisters;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-4-27**] 07:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-4-27**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98.1
   HR: 102 (70 - 115) bpm
   BP: 119/60(74) {90/29(50) - 140/97(104)} mmHg
   RR: 25 (8 - 28) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.5 kg (admission): 80.8 kg
   Height: 66 Inch
             Total In:
                                                                  2,753 mL
                                                                  1,345 mL
   PO:
             TF:
                                                                  1,568 mL
                                                                    715 mL
   IVF:
                                                                     10 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                  1,260 mL
   Urine:
                                                                  2,360 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    393 mL
                                                                     85 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 463 (463 - 463) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 92%
   ABG: ////
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, ETT
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   230 K/uL
   98 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.4 mEq/L
   10 mg/dL
   104 mEq/L
   143 mEq/L
   30.9 %
   7.0 K/uL
        [image002.jpg]
                             [**2169-4-20**]  04:19 AM
                             [**2169-4-20**]  11:00 AM
                             [**2169-4-20**]  06:09 PM
                             [**2169-4-21**]  02:36 AM
                             [**2169-4-22**]  04:05 AM
                             [**2169-4-22**]  08:57 PM
                             [**2169-4-23**]  03:52 AM
                             [**2169-4-24**]  06:03 AM
                             [**2169-4-25**]  02:24 AM
                             [**2169-4-26**]  06:38 AM
   WBC
   7.3
   10.0
   7.7
   8.1
   7.7
   7.4
   7.0
   Hct
   27.4
   29.3
   30.4
   28.7
   27.2
   28.0
   27.1
   28.7
   30.9
   Plt
   [**Telephone/Fax (3) 12562**]75
   262
   256
   230
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   0.7
   Glucose
   95
   113
   116
   108
   117
   108
   104
   98
   Other labs: PT / PTT / INR:15.0/32.7/1.3, CK / CKMB /
   Troponin-T:39//0.06, ALT / AST:36/17, Alk Phos / T Bili:195/0.2,
   Amylase / Lipase:/21, Differential-Neuts:58.6 %, Lymph:34.3 %, Mono:4.2
   %, Eos:2.4 %, Fibrinogen:351 mg/dL, Lactic Acid:0.4 mmol/L, Albumin:2.4
   g/dL, LDH:166 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   57 yo F COPD, TBM s/p prolonged ICU course for treatment of respiratory
   failure, now s/p Y stent and trach placement
   1. Deliurum, stable, and interactive
    - cont standing haldol doses
    - cont redirection and maintain day-night stability
   2. Respiratory failure:
    - imrpved, now 24 hours on tcm
    - deflated cuff today and able to maintain clear airway with strong
   [**Last Name (LF) **], [**First Name3 (LF) 124**] leave deflated
   3. Gastroesophageal reflux
    - GI work-up when able to tolerate POs at outpatietn
    - cont reglanm, H2 blocker, PPI
   4. Anticoagulation: for upper extremity DVT, will cont coumadin for
   total 3 months
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2169-4-26**] 08:31 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes